2139-01-22 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2139-1-21**] 05:30 PM
 PICC LINE - START [**2139-1-21**] 06:24 PM
 NASAL SWAB - At [**2139-1-21**] 09:00 PM
    for MRSA
 EKG - At [**2139-1-21**] 09:47 PM
 URINE CULTURE - At [**2139-1-21**] 09:50 PM
 BLOOD CULTURED - At [**2139-1-22**] 12:49 AM
    1 of 2 from PICC LINE
 ARTERIAL LINE - START [**2139-1-22**] 01:00 AM
 BLOOD CULTURED - At [**2139-1-22**] 01:16 AM
    blood c/s 2 of 2 from A line
   Started repleting free water deficit
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2139-1-22**] 06:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2139-1-22**] 12:20 AM
   Other medications:
   Changes to medical and family history:
   intubated and sedated
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2139-1-22**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 82 (82 - 89) bpm
   BP: 145/61(88) {145/61(88) - 169/78(107)} mmHg
   RR: 9 (9 - 31) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 101.5 kg (admission): 105.5 kg
             Total In:
                                                                     90 mL
                                                                  1,215 mL
   PO:
             TF:
   IVF:
                                                                     90 mL
                                                                  1,215 mL
   Blood products:
   Total out:
                                                                    420 mL
                                                                  1,060 mL
   Urine:
                                                                    420 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -330 mL
                                                                    155 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 7
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 134
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.52/34/105/25/5
   Ve: 13.7 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), PMI displaced
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, scrotal edema
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   117 K/uL
   8.5 g/dL
   191 mg/dL
   2.0 mg/dL
   25 mEq/L
   4.0 mEq/L
   177 mg/dL
   113 mEq/L
   152 mEq/L
   26.8 %
   24.1 K/uL
        [image002.jpg]
                             [**2139-1-21**]  07:19 PM
                             [**2139-1-21**]  07:29 PM
                             [**2139-1-22**]  01:13 AM
                             [**2139-1-22**]  04:02 AM
                             [**2139-1-22**]  04:17 AM
   WBC
   20.8
   24.1
   Hct
   27.5
   26.8
   Plt
   138
   117
   Cr
   2.2
   2.0
   TropT
   0.56
   0.55
   TCO2
   28
   28
   29
   Glucose
   248
   191
   Other labs: PT / PTT / INR:13.7/35.4/1.2, CK / CKMB /
   Troponin-T:270/5/0.55, ALT / AST:120/64, Alk Phos / T Bili:89/0.7,
   Differential-Neuts:94.5 %, Lymph:1.9 %, Mono:3.4 %, Eos:0.0 %,
   Albumin:3.0 g/dL, LDH:443 IU/L, Ca++:8.1 mg/dL, Mg++:3.8 mg/dL, PO4:5.7
   mg/dL
   Imaging: CT chest- non-con:
   Large bilateral pleural effusions with compressive atelectasis.
   Additional multifocal peribronchial opacities bilaterally suggest
   infection. Limited assessment for small airways disease given
   respiratory motion. Underlying moderate emphysema at the lung apices.
   Atherosclerotic disease. Comparison to prior OSH images will be useful,
   please have these uploaded to [**Hospital1 19**] PACS
   system.
   Microbiology: Legionella urinary Ag (-)
   Assessment and Plan:  83M with sCHF (EF 40%), presenting from OSH with
   acute hypoexmic respiratory failure with evidence of BOOP, unexplained
   hemoptysis and acute on CKI.
   .
   # Acute Hypoxemic Respitatory Failure: The patient presented from an
   OSH with with vent setting of 10 PEEP, 40% Fi02. Last p02 of 60 on
   FiO2, PEEP 10.  Increased FiO2 to 50%.  Differential of failure
   includes BOOP, CHF, ANCA-associated vasculitis e.g. Goodpasture's
   syndrome, and VAP.  No evidence of emphasematous changes on recent
   imaging to suggest obstructive physiology.
   - will upload outside hospital imaging
   - will wean steroids
   - will convert to meropenem for Klebsiella in sputum, repeat sputum cx,
   follow up sensitivies
   - see below for CHF management
   .
   # Question BOOP/COP: Patient with symptoms of dyspnea, hemoptysis.
   Evidence on CT noted above in history. Autoantibodies such as [**Doctor First Name **], ANCA
   were noted to be negative.  Path report c/w BOOP.  The patient is now
   s/p  days of 0.5 gm of Solumedrol. Patients last PFTs were noted to be
   consistent with mild to moderate restrictive ventilatory defect.
   - Upload CT Chest into records -> f/u in PACS
   - attempt to obtain path slide for additional review
   - begin steroid wean to once daily methylprednisolone
   - will repeat ANCA, [**Doctor First Name **], anti-GBM
   .
   #. Chronic Systolic CHF: Pt with last known EF of 40%. Now appears to
   be clinically hypervolemic with likely intravascular depletion.
   Diuresis unsuccessful yesterday, per report, now appears to be
   improving according to physician at OSH.
   - repeat TTE this morning
   - will place on lasix gtt this morning, goal (-) 2 to 2.5 liters today
   - favor optimizing CHF regimen with afterload reduction -> will start
   isosorbide mononitrate, avoid ACEi given tenuous renal fxn, B blockade
   given 1^st degree AV block
   .
   # CAD s/p angioplasty, stent x 1:  troponin elevated, CK and MB
   normal.  Given recent history of hemoptysis and possible RML
   hemorrhage, renal insufficiency, and no significant ECG changes from
   admission to OSH, will defer anti-platelet and anti-coagulation at this
   time.  Will continue to trend and continue ASA 325 mg daily
   - hold statin in setting of transaminitis
   .
   #. Acute on Chronic Kidney Injury: DDx includes prerenal azotemia (poor
   forward flow, intravascular depletion), intrinsic, post-renal. Although
   now with signs of fluid overload, BUN of 200.  No signs of acidosis,
   hyperkalemia to sugest urgent emergeny need for dialysis. Pt may
   require HD vs CVVH given azotemia.  Steroid-induced catabolic state
   likely etiology of elevated BUN.
   - Avoid Nephrotoxins
   - UA with sediment and cx
   - Urine Lytes
   - f/u Renal recs, appreciate recs
   .
   #.  Hypernatremia- suspect intravascular volume depletion in setting of
   recent diuresis and elevated BUN, serum osmolality.
   -  will correct free water deficit with D5W, 1.7 liters to correct to
   148 in next 8 hours
   -  serial Na
   .
   #.  Type II DM- on SSI, consider insulin gtt in morning.
   .
   FEN: no IVF
   .
   PPX:
   -DVT ppx with pneumoboots
   -Bowel regimen
   -Pain management
   .
   ACCESS: PIV, right PICC, left a-line
   .
   Full Code
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 453**] [**Last Name (LF) 5628**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12629**]
   .
   DISPOSITION:  [**Hospital Unit Name 1**] pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Arterial Line - [**2139-1-22**] 01:00 AM
   Prophylaxis:
   DVT:  SC heparin
   Stress ulcer:  ranitidine
   VAP:  meropenum
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 1**]
   ------ Protected Section ------
   CRITICAL CARE
   Present for the key portions of the resident
s history and exam. Agree
   substantially with assessment and plan as outlined above during
   multidisciplinary rounds.  Complex history with hemoptysis, resp
   failure, elevated LD, TBB suggesting COP, echo showing substantially
   compromised LV fxn and anasarca. Cx done.
   98.7    86     177/81
   Sedated unarousable
   Chest diminished diffuse mid insp crackles
   CV [**2-14**] holosyst m
   Extrem anasarca
   Na 152
   BUN 176
   Creat 2.0
   Resp failure almost certainly multifactorial. Severe vol overload with
   signif compromised LV fxn.  Signif emphysema, bronchiectasis and
   possible inflam dis.  Steroid rx is oncreasing BUN and is not clearly
   improving lung dis with LD > 400.  Most obviously treatable is his
   anasarca.  We are initiating lasix gtt but may well require CVVH.  BP
   is elevated so he should tolerate diuresis but I suspect he has signif
   MR.  We are attempting to correct his Na, cx completely and 2will try
   to review his pathology if it can be obtained.  Major feature of his
   chest CT, however, is fluid and that is first priority. Will do BAL in
   am
   Time spent 65 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2139-1-22**] 21:16 ------

2139-01-23 07:22:00 Physician Resident Progress Note
Chief Complaint: hypoxic respiratory failure, [**Last Name (un) **]
   24 Hour Events:
 EKG - At [**2139-1-22**] 08:56 AM
 BLOOD CULTURED - At [**2139-1-22**] 07:52 PM
 EKG - At [**2139-1-22**] 10:31 PM
   - sedated
   - goal is diuresis
   - stopped d5 drip and increased free water flush frequency
   - blood sugars remained difficult to control, held off on insulin drip
   because of access issues
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2139-1-22**] 06:00 AM
   Meropenem - [**2139-1-23**] 05:27 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-1-22**] 04:18 PM
   Fentanyl - [**2139-1-22**] 08:19 PM
   Other medications:
   Changes to medical and family history:
   intubated and sedated
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2139-1-23**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.5
   HR: 91 (85 - 96) bpm
   BP: 171/75(104) {145/44(72) - 180/81(111)} mmHg
   RR: 31 (16 - 42) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 101.5 kg (admission): 105.5 kg
             Total In:
                                                                  5,151 mL
                                                                  1,856 mL
   PO:
             TF:
                                                                    339 mL
                                                                    288 mL
   IVF:
                                                                  4,617 mL
                                                                  1,008 mL
   Blood products:
   Total out:
                                                                  3,535 mL
                                                                  2,200 mL
   Urine:
                                                                  3,535 mL
                                                                  2,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,616 mL
                                                                   -344 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.43/42/108/26/2
   Ve: 13.1 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, scrotal edema
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, anasarca
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   108 K/uL
   7.8 g/dL
   320 mg/dL
   2.0 mg/dL
   26 mEq/L
   3.7 mEq/L
   169 mg/dL
   111 mEq/L
   150 mEq/L
   25.8 %
   24.8 K/uL
        [image002.jpg]
                             [**2139-1-21**]  07:29 PM
                             [**2139-1-22**]  01:13 AM
                             [**2139-1-22**]  04:02 AM
                             [**2139-1-22**]  04:17 AM
                             [**2139-1-22**]  01:47 PM
                             [**2139-1-22**]  02:50 PM
                             [**2139-1-22**]  07:55 PM
                             [**2139-1-23**]  12:15 AM
                             [**2139-1-23**]  03:47 AM
                             [**2139-1-23**]  04:01 AM
   WBC
   20.8
   24.1
   24.8
   Hct
   27.5
   26.8
   25.8
   Plt
   138
   117
   108
   Cr
   2.2
   2.0
   1.9
   2.0
   2.0
   TropT
   0.56
   0.55
   0.52
   TCO2
   28
   29
   28
   27
   29
   Glucose
   [**Telephone/Fax (3) 12654**]80
   320
   Other labs: PT / PTT / INR:13.7/35.4/1.2, CK / CKMB /
   Troponin-T:337/5/0.52, ALT / AST:104/52, Alk Phos / T Bili:88/0.6,
   Differential-Neuts:96.0 %, Lymph:1.8 %, Mono:2.1 %, Eos:0.1 %, Lactic
   Acid:2.1 mmol/L, Albumin:3.0 g/dL, LDH:417 IU/L, Ca++:7.7 mg/dL,
   Mg++:3.4 mg/dL, PO4:5.5 mg/dL
   Imaging: CT chest without contrast- IMPRESSION:
   1. Left ventricular enlargement, moderate pulmonary edema, moderate
   nonhemorrhagic bilateral pleural effusions, could be related to severe
   coronary atherosclerosis and some aortic valvular stenosis.
   2. Small right middle lobe hematoma.
   3. Moderate emphysema.
   4. Severe atherosclerosis involving coronaries, proximal head and neck
   and abdominal arteries. No aneurysm.
   5. Large exophytic right renal cyst.
   6. Anemia.
   TTE:
   The left atrium is dilated. There is mild symmetric left ventricular
   hypertrophy with normal cavity size. Due to suboptimal technical
   quality, a focal wall motion abnormality cannot be fully excluded.
   There is moderate global left ventricular hypokinesis (LVEF = 30-35%).
   The aortic valve leaflets (3) are mildly thickened but aortic stenosis
   is not present. No aortic regurgitation is seen. The mitral valve
   leaflets are mildly thickened. There is no mitral valve prolapse. Mild
   (1+) mitral regurgitation is seen. The tricuspid valve leaflets are
   mildly thickened. There is mild pulmonary artery systolic hypertension.
   There is no pericardial effusion.
   IMPRESSION: Mild symmetric left ventricular hypertrophy with moderate
   global LV hypokinesis. Mild mitral regurgitation. Mild pulmonary artery
   systolic hypertension
   CT head non-contrast
   1. No acute intracranial hemorrhage or acute vascular infarct.
   2. Encephalomalacia in the right occipital lobe with ex vacuo
   dilatation of the occipital [**Doctor Last Name 758**] of the right lateral ventricle,
   consistent with old PCA
   infarct.
   3. Chronic small vessel ischemic change
   Microbiology: blood cx pending
   urine (-)
   sputum pending, appears to be oropharyngeal flora
   ECG: no significant changes from prior
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERNATREMIA (HIGH SODIUM)
 DIABETES MELLITUS (DM), TYPE II
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assessment and Plan:  83M with systolic heart failure, presenting from
   OSH with acute hypoexmic respiratory failure with evidence of BOOP and
   acute on CKI.
   .
   # Acute Hypoxemic Respitatory Failure: The patient presented from an
   OSH with with vent setting of 10 PEEP, 40% Fi02. Last p02 of 60 on
   FiO2, PEEP 10.  Increased FiO2 to 50%.  Differential of failure
   includes CHF, ANCA-associated vasculitis e.g. Goodpasture's syndrome,
   VAP, and obstructive lung disease (noted on CT chest from OSH).
   Patients last PFTs were noted to be consistent with mild to moderate
   restrictive ventilatory defect.  Autoantibodies such as [**Doctor First Name **], ANCA were
   noted to be negative.  Path report c/w BOOP.  Imaging from outside
   hospital shows clear RML hemorrhage post-bronchoscopy.  Systolic heart
   failure, as evidence by TTE, likely primary component.
   - son to attempt to obtain non-cont CT chest done prior to [**2139-1-5**]
   bronch
   - will cont to wean methylpred to 40 mg daily tomorrow
   - BAL today
   - f/u repeat vasculitis serologies
   - Klebsiella resistant only to amp, will convert [**Last Name (un) 614**] to cipro
   - see below for CHF management
   - attempt to obtain path slide for additional review
   .
   #. Chronic Systolic CHF: Pt with last known EF of 40%. TTE shows slight
   decline in systolic function with clear volume overload. Now appears to
   be clinically hypervolemic.
   - cont lasix gtt this morning, goal (-) 2 to 4 liters today
   - cont afterload reduction with isosorbide, avoiding ACEi given renal
   fxn, avoiding B blockade given 1^st degree heart block
   .
   # CAD s/p angioplasty, stent x 1:  troponin elevated, CK and MB
   normal.  Given recent history of hemoptysis and possible RML
   hemorrhage, renal insufficiency, and no significant ECG changes from
   admission to OSH, will defer anti-platelet and anti-coagulation at this
   time.  Will continue to trend and continue ASA 325 mg daily.  Repeat
   ECG unchanged yesterday.
   - hold statin in setting of transaminitis
   - troponin stable, will stop trending
   .
   #. Acute on Chronic Kidney Injury: DDx includes prerenal azotemia (poor
   forward flow, intravascular depletion), intrinsic, post-renal. Although
   now with signs of fluid overload, BUN of 200.  No signs of acidosis,
   hyperkalemia to sugest urgent emergeny need for dialysis. Pt may
   require HD vs CVVH given azotemia.  Steroid-induced catabolic state
   likely etiology of elevated BUN.
   - Avoid Nephrotoxins
   - UA with sediment and cx
   - Urine Lytes
   - f/u Renal recs, appreciate recs
   .
   #.  Hypernatremia- suspect intravascular volume depletion in setting of
   recent diuresis and elevated BUN, serum osmolality.
   -  will correct free water deficit with D5W, 1.7 liters to correct to
   148 in next 8 hours
   -  serial Na
   .
   # Altered Mental Status- Patient has not been alert/interactive since
   transfer.  Sedation held for period of time yesterday, without
   improvement.  No clonus on exam, although significant uremia likely
   contributing to altered mental status.
   - will attempt daily awakenings, wean sedation
   -
   .
   #.  Type II DM- on SSI, consider insulin gtt in morning.
   .
   FEN: no IVF/replete lytes/TFs for nutrition
   .
   PPX:
   -DVT ppx with pneumoboots
   -Bowel regimen
   -Pain management
   .
   ACCESS: PIV, right PICC, left a-line
   .
   Full Code
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 453**] [**Last Name (LF) 5628**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12629**]
   .
   DISPOSITION:  [**Hospital Unit Name 1**] pending above
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2139-1-23**] 01:31 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Arterial Line - [**2139-1-22**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-01-24 07:09:00 Physician Resident Progress Note
Chief Complaint: hypoxic resp failure, renal failure
   24 Hour Events:
 BRONCHOSCOPY - At [**2139-1-23**] 03:10 PM
 ULTRASOUND - At [**2139-1-23**] 06:14 PM
   GB
   - obtained OSH CT from before bronch
   - changed meropenem to cipro based on Klebsiella sensis
   - had bronch
   - renal recs: goal Na 144, max free water boluses (300 q3), diuresis,
   check urine lytes for e/o DI (osm 406 so unlikely)
   - elevated LFTS, unclear etiology, obtained [**Name (NI) 3234**] u/s
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2139-1-22**] 06:00 AM
   Meropenem - [**2139-1-23**] 05:27 AM
   Ciprofloxacin - [**2139-1-23**] 11:04 PM
   Infusions:
   Insulin - Regular - 4 units/hour
   Furosemide (Lasix) - 16 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2139-1-23**] 05:00 PM
   Heparin Sodium (Prophylaxis) - [**2139-1-23**] 11:04 PM
   Midazolam (Versed) - [**2139-1-24**] 07:00 AM
   Fentanyl - [**2139-1-24**] 07:00 AM
   Other medications:
   Changes to medical and family history:
   sedated
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2139-1-24**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 96 (79 - 97) bpm
   BP: 141/59(83) {125/50(72) - 165/75(103)} mmHg
   RR: 35 (17 - 42) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 104.1 kg (admission): 105.5 kg
             Total In:
                                                                  4,504 mL
                                                                  1,404 mL
   PO:
             TF:
                                                                    814 mL
                                                                    287 mL
   IVF:
                                                                  2,005 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                  6,175 mL
                                                                  1,360 mL
   Urine:
                                                                  6,175 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,671 mL
                                                                     44 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 27 cmH2O
   Plateau: 26 cmH2O
   SpO2: 96%
   ABG: 7.50/39/81.[**Numeric Identifier 218**]/27/6
   Ve: 11.8 L/min
   PaO2 / FiO2: 203
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), regularly irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   91 K/uL
   7.3 g/dL
   106 mg/dL
   1.8 mg/dL
   27 mEq/L
   3.6 mEq/L
   159 mg/dL
   110 mEq/L
   149 mEq/L
   23.2 %
   25.3 K/uL
        [image002.jpg]
                             [**2139-1-22**]  01:47 PM
                             [**2139-1-22**]  02:50 PM
                             [**2139-1-22**]  07:55 PM
                             [**2139-1-23**]  12:15 AM
                             [**2139-1-23**]  03:47 AM
                             [**2139-1-23**]  04:01 AM
                             [**2139-1-23**]  12:09 PM
                             [**2139-1-23**]  09:05 PM
                             [**2139-1-24**]  04:14 AM
                             [**2139-1-24**]  04:44 AM
   WBC
   24.8
   25.3
   Hct
   25.8
   22.8
   23.1
   23.2
   Plt
   108
   91
   Cr
   1.9
   2.0
   2.0
   1.9
   1.8
   1.8
   TropT
   0.52
   0.60
   TCO2
   28
   27
   29
   31
   Glucose
   265
   380
   320
   [**Telephone/Fax (3) 12665**]
   Other labs: PT / PTT / INR:13.7/35.4/1.2, CK / CKMB /
   Troponin-T:337/5/0.60, ALT / AST:104/52, Alk Phos / T Bili:88/0.6,
   Differential-Neuts:96.0 %, Lymph:1.8 %, Mono:2.1 %, Eos:0.1 %, Lactic
   Acid:2.1 mmol/L, Albumin:3.0 g/dL, LDH:417 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.8 mg/dL, PO4:4.5 mg/dL
   Imaging: [**Telephone/Fax (3) 3234**] u/s: No intra or extrahepatic biliary ductal dilatation.
   CBD 4mm. Sludge in the GB without evidence of acute cholecystitis. No
   focal hepatic abnormality. Right pleural effusion
   Microbiology: BAL->
   GRAM STAIN (Final [**2139-1-23**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
      Immunoflourescent test for Pneumocystis jirovecii (carinii)
         (Preliminary):
      VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary):
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERNATREMIA (HIGH SODIUM)
 DIABETES MELLITUS (DM), TYPE II
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assessment and Plan:  83M with systolic heart failure, presenting from
   OSH with acute hypoexmic respiratory failure with evidence of BOOP and
   acute on CKI.
   .
   # Acute Hypoxemic Respitatory Failure: The patient presented from an
   OSH with with vent setting of 10 PEEP, 40% Fi02. Last p02 of 60 on
   FiO2, PEEP 10.  Increased FiO2 to 50%.  Differential of failure
   includes CHF, ANCA-associated vasculitis e.g. Goodpasture's syndrome,
   VAP, and obstructive lung disease (noted on CT chest from OSH).
   Patients last PFTs were noted to be consistent with mild to moderate
   restrictive ventilatory defect.  Autoantibodies such as [**Doctor First Name **], ANCA were
   noted to be negative, and are negative on repeat here.  Path report c/w
   BOOP.  Imaging from outside hospital shows clear RML hemorrhage
   post-bronchoscopy.  Systolic heart failure, as evidence by TTE, is
   likely the primary component.
   - son to attempt to obtain non-cont CT chest on [**2138-12-22**], done prior to
   first bronchoscopy
   - will cont to wean methylpred to 20 mg daily tomorrow
   - f/u BAL results
   - repeat vasculitis serologies are negative
   - Klebsiella resistant only to amp, will cont cipro today day [**2-15**]
   - see below for CHF management
   - attempt to obtain path slide for additional review
   .
   #. Chronic Systolic CHF: Pt with last known EF of 40%. TTE shows slight
   decline in systolic function with clear volume overload. Now appears to
   be clinically hypervolemic.
   - cont lasix gtt this morning, goal (-) 2 to 4 liters today
   - cont afterload reduction with isosorbide, avoiding ACEi given renal
   fxn, avoiding B blockade given 1^st degree heart block
   .
   # CAD s/p angioplasty, stent x 1:  troponin elevated, CK and MB
   normal.  Given recent history of hemoptysis and possible RML
   hemorrhage, renal insufficiency, and no significant ECG changes from
   admission to OSH, will defer anti-platelet and anti-coagulation at this
   time.  Will continue to trend and continue ASA 325 mg daily.  Repeat
   ECG unchanged yesterday.
   - hold statin in setting of transaminitis
   - troponin stable, will stop trending
   .
   #. Acute on Chronic Kidney Injury: DDx includes prerenal azotemia (poor
   forward flow, intravascular depletion), intrinsic. Although now with
   signs of fluid overload, BUN of 200.  No signs of acidosis,
   hyperkalemia to sugest urgent emergeny need for dialysis. Pt may
   require HD vs CVVH given azotemia.  Steroid-induced catabolic state
   likely etiology of elevated BUN.  Creatinine stable at 2 and unchanged
   from [**2139-1-5**].
   - Avoid Nephrotoxins
   - U/A with sediment and cx
   - Urine Lytes
   - f/u Renal recs, appreciate recs, cont with aggressive diuresis
   .
   #.  Hypernatremia- free water deficit likely [**2-10**] mechanical
   ventilation.  Patient may have DI, difficult to assess in setting of
   diuresis.
   -  will correct free water deficit with D5W
   -  serial Na
   .
   # Altered Mental Status- Patient has not been alert/interactive since
   transfer.  Sedation held for period of time yesterday, without
   improvement.  No clonus on exam, although significant uremia likely
   contributing to altered mental status.
   - will attempt daily awakenings, hold sedation
   - pt may need additional eval tomorrow if no improvement, e.g. further
   imaging, LP, EEG, etc
   .
   #.  Type II DM- convert to insulin gtt.
   .
   FEN: no IVF/replete lytes/TFs for nutrition/ replete free water deficit
   with free water
   .
   PPX:
   -DVT ppx with pneumoboots, SC heparin, ranitidine
   -Bowel regimen
   -Pain management
   .
   ACCESS: PIV, right PICC, left a-line
   .
   Full Code
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 453**] [**Last Name (LF) 5628**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12629**]
   .
   DISPOSITION:  [**Hospital Unit Name 1**] pending above
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2139-1-24**] 06:48 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Arterial Line - [**2139-1-22**] 01:00 AM
   20 Gauge - [**2139-1-23**] 12:38 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer:  ranitidine
   VAP:  cipro
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 1**]
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   On this day I examined Mr [**Known lastname 12627**] and reviewed his historical, lab, and
   imaging data. I also was present for the key portion of the services
   provided. I have reviewed Dr [**Last Name (STitle) 9827**]
s note above and concur with his
   findings and plan of care.
   Mr [**Known lastname 12627**] suffers from acute resp failure which seems in part due to
   CHF and in part due to hemorrhage in the locale of OSH TBBX.  Though
   that small bx has been read as c/w BOOP, this is a hard dx to make on
   TBBx and pt has not a response to steroids.  In fact since being on
   steroids his BUN has risen and is now near 160.  This may be playing a
   role in his being obtunded, as patient also has renal failure.  We are
   treating Klebsiella resp infection with Cipro and also increasing free
   H20 to Rx hypernatremia.  The goals today are to make I/0 2 liters neg,
   to increase free water, to lower steroids in an effort to lower BUN,
   and to keep him on A/C ventilation without sedation, hoping for an
   improvement in mental status.  We have discussed our thoughts and
   concerns with his son who was at the bedside this morning.
   40 min spent in the care of this critically ill patient.
   [**First Name8 (NamePattern2) 1620**] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2139-1-24**] 14:52 ------

2139-01-25 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2139-1-25**] 04:35 AM
 BLOOD CULTURED - At [**2139-1-25**] 04:55 AM
   - pt showing signs of wakefulness, still not following commands
   - correcting free water deficit at expense of diuresis, d/c'd lasix
   this afternoon
   - increased free water boluses to 250 cc Q1H with TFs
   - pre-bronch CT likely in mail room ATTN:  Dr. [**First Name (STitle) 37**]
   - sodium corrected, decreased free water boluses, restarted lasix
   - hypotensive to 70s systolic overnight, levo transitioned to dopa
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2139-1-23**] 05:27 AM
   Ciprofloxacin - [**2139-1-25**] 12:00 AM
   Infusions:
   Dopamine - 10 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-1-25**] 12:09 AM
   Other medications:
   Changes to medical and family history:
   intubated and sedated; tries to open eyes to name, appears to track
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2139-1-25**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 85 (80 - 100) bpm
   BP: 89/39(52) {89/39(52) - 149/70(92)} mmHg
   RR: 33 (15 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.1 kg (admission): 105.5 kg
             Total In:
                                                                  5,699 mL
                                                                  2,625 mL
   PO:
             TF:
                                                                    978 mL
                                                                    302 mL
   IVF:
                                                                    641 mL
                                                                  1,323 mL
   Blood products:
   Total out:
                                                                  3,445 mL
                                                                    150 mL
   Urine:
                                                                  3,445 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,254 mL
                                                                  2,475 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 13
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 28 cmH2O
   SpO2: 100%
   ABG: 7.50/33/63/21/2
   Ve: 14.3 L/min
   PaO2 / FiO2: 126
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), PMI displaced, no m,r,g
   no pulsus paradoxus
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Paradoxical), (Breath Sounds:
   Bronchial: anteriorly), dysynchronous on vent
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, scrotal
   edema
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, still unresponsive
   Labs / Radiology
   64 K/uL
   6.4 g/dL
   257 mg/dL
   2.3 mg/dL
   21 mEq/L
   5.9 mEq/L
   173 mg/dL
   103 mEq/L
   143 mEq/L
   21.0 %
   24.7 K/uL
        [image002.jpg]
                             [**2139-1-24**]  12:52 PM
                             [**2139-1-24**]  05:23 PM
                             [**2139-1-24**]  06:44 PM
                             [**2139-1-24**]  08:45 PM
                             [**2139-1-25**]  01:37 AM
                             [**2139-1-25**]  03:56 AM
                             [**2139-1-25**]  04:09 AM
                             [**2139-1-25**]  04:43 AM
                             [**2139-1-25**]  06:25 AM
                             [**2139-1-25**]  06:26 AM
   WBC
   24.7
   Hct
   20.0
   21.0
   Plt
   64
   Cr
   2.0
   1.8
   1.9
   2.1
   2.2
   2.3
   TropT
   1.00
   TCO2
   33
   27
   Glucose
   132
   117
   111
   183
   200
   257
   Other labs: PT / PTT / INR:16.0/38.2/1.4, CK / CKMB /
   Troponin-T:736/8/1.00, ALT / AST:92/58, Alk Phos / T Bili:82/0.9,
   Differential-Neuts:96.0 %, Lymph:1.8 %, Mono:2.1 %, Eos:0.1 %,
   Fibrinogen:300 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:3.0 g/dL, LDH:630
   IU/L, Ca++:7.0 mg/dL, Mg++:2.7 mg/dL, PO4:6.3 mg/dL
   Microbiology: /15/10 3:19 pm BRONCHOALVEOLAR LAVAGE
      GRAM STAIN (Final [**2139-1-23**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):    NO GROWTH, <1000 CFU/ml.
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2139-1-24**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
      VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary
   ECG: worsening ST depression in I, aVL
   Assessment and Plan
   83M with systolic heart failure, presenting from OSH with acute
   hypoexmic respiratory failure with evidence of BOOP and acute on CKI.
   Course complicated by hypotension.
 HYPOTENSION (SHOCK)  -  Differential includes septic shock,
   cardiogenic.  Less likely hypovolemic.  PE always on the differential.
   Given fever, favor infection leading to demand ischemia.  See below for
   fever eval.  Will continue dopamine given myocardial ischemia.
   - two units PRBCs, IVF boluses for SBP > 110
   - pan culture, start vanc/zosyn empirically, see below
   - will check mixed venous O2 sat to differentiate septic shock vs.
   cardiogenic shock
   > FEVER
 etiology includes VAP, bacteremia from lines; abdominal
   infection, CNS infection less likely
   - will pan-culture, start zosyn/vanc empirically
   - if PICC line looks like source, will remove, re-site
   - treat fever for transfusion
 RESPIRATORY FAILURE, ACUTE, HYPOXEMIC (NOT ARDS/[**Doctor Last Name 11**]): The patient
   presented from an OSH with with vent setting of 10 PEEP, 40% Fi02. Last
   p02 of 60 on FiO2, PEEP 10.  Increased FiO2 to 50%.  Differential of
   failure includes CHF, ANCA-associated vasculitis e.g. Goodpasture's
   syndrome, VAP, and obstructive lung disease (noted on CT chest from
   OSH).  Patients last PFTs were noted to be consistent with mild to
   moderate restrictive ventilatory defect.  Autoantibodies such as [**Doctor First Name **],
   ANCA were noted to be negative, and are negative on repeat here.  Path
   report c/w BOOP.  Imaging from outside hospital shows clear RML
   hemorrhage post-bronchoscopy.  Systolic heart failure, as evidence by
   TTE, is likely the primary component.
   - will upload CT from [**2138-12-22**]
   - will increase steroids to pulse dose
   - f/u BAL results, (-) thus far
   - repeat vasculitis serologies are negative
   - Klebsiella resistant only to amp, will cont cipro today day [**3-15**]
   - see below for CHF management
   - attempt to obtain path slide for additional review
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 evidence of
   worsening ischemia laterally in I, aVL and worsening CK, troponin
   elevation.  Cont ASA, defer anticoagulation given recent pulmonary
   hemorrhage and uremia.
   -  transfuse goal Hct > 30
   - cont dopamine
   - cont ASA
 HEART FAILURE (CHF), SYSTOLIC, [**Name (NI) 12685**] Pt with last known EF of 40%.
   Repeat TTE shows slight decline in systolic function with clear volume
   overload. Now appears to be clinically hypervolemic  Concern for
   worsening systolic fxn and possible pericardial effusion/tamponade.
   - cont lasix gtt this morning, goal (-) 2 to 4 liters today
   - cont afterload reduction with isosorbide, avoiding ACEi given renal
   fxn, avoiding B blockade given 1^st degree heart block
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)  DDx includes
   prerenal azotemia (poor forward flow, intravascular depletion),
   intrinsic. Although now with signs of fluid overload, BUN of 200.
   Steroid-induced catabolic state likely etiology of elevated BUN.
   Creatinine and urine output worsening in setting of hypotension and
   possible cardiogenic vs. septic shock.  Hyperkalemia progressing.
   - d/w Renal re: likely need for emergent HD vs. CVVH
   > ANEMIA
 no evidence of hemolysis.  Pt does have progressive
   thrombocytopenia with uremic platelets.  2 units of PRBCs as above.
   Consider non-con CT torso if inappropriate bump.
 HYPERNATREMIA (HIGH SODIUM)  -repleted with free water, trend Na
 DIABETES MELLITUS (DM), TYPE II - SSI
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)  Patient has not been
   alert/interactive since transfer.  Sedation held for period of time
   yesterday, without improvement.  No clonus on exam, although
   significant uremia likely contributing to altered mental status.
   - will attempt daily awakenings, hold sedation
   - pt may need additional eval tomorrow if no improvement, e.g. further
   imaging, LP, EEG, etc
   ..
   FEN: no IVF/replete lytes/TFs for nutrition/ replete free water deficit
   with free water
   .
   PPX:
   -DVT ppx with pneumoboots, SC heparin, ranitidine
   -Bowel regimen
   -Pain management
   .
   ACCESS: PIV, right PICC, left a-line
   .
   Full Code
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 453**] [**Last Name (LF) 5628**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12629**]
   .
   DISPOSITION:  [**Hospital Unit Name 1**] pending above
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2139-1-25**] 02:25 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Arterial Line - [**2139-1-22**] 01:00 AM
   Prophylaxis:
   DVT:   SC heparin
   Stress ulcer:  pantoprazole
   VAP:   zosyn/vanc
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 1**]
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   On this day I examined Mr [**Known lastname 12627**], and reviewed his historical, lab, and
   imaging data. I was present for the key portions of the services
   provided and also have spoken at some length with the patient
s son,
   [**Name (NI) 453**].  I have read Dr [**Last Name (STitle) 9827**]
s note above and agree with his
   findings and plan of care.  There are several issues active in this
   gentleman with multiorgan system failure
   1)       Cardiac
 there is new hypotension and lateral EKG changes and
   a further increase in troponin in this man with known CAD and CHF and
   EF of 35%.  We will give ASA and transfuse to increase 02 delivery to
   heart.  For now BP is being supported with Dopamine.
   2)       Hypotension
 his BP has dropped, as above, and he
s developed
   a fever. It
s not totally clear if this is cardiac or septic, but in
   any case he has lactic acidosis.  The pt has been cultured up and Zosyn
   and Vanc started pending culture results. Steroids also increased to
   stress levels.
   3)       Renal Failure -  pt is in frank renal failure with oliguria,
   BUN of 173 and Cr increased to 2.3, along with hyperkalemia and
   acidosis.  Hemodialysis will commense today.
   4)       Coma
 Exact cause of abnl mentation still not clear, with now
   hypotension added to possible causes. I am still suspicious that uremia
   is contributing to his obtundation and CNS infection seems much less
   likely. TTP has been mentioned (thrombocytopenia, fever, renal failure,
   etc) and we
ll check his rbc smear
   5)       Thrombocytopenia
 plt ct now down to 64k. Ranitidine
   stopped.  Will follow closely
   6)       Resp Failure
 his CxR is largely unchanged and vent settings
   and ABG
s also adequate. Pt may have some central hyperventilation
   (7.50/33/63 on 50%).  His CT from [**State 395**] from [**12-22**] has been found and
   uploaded. It shows multifocal ground glass opacities and tiny right
   pleural effusion.  This pattern is non specific (alv hemorrhage,
   nonbacterial infection, pulm edema, etc) and not particularly
   suggestive of idiopathic BOOP.
   I have explained to the pt
s son that Mr [**Name (NI) 12627**] is very ill with
   multisystem organ failure. We will continue to do our best to dx and rx
   all problems, but the son states that the patient would want all this
   care only so long as we think there is a reasonable chance of his
   returning to his independent lifestyle.
   60 min spent in the care of this critically ill patient.
   [**First Name8 (NamePattern2) 1620**] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2139-1-25**] 15:59 ------

2139-01-26 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Xfused 4 units
   - Renal recs: placed CVVH line, started CVVH
   - Coffee Grounds on NG lavage, guaiac positive stool
 made NPO,
   started pantoprazole drip, GI aware
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2139-1-25**] 12:04 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-1-25**] 06:00 PM
   Ciprofloxacin - [**2139-1-25**] 11:53 PM
   Infusions:
   Dopamine - 9 mcg/Kg/min
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-1-25**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2139-1-25**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-26**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 38.3
C (101
   Tcurrent: 36
C (96.8
   HR: 98 (64 - 98) bpm
   BP: 152/78(104) {98/45(60) - 152/78(104)} mmHg
   RR: 32 (23 - 50) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.1 kg (admission): 105.5 kg
    Mixed Venous O2% Sat: 42 - 57
   Total In:
                                                                  9,785 mL
                                                                  2,179 mL
   PO:
   TF:
                                                                    641 mL
   IVF:
                                                                  6,042 mL
                                                                  2,179 mL
   Blood products:
                                                                  1,352 mL
   Total out:
                                                                  3,033 mL
                                                                  2,126 mL
   Urine:
                                                                    282 mL
                                                                     55 mL
   NG:
                                                                    250 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  6,752 mL
                                                                     53 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 8
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 19 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.39/37/94.[**Numeric Identifier 126**]/20/-1
   Ve: 14.2 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), PMI displaced, no m,r,g
   no pulsus paradoxus
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Doplerable), (Left DP pulse: Dopplerable)
   Respiratory / Chest: (Expansion: Paradoxical), (Breath Sounds:
   Bronchial: anteriorly), dysynchronous on vent
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, scrotal
   edema
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, still unresponsive
   Labs / Radiology
   30 K/uL
   10.8 g/dL
   220 mg/dL
   2.3 mg/dL
   20 mEq/L
   5.5 mEq/L
   137 mg/dL
   98 mEq/L
   137 mEq/L
   32.0 %
   38.0 K/uL
        [image002.jpg]
                             [**2139-1-25**]  02:47 PM
                             [**2139-1-25**]  05:44 PM
                             [**2139-1-25**]  05:50 PM
                             [**2139-1-25**]  08:30 PM
                             [**2139-1-25**]  08:41 PM
                             [**2139-1-25**]  10:00 PM
                             [**2139-1-25**]  10:13 PM
                             [**2139-1-26**]  01:33 AM
                             [**2139-1-26**]  03:30 AM
                             [**2139-1-26**]  03:51 AM
   WBC
   38.0
   Hct
   34.5
   31.4
   32.0
   Plt
   30
   Cr
   2.6
   2.6
   2.3
   TropT
   1.41
   1.14
   1.18
   TCO2
   20
   21
   21
   23
   Glucose
   296
   263
   220
   Other labs: PT / PTT / INR:19.2/41.7/1.8, CK / CKMB /
   Troponin-T:1420/16/1.18, ALT / AST:92/58, Alk Phos / T Bili:82/0.9,
   Differential-Neuts:96.0 %, Lymph:1.8 %, Mono:2.1 %, Eos:0.1 %,
   Fibrinogen:370 mg/dL, Lactic Acid:3.9 mmol/L, Albumin:3.0 g/dL, LDH:630
   IU/L, Ca++:9.9 mg/dL, Mg++:2.3 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
   83M with systolic heart failure, presenting from OSH with acute
   hypoexmic respiratory failure with evidence of BOOP and acute on CKI.
   Course complicated by hypotension.
 ? Cardiogenic SHOCK  -  Persistently low central venous oxygen
   saturation certainly suggests low cardiac output.   Cardiac enzymes are
   rather confusing, however the fact that the troponins have peaked
   before the CKs, and that the MB fraction is essentially negative likely
   suggests a past cardiac event of uncertain age given ARF, with current
   muscular hypoperfusion in the setting of known PVD.  Given fever,
   infection vs. anemia leading to demand ischemia in past is most likely
   scenario.  See below for fever eval.  Would continue dopamine given
   myocardial ischemia.  Will not start heparin as ischemia likely demand
   and would likely be exacerbated by bleeding.
   - Transfuse to HCT>30
   - Continue Dopamine
   - Trend lactate, Cardiac Enzymes, CVO2
   - ?vigileo to assess stroke volume
   - pan culture, start vanc/zosyn empirically, see below
   .
 ALTERED MENTAL STATUS (NOT DELIRIUM)  Patient has not been
   alert/interactive since transfer.  Currently off sedation, would await
   correction of uremia before undertaking any more invasive diagnostic
   endeavors.
   - will attempt daily awakenings, hold sedation
   .
   GI Bleed
 likely upper given coffee grounds and melena clinically.  GI
   has been consulted but I doubt they would scope him in his current
   condition.  Bright red blood has never been expressed on NG lavage.
   - GI RECS
   - DDAVP to address oozing
   - 2 units platelets
   .
   > ANEMIA/thrombocytopenia
 no evidence of hemolysis.  Pt does have
   progressive thrombocytopenia with uremic platelets.  Bumped
   appropriately to 4 units.  While no evidence of hemolysis on smear or
   labs, patient has thrombocytopenia, fever, altered mental status, and
   renal faillure.  Still unlikely to be TTP.
   -Transfuse for HCT>30, PLT>50 given GI bleeding
   - Ferritin elevated, inconsistent with iron deficiency anemia
   .
   > FEVER
 etiology includes VAP, bacteremia from lines; abdominal
   infection, CNS infection less likely
   - will pan-culture, start zosyn/vanc empirically
   - if PICC line looks like source, will remove, re-site
   - treat fever for transfusion
 RESPIRATORY FAILURE, ACUTE, HYPOXEMIC (NOT ARDS/[**Doctor Last Name 11**]): The patient
   presented from an OSH with with vent setting of 10 PEEP, 40% Fi02. Last
   p02 of 60 on FiO2, PEEP 10.  Increased FiO2 to 50%.  Differential of
   failure includes CHF, ANCA-associated vasculitis e.g. Goodpasture's
   syndrome, VAP, and obstructive lung disease (noted on CT chest from
   OSH).  Patients last PFTs were noted to be consistent with mild to
   moderate restrictive ventilatory defect.  Autoantibodies such as [**Doctor First Name **],
   ANCA were noted to be negative, and are negative on repeat here.  Path
   report c/w BOOP.  Imaging from outside hospital shows clear RML
   hemorrhage post-bronchoscopy.  Systolic heart failure, as evidence by
   TTE, is likely the primary component.
   - will upload CT from [**2138-12-22**]
   - steroids increased to pulse dose
   - f/u BAL results, (-) thus far
   - repeat vasculitis serologies are negative
   - Klebsiella resistant only to amp, will cont cipro today day [**4-15**]
   - attempt to obtain path slide for additional review
   - wean vent
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 evidence of
   worsening ischemia laterally in I, aVL and worsening CK, troponin
   elevation.  Cont ASA, defer anticoagulation given recent pulmonary
   hemorrhage and uremia.  EKG looked closer to baseline.
   -  transfuse goal Hct > 30
   - cont dopamine
   - cont ASA
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)  DDx includes
   prerenal azotemia (poor forward flow, intravascular depletion),
   intrinsic. Although now with signs of fluid overload, BUN of 200.
   Steroid-induced catabolic state combined with GI bleed likely etiology
   of elevated BUN.  Creatinine and urine output worsening in setting of
   hypotension and possible cardiogenic vs. septic shock.  Hyperkalemia
   progressing.
   - Continue CVVH
   .
 DIABETES MELLITUS (DM), TYPE II
 had to restart insulin drip
   .
   ..
   FEN: hold TF/ repletion re: CVVH protocol
   .
   PPX:
   -DVT ppx with pneumoboots, pantoprazole
   -Bowel regimen
   -Pain management
   .
   ACCESS: PIV, right PICC, left a-line
   .
   Full Code
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 453**] [**Last Name (LF) 5628**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12629**]
   .
   DISPOSITION:  [**Hospital Unit Name 1**] pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Arterial Line - [**2139-1-22**] 01:00 AM
   Dialysis Catheter - [**2139-1-25**] 11:45 AM
   Prophylaxis:
   DVT: P. Boots
   Stress ulcer: IV pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   On this day I examined Mr [**Known lastname 12627**] and reviewed the events of the last
   24hr along with his lab and imaging data. I was present for the key
   portions of the services provided and have read Dr [**Last Name (STitle) 11097**]
s note
   above.  I agree with his findings and plan of care.
   As noted in my note from [**1-25**], the pt remains very critically ill with
   multiorgan system failure, including resp failure, renal failure, coma,
   UGI bleeding, hypotension, and cardiac ischemia.  We are continuing
   aggressive medical interventions, including:
   1)       resp failure: continuing mech vent support, now with A/C with
   increased VT to help with air hunger. He
s now been ventilated for
   approx 3 wks. No evidence of new resp infection
   2)       GI bleed: now on IV PPI and has gotten plts and DDAVP. Heparin
   for cardiac status has been avoided, given his bleeding.  GI aware of
   pt but would not EGD unless evidence of ongoing bleeding. In retrospect
   his GI bleeding may have been contributing to rising BUN.
   3)       Hypotension: likely due to cardiac ischemia, poor LVEF, and GI
   bleed in the setting of continuous HD. Actually his dopamine
   requirement is lower today and SBP 120, and perhaps we can wean Dopa
   off.
   4)       Anemia: got 4 units rbc yesterday and will continue to support
   for Hct less than 30.
   5)       Thrombocytopenia: Unclear why plts are so low. Stopped
   ranitidine yesterday. He
s not been on heparin. Will support for plts
   under 50k
   6)       Renal failure: Getting continuous CVVHD and BUN decreasing,
   HCO stable, but so far no improvement in mental status
   7)       Fever, leukocytosis: WBC up to 33k from 24k of past few days.
   Being covered broadly with zosyn and vanc pending culture results
   8)       Unresponsiveness: This is a crucial issue to family.  Dialysis
   ongoing to see if any improvement in mentation as BUN gets below 90 and
   SBP remains over 100. CT just last week showed no cause for current
   obtundation.  If other organ systems improve and mentation doesn
   further neuro assessment may be in order.
   9)       Family communication and pt wishes: I
ve spoken to son [**Name (NI) 453**]
   and daughter [**Name (NI) 4097**] at some length and have explained the gravity of
   Mr [**Known lastname 12627**]
 current multiorgan system failure predicament. I have asked
   them to consider DNR status, given the lack of likely effectiveness of
   CPR in this settting. They will discuss this and get back to team. I
   also told them that this is a very unstable situation and that unless
   several things improve quickly, such as in the next couple of days, I
   didn
t see how Mr [**Known lastname 12627**] could survive all these insults, especially
   given his severe CAD
   75 min spent in the care of this very critically ill patient
   [**First Name8 (NamePattern2) 1620**] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2139-1-26**] 14:40 ------

2139-01-27 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - continued coffee grounds from OGT but Hct relatively
   stable (GI aware but not formally consulted)
   - got 2 U FFP and ddAVP
   - Vigeleo used, indicated normal SV and CO, however presumably poor EF
   make [**Location (un) **] less accurate
   - cont CVVHD
   - made DNR
   - overnight got another 2 U RRBC and 1 U PLT
   - blood cx 1 bottle from [**1-10**] sets on [**1-25**] growing GMC clusters
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-1-25**] 11:53 PM
   Vancomycin - [**2139-1-26**] 12:48 PM
   Piperacillin - [**2139-1-26**] 05:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-1-27**] 06:08 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Dextrose 50% - [**2139-1-26**] 05:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-27**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.9
   HR: 83 (76 - 101) bpm
   BP: 154/59(87) {121/43(64) - 163/69(92)} mmHg
   RR: 27 (24 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109.7 kg (admission): 105.5 kg
    CO/CI (CCO): (7.5 L/min) / ()
   Mixed Venous O2% Sat: 51 - 51
   Total In:
                                                                  8,521 mL
                                                                  2,376 mL
   PO:
   TF:
   IVF:
                                                                  7,705 mL
                                                                  1,822 mL
   Blood products:
                                                                    736 mL
                                                                    554 mL
   Total out:
                                                                  8,705 mL
                                                                  3,408 mL
   Urine:
                                                                    525 mL
                                                                    250 mL
   NG:
                                                                    670 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -184 mL
                                                                 -1,032 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (450 - 600) mL
   Vt (Spontaneous): 680 (680 - 680) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.55/29/132/24/4
   Ve: 15.3 L/min
   PaO2 / FiO2: 264
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), PMI displaced, no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Doplerable), (Left DP pulse: Dopplerable)
   Respiratory / Chest: (Expansion: Paradoxical), (Breath Sounds:
   Bronchial: anteriorly), dysynchronous on vent
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, scrotal
   edema
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: intubated, not sedated, still unresponsive to sternal rub
   Labs / Radiology
   55 K/uL
   10.4 g/dL
   245 mg/dL
   1.6 mg/dL
   24 mEq/L
   4.1 mEq/L
   86 mg/dL
   99 mEq/L
   138 mEq/L
   29.6 %
   17.6 K/uL
        [image002.jpg]
                             [**2139-1-26**]  02:55 PM
                             [**2139-1-26**]  04:24 PM
                             [**2139-1-26**]  04:43 PM
                             [**2139-1-26**]  07:13 PM
                             [**2139-1-26**]  07:50 PM
                             [**2139-1-27**]  12:49 AM
                             [**2139-1-27**]  01:15 AM
                             [**2139-1-27**]  02:32 AM
                             [**2139-1-27**]  04:49 AM
                             [**2139-1-27**]  05:20 AM
   WBC
   26.7
   17.6
   Hct
   28.3
   27.4
   28.7
   29.6
   Plt
   77
   58
   47
   77
   55
   Cr
   2.0
   1.6
   TropT
   0.89
   0.76
   TCO2
   26
   26
   25
   26
   Glucose
   142
   205
   242
   245
   Other labs: PT / PTT / INR:15.8/40.7/1.4, CK / CKMB /
   Troponin-T:1322/14/0.76, ALT / AST:3436/1633, Alk Phos / T Bili:82/3.1,
   Fibrinogen:370 mg/dL, Lactic Acid:2.2 mmol/L, Albumin:2.2 g/dL, LDH:934
   IU/L, Ca++:9.3 mg/dL, Mg++:1.8 mg/dL, PO4:4.6 mg/dL
   MICRO: anaerobic bottle from [**1-25**] (1 of 2 sets) with GMC in clusters
   Assessment and Plan
   83M with systolic heart failure, presenting from OSH with acute
   hypoexmic respiratory failure with evidence of BOOP and acute on CKI,
   altered mental.  Course complicated by hypotension, GI bleeding.
 ALTERED MENTAL STATUS (NOT DELIRIUM)  Patient has not been
   alert/interactive since transfer.  Currently off sedation x several
   days. Ddx includes uremia, infectious (nosocomial meningitis), CVA
   (although CT nl), nonconvulsive status, anoxic brain injury [**2-10**]
   hypoperfusion, or poor sedative clearance in setting of liver
   dysnfunction . BUN now <100 and no change in mental status.
   - cont CVVH, BUN trending down
   - bedside EEG
   - switch zosyn to meropenem to empirically cover nosocomial bacterial
   meningitis
   - cont to maintain MAP>65 for cerebral perfusion
   - will attempt daily awakenings, hold sedation
   .
 ? Cardiogenic SHOCK  -  Persistently low central venous oxygen
   saturation suggests inadequate cardiac output.  Chest imaging suggests
   CHF. Vigeleo readings suggest normal to high SV and CO, which may have
   been due to effects of dopamine or patient may be requiring higher
   cardiac output than can be achieved without demand . LVEF 30-35% on
   TTE, getting repeat today. Pt had recent demand ischemia, in setting of
   fever and anemia, now CE trending down. Thrombosis less likely given pt
   has coagulopathy and several reasons for demand at time of trop leak.
   Heparin contraindicated in setting of GI bleed.
   - Transfuse to HCT>30  in setting of demand ischemia
   - f/u repeat TTE read
   - off Dopamine maintaining good pressures, goal MAP>65
   -  lactate, Cardiac Enzymes trending down
   .
 RESPIRATORY FAILURE, ACUTE, HYPOXEMIC (NOT ARDS/[**Doctor Last Name 11**]): The patient
   presented from an OSH with with vent setting of 10 PEEP, 40% Fi02.
   Differential of failure includes CHF, ANCA-associated vasculitis e.g.
   Goodpasture's syndrome, VAP, and obstructive lung disease (noted on CT
   chest from OSH).  Patients last PFTs were noted to be consistent with
   mild to moderate restrictive ventilatory defect.  Autoantibodies such
   as [**Doctor First Name **], ANCA were noted to be negative, and are negative on repeat
   here.  Path report c/w BOOP.  Imaging from outside hospital shows clear
   RML hemorrhage post-bronchoscopy.  Current process is multifactorial:
   pulmonary hematoma, CHF, VAP and underlying COPD with ground glass
   opacities of unknown etiology.
   - pt has air hunger and mild dysynchrony, became alkalotic when VT
   increased, but holding off sedation for mental status
   - cont pulse dose steroids since BP decreased with weaning, reassess if
   BPs stable off pressors x 24 hours
   - f/u BAL results (-)
   - Klebsiella resistant only to amp, will cont cipro today day [**5-15**]
   .
   GI Bleed
 likely upper given coffee grounds, now becoming more brisk
   with hematochezia replacing melena.  GI did not see him since they
   would not offer endoscopy. Hct bumped only 1 pt after 1 U PRBCs.
   - GI consult
   - cont PPI ggt
   - repeat DDAVP
   - transfuse plts for goal >50, blood for Hct>30
   .
   > ANEMIA/thrombocytopenia
 no evidence of hemolysis, retic count low.
   Pt does have progressive thrombocytopenia with uremic platelets, and
   appears to have consumptive process since losing transfused plts
   rapidly. PT and PTT prolonged. Fibrinogen nl but is acute phase
   reactant. [**Month (only) 51**] have low level DIC.
   - monitor q8 DIC labs and CBC and replete FFP/cryo if needed
   .
   > BACTEREMIA:
 blood cx from [**1-25**] (off A-line) growing gram positive
   cocci in clusters, concerning for line source. Afebrile, WBC trending
   down today and hemodynamically stable. Will monitor with current lines
   in place given suspicion for contamination rather than infection.
   - f/u cx speciation and senses
   - D/C PICC and A-line if coag + staph
   - cont vanco and check trough
   - surveillance blood cx
   .
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 evidence of
   worsening ischemia laterally in I, aVL and worsening CK, troponin
   elevation.  Cont ASA, defer anticoagulation given recent pulmonary
   hemorrhage and uremia.  EKG looked closer to baseline. Pt not on statin
   at baseline and not candidate for initiation given shock liver. Not
   anticoagulated, holding ASA, due to GI bleed.
   - weaned off dopamine yesterday
   -  transfuse goal Hct > 30
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)  DDx includes
   prerenal azotemia (poor forward flow, intravascular depletion),
   intrinsic. Although now with signs of fluid overload, BUN of 200.
   Steroid-induced catabolic state combined with GI bleed likely etiology
   of elevated BUN.  Creatinine and urine output worsening in setting of
   hypotension and possible cardiogenic vs. septic shock.  Hyperkalemia
   persistant on CVVH, likely due to cell destruction and muscle ischemia
   given high CKs. Started on CVVH.
   - Continue CVVH with aggressive diuresis as tolerated by BPS
   - appreciate renal recs
   .
   #. ISCHEMIC HEPATITIS: Pt has LFTs c/w ischemic injury, transaminases
   now trending down and bili peaking.
   - check direct and indirect bili
   - monitor daily
   - hold any hepatotoxic or hepatically cleared meds
   .
 DIABETES MELLITUS (DM), TYPE II
 cont insulin drip
   .
   # GOALS OF CARE: Fam mtg yesterday. Fam aware of poor prognosis given
   multiorgan failure. Hope is that mental status improves with CVVH,
   otherwise it will be clear that patient will not return to his baseline
   and they would favor withdrawing care. Will give CVVH another day or
   so.
   ..
   FEN: hold TF/ repletion re: CVVH protocol
   .
   PPX:
   -DVT ppx with pneumoboots, pantoprazole
   -Bowel regimen
   -Pain management
   .
   ACCESS: PIV, right PICC, left a-line
   .
   DNR
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 453**] [**Last Name (LF) 5628**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12629**]
   .
   DISPOSITION:  [**Hospital Unit Name 1**] pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Arterial Line - [**2139-1-22**] 01:00 AM
   Dialysis Catheter - [**2139-1-25**] 11:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2139-01-27 09:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Vasopressor weaned overnight.
   Tolerating hemodialysis (CVVH).
   Demonstrating 'coffee-ground' NGT aspirate, melanotic stool, now with
   hematochezia.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, mechanically
   ventilated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-1-25**] 11:53 PM
   Piperacillin - [**2139-1-26**] 05:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-1-27**] 06:08 AM
   Vancomycin - [**2139-1-27**] 07:25 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Dextrose 50% - [**2139-1-26**] 05:06 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-1-27**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 84 (76 - 101) bpm
   BP: 160/42(74) {121/42(64) - 163/63(90)} mmHg
   RR: 31 (24 - 35) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 109.7 kg (admission): 105.5 kg
   CO/CI (CCO): (7.5 L/min) / ()
   Mixed Venous O2% Sat: 51 - 51
   Total In:
                                                                  8,521 mL
                                                                  3,511 mL
   PO:
   TF:
   IVF:
                                                                  7,705 mL
                                                                  2,957 mL
   Blood products:
                                                                    736 mL
                                                                    554 mL
   Total out:
                                                                  8,705 mL
                                                                  4,221 mL
   Urine:
                                                                    525 mL
                                                                    280 mL
   NG:
                                                                    670 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -184 mL
                                                                   -710 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 600) mL
   Vt (Spontaneous): 680 (680 - 680) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: 7.55/29/132/24/4
   Ve: 16.9 L/min
   PaO2 / FiO2: 264
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic,
   appears chronically ill
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: No(t) Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: No(t) Clear : , Crackles : scattered, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.4 g/dL
   55 K/uL
   245 mg/dL
   1.6 mg/dL
   24 mEq/L
   4.1 mEq/L
   86 mg/dL
   99 mEq/L
   138 mEq/L
   29.6 %
   17.6 K/uL
        [image002.jpg]
                             [**2139-1-26**]  02:55 PM
                             [**2139-1-26**]  04:24 PM
                             [**2139-1-26**]  04:43 PM
                             [**2139-1-26**]  07:13 PM
                             [**2139-1-26**]  07:50 PM
                             [**2139-1-27**]  12:49 AM
                             [**2139-1-27**]  01:15 AM
                             [**2139-1-27**]  02:32 AM
                             [**2139-1-27**]  04:49 AM
                             [**2139-1-27**]  05:20 AM
   WBC
   26.7
   17.6
   Hct
   28.3
   27.4
   28.7
   29.6
   Plt
   77
   58
   47
   77
   55
   Cr
   2.0
   1.6
   TropT
   0.89
   0.76
   TCO2
   26
   26
   25
   26
   Glucose
   142
   205
   242
   245
   Other labs: PT / PTT / INR:15.8/40.7/1.4, CK / CKMB /
   Troponin-T:1322/14/0.76, ALT / AST:3436/1633, Alk Phos / T Bili:82/3.1,
   Differential-Neuts:96.0 %, Lymph:1.8 %, Mono:2.1 %, Eos:0.1 %,
   Fibrinogen:370 mg/dL, Lactic Acid:2.2 mmol/L, Albumin:2.2 g/dL, LDH:934
   IU/L, Ca++:9.3 mg/dL, Mg++:1.8 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   83 yom initially respiratory distress/diffuse infilutrates, now with
   multisystem organ failure (respiratory failure, renal failure,
   persistent coma, hypotension, cardiac ischemia, and now GI bleed).  We
   are continuing aggressive medical interventions, including:
   RESPRIATORY FAILURE -- limited progress.  Unclear etiology for
   infiltrates (diffuse, scattered, bilateral).  Development of renal
   failure suggest pulmonary-renal syndrome (anti-GBM syndrome, Wegener's,
   HUS).  Now multifactorial (including diffuse pulmonary disease, CAD,
   CHF, underlying COPD).  Continue steroids, antimicrobials, and
   mechanical ventilation.  Need to consider tracheostomy if no contined
   progress, but family considering long-term options (may not desire
   tracheotomy).
   BACTEREMIA -- GPC in blood culture, likley line-related (PICC, a-line,
   dialysis catheter).  [**Month (only) 51**] need to d/c intravascular catheters.  Plan
   continue antimicrobials (Vanco, Zosyn).
   FEVER -- now attributed in part to bacteremia.  Monitor fever.
   HYPOTENSION -- attributed in part to sepsis, and in part to acute blood
   loss, perhaps component of adrenal insufficiency.  Currently improved.
   CAD -- now evidence for myocardial damage --> possible demand
   ischemia.  Monitor serial cardiac meds.  Plan check cardiac echo.
   MELENA/HEMATOCHEZIA -- unclear source, but concerns include UGI source
   (PUD, gastritis) in context of thrombocytopenia (uremic plts).
   Maintain venous access, serial Hct, transfuse, GI consultation.
   Transfuse plts, correct coagulopathy, dDAVP.
   RENAL FAILURE -- attributed to ATN.  Continue CVVH.
   ANEMIA -- multifctorial.  Now evidence for blood loss.  Monitor serial
   Hct, transfuse if Hct < .
   HYPERGLYCEMIA
 insulin infusion, monitor glucose, maintain glucose
   <150.
   THROMBOCYTOPENIA -- attributed to mediations in part.  [**Month (only) 51**] be evolving
   DIC.  Monitor.
   COMA -- persistent.  Attributed in part to possible anoxic brain
   injury, uremia and medications.  Evaluation unrevealing to date (head
   CT).  Check EEG, consider head MRI and LP.
   DISPOSITION -- DNR currently.  Maintain discussions with family.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Arterial Line - [**2139-1-22**] 01:00 AM
   Dialysis Catheter - [**2139-1-25**] 11:45 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:  Family meeting with daughter (HCP).  Updated
   medical condition and answered all questions.  Confirmed DNR.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2139-01-28 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - initial EEG read showed no seizure activity
   - noon Hct 28 -> 4 p.m. Hct 23  --->  2 units PRBCs, one bag plts,
   redosed DDAVP
   - CVVH goal even to slightly positive given persistent GI bleed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-1-25**] 11:53 PM
   Piperacillin - [**2139-1-26**] 05:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-1-27**] 06:08 AM
   Vancomycin - [**2139-1-27**] 07:25 AM
   Meropenem - [**2139-1-28**] 12:30 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Pantoprazole (Protonix) - 8 mg/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Dextrose 50% - [**2139-1-27**] 05:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-28**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (97
   HR: 81 (77 - 90) bpm
   BP: 137/54(79) {109/36(56) - 160/58(87)} mmHg
   RR: 22 (21 - 31) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 106.9 kg (admission): 105.5 kg
           Total In:
                                                                  7,994 mL
                                                                  2,819 mL
   PO:
           TF:
   IVF:
                                                                  6,924 mL
                                                                  2,529 mL
   Blood products:
                                                                  1,045 mL
                                                                    290 mL
   Total out:
                                                                  9,408 mL
                                                                  2,991 mL
   Urine:
                                                                    675 mL
                                                                    170 mL
   NG:
                                                                    200 mL
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,414 mL
                                                                   -172 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 14 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.55/36/91/28/8
   Ve: 13 L/min
   PaO2 / FiO2: 182
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), PMI displaced, no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Doplerable), (Left DP pulse: Dopplerable)
   Respiratory / Chest: (Expansion: Paradoxical), (Breath Sounds:
   Bronchial: anteriorly), dysynchronous on vent
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, scrotal
   edema
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: intubated, not sedated, responds to his name being called
   by trying to open his eyes, deviates eyes to command, deviates head to
   the left to command. No grasp, no extremities, extremely flacid on exam
   Labs / Radiology
   48 K/uL
   10.0 g/dL
   73 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.2 mEq/L
   54 mg/dL
   102 mEq/L
   141 mEq/L
   28.6 %
   11.6 K/uL
        [image002.jpg]
                             [**2139-1-27**]  03:45 PM
                             [**2139-1-27**]  04:29 PM
                             [**2139-1-27**]  05:02 PM
                             [**2139-1-27**]  06:00 PM
                             [**2139-1-27**]  10:38 PM
                             [**2139-1-27**]  11:01 PM
                             [**2139-1-28**]  12:24 AM
                             [**2139-1-28**]  02:35 AM
                             [**2139-1-28**]  05:54 AM
                             [**2139-1-28**]  06:06 AM
   WBC
   13.5
   11.6
   Hct
   23.3
   25.4
   27.9
   28.6
   Plt
   40
   41
   67
   48
   Cr
   1.4
   1.2
   TCO2
   31
   30
   26
   32
   Glucose
   169
   216
   220
   73
   Other labs: PT / PTT / INR:13.5/31.6/1.2, CK / CKMB /
   Troponin-T:829/14/0.71, ALT / AST:2108/794, Alk Phos / T Bili:80/1.9,
   Differential-Neuts:96.0 %, Lymph:1.8 %, Mono:2.1 %, Eos:0.1 %,
   Fibrinogen:414 mg/dL, Lactic Acid:2.2 mmol/L, Albumin:2.2 g/dL, LDH:934
   IU/L, Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   83M with systolic heart failure, presenting from OSH with acute
   hypoexmic respiratory failure with evidence of BOOP and acute on CKI,
   altered mental.  Course complicated by hypotension, GI bleeding.
   .
 ALTERED MENTAL STATUS (NOT DELIRIUM)  Patient seemed to open his eyes
   to his name yesterday which is a significant change.  We will continue
   off sedation x several days.  Poor hepatic clearance of sedatives vs
   delirium vs uremia are highest on the differential.
   - cont CVVH, BUN trending down
   - must repeat EEG as last one was on a damaged machine
   - Continue meropenem
   - cont to maintain MAP>65 for cerebral perfusion
   .
   GI Bleed
 likely upper given coffee grounds, continues to have blood
   streaked melena.  GI did not see him since they would not offer
   endoscopy. Transfuse to 30, ddavp, pplts.
   - Formal GI consult
   .
 ? Cardiogenic SHOCK  -  At this point at least the shock aspect
   appears resolved.  Persistently low central venous oxygen saturation
   suggests inadequate cardiac output.  Chest imaging suggests CHF.
   Vigeleo readings suggest normal to high SV and CO, which may have been
   due to effects of dopamine or patient may be requiring higher cardiac
   output than can be achieved without demand . LVEF 30-35% on TTE,
   getting repeat today. Pt had recent demand ischemia, in setting of
   fever and anemia, now CE trending down. Thrombosis less likely given pt
   has coagulopathy and several reasons for demand at time of trop leak.
   Heparin contraindicated in setting of GI bleed.
   - Transfuse to HCT>30  in setting of demand ischemia
   - TTE shows biV dysfunction, no changes, no effusion
   - off Dopamine maintaining good pressures, goal MAP>65
   -  lactate, Cardiac Enzymes trending down
   .
 RESPIRATORY FAILURE, ACUTE, HYPOXEMIC (NOT ARDS/[**Doctor Last Name 11**]): The patient
   presented from an OSH with with vent setting of 10 PEEP, 40% Fi02.
   Differential of failure includes CHF, ANCA-associated vasculitis e.g.
   Goodpasture's syndrome, VAP, and obstructive lung disease (noted on CT
   chest from OSH).  Patients last PFTs were noted to be consistent with
   mild to moderate restrictive ventilatory defect.  Autoantibodies such
   as [**Doctor First Name **], ANCA were noted to be negative, and are negative on repeat
   here.  Path report c/w BOOP.  Imaging from outside hospital shows clear
   RML hemorrhage post-bronchoscopy.  Current process is multifactorial:
   pulmonary hematoma, CHF, VAP and underlying COPD with ground glass
   opacities of unknown etiology.
   - pt has air hunger and mild dysynchrony, became alkalotic when VT
   increased, but holding off sedation for mental status
   - cont pulse dose steroids since BP decreased with weaning, reassess if
   BPs stable off pressors x 24 hours
   - f/u BAL results (-)
   .
   > ANEMIA/thrombocytopenia
 no evidence of hemolysis, retic count low.
   Pt does have progressive thrombocytopenia with uremic platelets, and
   appears to have consumptive process since losing transfused plts
   rapidly. PT and PTT prolonged. Fibrinogen nl but is acute phase
   reactant. [**Month (only) 51**] have low level DIC.
   - monitor q8 DIC labs and CBC and replete FFP/cryo if needed
   .
   > BACTEREMIA:
 blood cx from [**1-25**] (off A-line) growing gram positive
   cocci in clusters, concerning for line source. Afebrile, WBC trending
   down today and hemodynamically stable. Will monitor with current lines
   in place given suspicion for contamination rather than infection.
   - f/u cx speciation and senses
   - D/C A-line today
   - cont vanco and check trough
   - surveillance blood cx
   .
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 evidence of
   worsening ischemia laterally in I, aVL and worsening CK, troponin
   elevation.  Cont ASA, defer anticoagulation given recent pulmonary
   hemorrhage and uremia.  EKG looked closer to baseline. Pt not on statin
   at baseline and not candidate for initiation given shock liver. Not
   anticoagulated, holding ASA, due to GI bleed.
   -  weaned off dopamine yesterday
   -  transfuse goal Hct > 30
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)  DDx includes
   prerenal azotemia (poor forward flow, intravascular depletion),
   intrinsic. Although now with signs of fluid overload, BUN of 200.
   Steroid-induced catabolic state combined with GI bleed likely etiology
   of elevated BUN.  Creatinine and urine output worsening in setting of
   hypotension and possible cardiogenic vs. septic shock.  Hyperkalemia
   persistant on CVVH, likely due to cell destruction and muscle ischemia
   given high CKs. Started on CVVH.
   - Continue CVVH with aggressive diuresis as tolerated by BPS
   - appreciate renal recs
   .
   #. ISCHEMIC HEPATITIS: Pt has LFTs c/w ischemic injury, transaminases
   now trending down and bili peaking.
   - check direct and indirect bili
   - monitor daily
   - hold any hepatotoxic or hepatically cleared meds
   .
 DIABETES MELLITUS (DM), TYPE II
 cont insulin drip
   .
   # GOALS OF CARE: Fam mtg yesterday. Fam aware of poor prognosis given
   multiorgan failure. Hope is that mental status improves with CVVH,
   otherwise it will be clear that patient will not return to his baseline
   and they would favor withdrawing care. Will give CVVH another day or
   so.
   ..
   FEN: hold TF/ repletion re: CVVH protocol
   .
   PPX:
   -DVT ppx with pneumoboots, pantoprazole
   -Bowel regimen
   -Pain management
   .
   ACCESS: PIV, right PICC, left a-line
   .
   DNR
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 453**] [**Last Name (LF) 5628**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12629**]
   .
   DISPOSITION:  [**Hospital Unit Name 1**] pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Arterial Line - [**2139-1-22**] 01:00 AM
   Dialysis Catheter - [**2139-1-25**] 11:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2139-01-28 11:00:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Reported to be somewhat more awake, attempting to open eyes to voice.
   Noted to turn head to left in response to command.
   Received 2 units PRBC yesterday (for Hct= 23).
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-1-25**] 11:53 PM
   Piperacillin - [**2139-1-26**] 05:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-1-27**] 06:08 AM
   Meropenem - [**2139-1-28**] 12:30 AM
   Vancomycin - [**2139-1-28**] 08:11 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Dextrose 50% - [**2139-1-27**] 05:40 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence, Coma
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-1-28**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.4
C (95.8
   HR: 79 (77 - 90) bpm
   BP: 127/51(75) {109/36(56) - 154/58(87)} mmHg
   RR: 20 (18 - 29) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 106.9 kg (admission): 105.5 kg
           Total In:
                                                                  7,994 mL
                                                                  4,392 mL
   PO:
           TF:
   IVF:
                                                                  6,925 mL
                                                                  3,989 mL
   Blood products:
                                                                  1,045 mL
                                                                    403 mL
   Total out:
                                                                  9,408 mL
                                                                  3,931 mL
   Urine:
                                                                    675 mL
                                                                    250 mL
   NG:
                                                                    200 mL
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,414 mL
                                                                    461 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   Plateau: 10 cmH2O
   Compliance: 64.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.55/36/91/28/8
   Ve: 11.3 L/min
   PaO2 / FiO2: 182
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Decreased, Flaccid diffusely; no
   consistent response to voice or tactile stimuli
   Labs / Radiology
   10.0 g/dL
   48 K/uL
   73 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.2 mEq/L
   54 mg/dL
   102 mEq/L
   141 mEq/L
   28.6 %
   11.6 K/uL
        [image002.jpg]
                             [**2139-1-27**]  03:45 PM
                             [**2139-1-27**]  04:29 PM
                             [**2139-1-27**]  05:02 PM
                             [**2139-1-27**]  06:00 PM
                             [**2139-1-27**]  10:38 PM
                             [**2139-1-27**]  11:01 PM
                             [**2139-1-28**]  12:24 AM
                             [**2139-1-28**]  02:35 AM
                             [**2139-1-28**]  05:54 AM
                             [**2139-1-28**]  06:06 AM
   WBC
   13.5
   11.6
   Hct
   23.3
   25.4
   27.9
   28.6
   Plt
   40
   41
   67
   48
   Cr
   1.4
   1.2
   TropT
   0.48
   TCO2
   31
   30
   26
   32
   Glucose
   169
   216
   220
   73
   Other labs: PT / PTT / INR:13.5/31.6/1.2, CK / CKMB /
   Troponin-T:829/11/0.48, ALT / AST:2108/794, Alk Phos / T Bili:80/1.9,
   Differential-Neuts:96.0 %, Lymph:1.8 %, Mono:2.1 %, Eos:0.1 %,
   Fibrinogen:414 mg/dL, Lactic Acid:2.2 mmol/L, Albumin:2.2 g/dL, LDH:934
   IU/L, Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   83 yom initially respiratory distress/diffuse infilutrates, now with
   multisystem organ failure (respiratory failure, renal failure,
   persistent coma, hypotension, cardiac ischemia, and now GI bleed).  We
   are continuing aggressive medical interventions, including:
   RESPIRATORY FAILURE -- limited progress.  Unclear etiology for
   infiltrates (diffuse, scattered, bilateral).  Development of renal
   failure suggest pulmonary-renal syndrome (anti-GBM syndrome, Wegener's,
   HUS).  Now multifactorial (including diffuse pulmonary disease, CAD,
   CHF, underlying COPD).  Continue steroids --> taper, continue
   antimicrobials, and mechanical ventilation.  Need to consider
   tracheostomy if no contined progress, but family considering long-term
   options (may not desire tracheotomy).
   COMA -- persistent.  Attributed in part to possible anoxic brain
   injury, uremia and medications.  Evaluation unrevealing to date (head
   CT).  Await EEG [**Location (un) **], consider head MRI (and possible LP).
   BACTEREMIA -- GPC in blood culture, likley line-related (PICC, a-line,
   dialysis catheter).  [**Month (only) 51**] need to d/c intravascular catheters.  Plan
   continue antimicrobials (Vanco, Zosyn).  Await final identification.
   FEVER -- now attributed in part to bacteremia.  Monitor temperature.
   HYPOTENSION -- attributed in part to sepsis, and in part to acute blood
   loss, perhaps component of adrenal insufficiency.  Currently improved.
   CAD -- now evidence for myocardial damage --> possible demand
   ischemia.  Monitor serial cardiac meds.  Plan check cardiac echo.
   MELENA/HEMATOCHEZIA -- unclear source, but concerns include UGI source
   (PUD, gastritis) in context of thrombocytopenia (uremic plts).
   Maintain venous access, serial Hct, transfuse, GI consultation.
   Transfuse plts, correct coagulopathy, dDAVP.
   RENAL FAILURE -- attributed to ATN.  Continue CVVH.
   ANEMIA -- multifactorial.  Now evidence for blood loss, GI source.
   Monitor serial Hct, transfuse if Hct < 25 .
   HYPERGLYCEMIA
 insulin infusion, monitor glucose, maintain glucose
   <150.
   THROMBOCYTOPENIA -- attributed to mediations in part.  [**Month (only) 51**] be evolving
   DIC.  Monitor.
   LFT ABNORMALITIES -- consistent with shock liver.  Resolving.
   DISPOSITION -- DNR currently.  Maintain discussions with family.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Arterial Line - [**2139-1-22**] 01:00 AM
   Dialysis Catheter - [**2139-1-25**] 11:45 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2139-01-29 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: -spoke to epilepsy fellow, EEG equipment was
   non-functional, repeat ordered
   -D/C'd A-line
   -Got 2 units for falling HCT, gave ddavp
   -went for MRI
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2139-1-28**] 08:52 PM
   Head
 ARTERIAL LINE - STOP [**2139-1-29**] 02:25 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2139-1-26**] 05:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-1-27**] 06:08 AM
   Vancomycin - [**2139-1-28**] 08:11 AM
   Meropenem - [**2139-1-29**] 12:32 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-29**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.7
C (96.3
   HR: 81 (74 - 82) bpm
   BP: 123/66(80) {111/59(71) - 128/69(82)} mmHg
   RR: 20 (17 - 29) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 104 kg (admission): 105.5 kg
           Total In:
                                                                  7,562 mL
                                                                  1,990 mL
   PO:
           TF:
   IVF:
                                                                  6,499 mL
                                                                  1,725 mL
   Blood products:
                                                                  1,063 mL
                                                                    265 mL
   Total out:
                                                                  6,983 mL
                                                                  1,985 mL
   Urine:
                                                                    640 mL
                                                                    220 mL
   NG:
                                                                    120 mL
                                                                    300 mL
   Stool:
   200 mL
   Drains:
   Balance:
                                                                    579 mL
                                                                      5 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   Vt (Spontaneous): 454 (454 - 454) mL
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 100
   PIP: 15 cmH2O
   Plateau: 19 cmH2O
   Compliance: 53 cmH2O/mL
   SpO2: 100%
   ABG: 7.55/35/71/31/7
   Ve: 11.9 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), PMI displaced, no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Doplerable), (Left DP pulse: Dopplerable)
   Respiratory / Chest: (Expansion: Paradoxical), (Breath Sounds:
   Bronchial: anteriorly), dysynchronous on vent
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, scrotal
   edema
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: intubated, not sedated, responds to his name being called
   by trying to open his eyes, deviates eyes to command, deviates head to
   the left to command. No grasp, no extremities, extremely flacid on exam
   Labs / Radiology
   48 K/uL
   11.8 g/dL
   83 mg/dL
   1.0 mg/dL
   31 mEq/L
   3.8 mEq/L
   43 mg/dL
   101 mEq/L
   141 mEq/L
   33.7 %
   7.9 K/uL
        [image002.jpg]
                             [**2139-1-28**]  02:35 AM
                             [**2139-1-28**]  05:54 AM
                             [**2139-1-28**]  06:06 AM
                             [**2139-1-28**]  12:00 PM
                             [**2139-1-28**]  12:19 PM
                             [**2139-1-28**]  04:16 PM
                             [**2139-1-28**]  04:39 PM
                             [**2139-1-28**]  11:40 PM
                             [**2139-1-28**]  11:50 PM
                             [**2139-1-29**]  04:12 AM
   WBC
   11.6
   10.3
   8.9
   7.9
   Hct
   27.9
   28.6
   29.0
   27.4
   33.7
   Plt
   67
   48
   37
   74
   48
   Cr
   1.2
   1.1
   1.0
   1.1
   1.0
   TropT
   0.48
   TCO2
   32
   31
   33
   32
   Glucose
   73
   147
   168
   90
   83
   Other labs: PT / PTT / INR:12.5/26.2/1.1, CK / CKMB /
   Troponin-T:829/11/0.48, ALT / AST:1827/690, Alk Phos / T Bili:103/2.3,
   Differential-Neuts:96.0 %, Lymph:1.8 %, Mono:2.1 %, Eos:0.1 %,
   Fibrinogen:414 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.2 g/dL, LDH:663
   IU/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   83M with systolic heart failure, presenting from OSH with acute
   hypoexmic respiratory failure with evidence of BOOP and acute on CKI,
   altered mental.  Course complicated by hypotension, GI bleeding.
   .
 ALTERED MENTAL STATUS (NOT DELIRIUM)  Improving very gradually.  We
   will continue off sedation x several days.  Poor hepatic clearance of
   sedatives vs delirium vs uremia are highest on the differential.
   - cont CVVH likely [**1-10**] more days until BUN in 20
s and reassess
   - f/u repeat EEG
   - f/u MRI read
   - Continue meropenem for small possibility of nosocomial bacterial
   meningitis
   - cont to maintain MAP>65 for cerebral perfusion
   .
 RESPIRATORY FAILURE, ACUTE, HYPOXEMIC (NOT ARDS/[**Doctor Last Name 11**]): The patient
   presented from an OSH with with vent setting of 10 PEEP, 40% Fi02.
   Differential of failure includes CHF, ANCA-associated vasculitis e.g.
   Goodpasture's syndrome, VAP, and obstructive lung disease (noted on CT
   chest from OSH).  Patients last PFTs were noted to be consistent with
   mild to moderate restrictive ventilatory defect.  Autoantibodies such
   as [**Doctor First Name **], ANCA were noted to be negative, and are negative on repeat
   here.  Path report c/w BOOP.  Imaging from outside hospital shows clear
   RML hemorrhage post-bronchoscopy.  Current process is multifactorial:
   pulmonary hematoma, CHF, VAP and underlying COPD with ground glass
   opacities of unknown etiology.
   - pt has air hunger and mild dysynchrony, became alkalotic when VT
   increased, but holding off sedation for mental status
   - cont pulse dose steroids since BP decreased with weaning, reassess if
   BPs stable off pressors x 24 hours
   - f/u BAL results (-)
   .
   GI Bleed
 likely upper given coffee grounds, continues to have blood
   streaked melena though possibly slowing today.  GI did not see him
   since they would not offer endoscopy.
   - cont to transfuse for goal Hct 30, plt 50, ddAVP daily if persistent
   bleeding
   #. Thrombocytopenia
progressive thrombocytopenia with uremic
   platelets, and appears to have consumptive process since losing
   transfused plts rapidly. PT and PTT now normalized. Fibrinogen nl.
   - transfuse to goal 50
   - send HIT and serotonin assay
   - consider holding nonessential meds
   .
 HYPOTENSION- resolved.  Initially, low central venous oxygen
   saturation suggested inadequate cardiac output.  Vigeleo readings
   suggested normal to high SV and CO, thus pt likely requiring higher
   cardiac output than can be achieved without demand . LVEF 30-35% on
   TTE. Pt had recent demand ischemia, in setting of fever and GI bleed
   with anemia, now CE trending down.
   - Transfuse to HCT>30  in setting of demand ischemia
   - TTE shows biV dysfunction, no changes, no effusion
   - off Dopamine maintaining good pressures, goal MAP>65
   > BACTEREMIA:
 blood cx from [**1-25**] (off A-line) growing CoNS. A-line
   D/Ced. Off vanco.
   - surveillance blood cx
   .
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 evidence of
   worsening ischemia laterally in I, aVL and worsening CK, troponin
   elevation. Likely demand. Pt not on statin at baseline and not
   candidate for initiation given shock liver. Not anticoagulated, holding
   ASA, due to GI bleed.
   -  transfuse goal Hct > 30
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)  DDx includes
   prerenal azotemia (poor forward flow, intravascular depletion),
   intrinsic. BUN elevated [**2-10**] GI bleed as well. On CVVH. Hyperkalemia
   persistant on CVVH, likely due to cell destruction and muscle ischemia
   given high CKs.
   - Continue CVVH with aggressive diuresis as tolerated by BPS
   - appreciate renal recs
   .
   #. ISCHEMIC HEPATITIS: Pt has LFTs c/w ischemic injury, now trending
   down
   - monitor daily
   - hold any hepatotoxic or hepatically cleared meds
   .
 DIABETES MELLITUS (DM), TYPE II
 cont insulin drip
   .
   # GOALS OF CARE: Fam mtg yesterday. Fam aware of poor prognosis given
   multiorgan failure. Hope is that mental status improves with CVVH,
   otherwise it will be clear that patient will not return to his baseline
   and they would favor withdrawing care. Will give CVVH another day or
   so.
   ..
   FEN: hold TF/ repletion re: CVVH protocol
   .
   PPX:
   -DVT ppx with pneumoboots, pantoprazole
   -Bowel regimen
   -Pain management
   .
   ACCESS: PIV, right PICC, left a-line
   .
   DNR
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 453**] [**Last Name (LF) 5628**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12629**]
   .
   DISPOSITION:  [**Hospital Unit Name 1**] pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Dialysis Catheter - [**2139-1-25**] 11:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2139-01-29 10:29:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Overall, appears more awake, attentive to voice (opens eyes, nods head,
   squeezes hand, wiggles toes).
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2139-1-26**] 05:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-1-27**] 06:08 AM
   Vancomycin - [**2139-1-28**] 08:11 AM
   Meropenem - [**2139-1-29**] 12:32 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-1-29**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-1-29**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.9
C (96.7
   HR: 89 (74 - 89) bpm
   BP: 126/73(86) {111/59(71) - 128/73(86)} mmHg
   RR: 22 (17 - 29) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 104 kg (admission): 105.5 kg
           Total In:
                                                                  7,562 mL
                                                                  2,939 mL
   PO:
           TF:
   IVF:
                                                                  6,499 mL
                                                                  2,674 mL
   Blood products:
                                                                  1,063 mL
                                                                    265 mL
   Total out:
                                                                  6,983 mL
                                                                  3,373 mL
   Urine:
                                                                    640 mL
                                                                    290 mL
   NG:
                                                                    120 mL
                                                                    300 mL
   Stool:
   200 mL
   Drains:
   Balance:
                                                                    579 mL
                                                                   -434 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   Vt (Spontaneous): 454 (454 - 454) mL
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 100
   PIP: 15 cmH2O
   Plateau: 19 cmH2O
   Compliance: 53 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/43/30/31/4
   Ve: 11.9 L/min
   PaO2 / FiO2: 60
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Appears
   stated age
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Improved
   Labs / Radiology
   11.8 g/dL
   48 K/uL
   83 mg/dL
   1.0 mg/dL
   31 mEq/L
   3.8 mEq/L
   43 mg/dL
   101 mEq/L
   141 mEq/L
   33.7 %
   7.9 K/uL
        [image002.jpg]
                             [**2139-1-28**]  05:54 AM
                             [**2139-1-28**]  06:06 AM
                             [**2139-1-28**]  12:00 PM
                             [**2139-1-28**]  12:19 PM
                             [**2139-1-28**]  04:16 PM
                             [**2139-1-28**]  04:39 PM
                             [**2139-1-28**]  11:40 PM
                             [**2139-1-28**]  11:50 PM
                             [**2139-1-29**]  04:12 AM
                             [**2139-1-29**]  10:02 AM
   WBC
   11.6
   10.3
   8.9
   7.9
   Hct
   28.6
   29.0
   27.4
   33.7
   Plt
   48
   37
   74
   48
   Cr
   1.2
   1.1
   1.0
   1.1
   1.0
   TropT
   0.48
   TCO2
   32
   31
   33
   32
   32
   Glucose
   73
   147
   168
   90
   83
   Other labs: PT / PTT / INR:12.5/26.2/1.1, CK / CKMB /
   Troponin-T:829/11/0.48, ALT / AST:1827/690, Alk Phos / T Bili:103/2.3,
   Differential-Neuts:96.0 %, Lymph:1.8 %, Mono:2.1 %, Eos:0.1 %,
   Fibrinogen:414 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.2 g/dL, LDH:663
   IU/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   83 yom initially respiratory distress/diffuse infilutrates, now with
   multisystem organ failure (respiratory failure, renal failure,
   persistent coma, hypotension, cardiac ischemia, and now GI bleed).  We
   are continuing aggressive medical interventions, including:
   RESPIRATORY FAILURE -- limited progress.  Unclear etiology for
   infiltrates (diffuse, scattered, bilateral).  Development of renal
   failure suggest pulmonary-renal syndrome (anti-GBM syndrome, Wegener's,
   HUS).  Now multifactorial (including diffuse pulmonary disease, CAD,
   CHF, underlying COPD).  Continue steroids --> taper, continue
   antimicrobials, and mechanical ventilation.  Need to consider
   tracheostomy if no contined progress, but family considering long-term
   options (may not desire tracheotomy).
   COMA -- Demonstrating gradual improvement.  Attributed in part to
   uremia, slow clearance of sedating medications, and possible anoxic
   brain injury (less likely).  Evaluation unrevealing to date (head CT).
   Await EEG [**Location (un) **], consider head MRI (and possible LP).
   BACTEREMIA -- GPC in blood culture, likley line-related (PICC, a-line,
   dialysis catheter).  A-line d/c'd.  Plan continue antimicrobials to
   full course.
   FEVER -- Attributed in part to bacteremia.  Monitor temperature.
   HYPOTENSION --  Currently improved.  Monitor BP, maintain MAP > 60
   mmHg.
   CAD -- now evidence for myocardial damage --> possible demand
   ischemia.  Monitor serial cardiac meds.  Plan check cardiac echo.
   MELENA/HEMATOCHEZIA -- unclear source, but concerns include UGI source
   (PUD, gastritis) in context of thrombocytopenia (uremic plts).
   Maintain venous access, serial Hct, transfuse, GI consultation.
   Transfuse plts, correct coagulopathy, dDAVP.
   RENAL FAILURE -- attributed to ATN.  Continue CVVH --> consider
   holdinig CVVH to evaluate intrinsic renal function.
   ANEMIA -- multifactorial.  Now evidence for blood loss, GI source.
   Monitor serial Hct, transfuse if Hct < 25 .
   HYPERGLYCEMIA
 insulin infusion, monitor glucose, maintain glucose
   <150.
   THROMBOCYTOPENIA -- attributed to mediations in part.  [**Month (only) 51**] be evolving
   DIC.  [**Month (only) 51**] be attributed to active GI bleed (consumption).  Monitor.
   Consider Hematology consultation.
   LFT ABNORMALITIES -- consistent with shock liver.  Resolving.
   DISPOSITION -- DNR currently.  Maintain discussions with family.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Dialysis Catheter - [**2139-1-25**] 11:45 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2139-01-30 07:37:00 Physician Resident Progress Note
Chief Complaint: hypoxic respiratory failure, acute renal failure,
   altered mental status
   24 Hour Events:
   - did well on PSV trial
   - abx course completes on [**2-3**]
   - weaned steroids 60 to 40 mg daily
   - continued on CVVH
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2139-1-28**] 08:11 AM
   Meropenem - [**2139-1-30**] 01:15 AM
   Infusions:
   Insulin - Regular - 1.5 units/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-1-29**] 08:00 PM
   Dextrose 50% - [**2139-1-30**] 02:16 AM
   Other medications:
   Changes to medical and family history:
   denies pain, sedated
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2139-1-30**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.8
C (96.4
   HR: 80 (74 - 91) bpm
   BP: 113/66(78) {112/66(77) - 127/80(87)} mmHg
   RR: 22 (16 - 24) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 104 kg (admission): 105.5 kg
             Total In:
                                                                  7,242 mL
                                                                  2,375 mL
   PO:
             TF:
   IVF:
                                                                  6,902 mL
                                                                  2,350 mL
   Blood products:
                                                                    265 mL
   Total out:
                                                                  8,732 mL
                                                                  2,228 mL
   Urine:
                                                                    427 mL
                                                                    100 mL
   NG:
                                                                    400 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -1,490 mL
                                                                    147 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 611 (611 - 738) mL
   PS : 12 cmH2O
   RR (Set): 0
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   SpO2: 100%
   ABG: 7.46/43/30/26/4
   Ve: 14.3 L/min
   PaO2 / FiO2: 60
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), quiet heart sounds, no
   m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   anteriorly)
   Abdominal: Soft, [**Year (2 digits) **]-tender, quiet bowel sounds; BRB in rectal drain
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   23 K/uL
   11.7 g/dL
   188 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.3 mEq/L
   34 mg/dL
   105 mEq/L
   142 mEq/L
   34.7 %
   5.2 K/uL
        [image002.jpg]
                             [**2139-1-28**]  11:50 PM
                             [**2139-1-29**]  04:12 AM
                             [**2139-1-29**]  09:48 AM
                             [**2139-1-29**]  10:02 AM
                             [**2139-1-29**]  01:17 PM
                             [**2139-1-29**]  04:20 PM
                             [**2139-1-29**]  04:28 PM
                             [**2139-1-29**]  05:34 PM
                             [**2139-1-29**]  09:41 PM
                             [**2139-1-30**]  04:50 AM
   WBC
   7.9
   7.6
   5.9
   5.1
   5.2
   Hct
   33.7
   34.3
   33.6
   33.4
   34.7
   Plt
   48
   39
   36
   27
   23
   Cr
   1.0
   1.0
   1.0
   1.0
   TCO2
   32
   32
   Glucose
   83
   111
   70
   74
   188
   188
   Other labs: PT / PTT / INR:12.7/26.8/1.1, CK / CKMB /
   Troponin-T:829/11/0.48, ALT / AST:1512/458, Alk Phos / T Bili:108/1.9,
   Differential-Neuts:96.0 %, Lymph:1.8 %, Mono:2.1 %, Eos:0.1 %,
   Fibrinogen:340 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.2 g/dL, LDH:607
   IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Imaging: MR [**First Name (Titles) **] [**Last Name (Titles) **]-con:
   1. Area of encephalomalacia involving the right middle cerebral artery
   territory consistent with a chronic infarct. There is no evidence of an
   acute infarct, mass or acute hemorrhage.
   2. Areas of white matter hyperintensity are a nonspecific finding, but
   likely represent the sequela of chronic microangiopathy given the
   patient's age
   [**2139-1-28**] EEG pending
   TTE [**2139-1-27**]:
   IMPRESSION: Mildly dilated right ventricle with moderate biventricular
   systolic dysfunction. Mild aortic regurgitation. At least moderate
   mitral regurgitation. Moderate pulmonary hypertension.
   Compared with the prior study (images reviewed) of [**2139-1-22**], mitral
   regurgitation and RV dimensions/function are better appreciated,
   although these findings do not actually appear substantially
   difference. The rest of the findings are also similar.
   Microbiology: [**2139-1-27**] blood cxs pending
   Assessment and Plan
 BACTEREMIA
 THROMBOCYTOPENIA, ACUTE
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   >  SHOCK LIVER
 HYPERNATREMIA (HIGH SODIUM)
 DIABETES MELLITUS (DM), TYPE II
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Assessment and Plan
   83M with systolic heart failure, presenting from OSH with acute
   hypoexmic respiratory failure with evidence of BOOP and acute on CKI,
   altered mental status.  Course complicated by hypotension, GI bleeding.
   .
   #. Thrombocytopenia
progressive thrombocytopenia with uremic
   platelets, and appears to have consumptive process since losing
   transfused plts rapidly. PT and PTT now normalized. Fibrinogen nl.
   Pantoprazole could be etiology.
   - transfuse to goal 10, 50 if increased bleeding
   - send HIT and serotonin assay
   - consider holding nonessential meds
   - heme consult, appreciate recs -> ? etiology
   .
   >  GI BLEED
 likely upper given coffee grounds, today coffee grounds
   resolved and residual melena with increased bright red blood overnight.
   - apprecaite GI recs -> ? source/tagged red cell scan?  -> ?
   scope/intervention
   - cont [**Hospital1 7**] pantoprazole
   - cont to transfuse for goal Hct 30, plt 10 if not actively bleeding ->
   gave one bag of plts this A.M. for count of 28 and increased bleeding
   .
 ALTERED MENTAL STATUS (NOT DELIRIUM)  Improving very gradually.  We
   will continue off sedation.  Likely [**2-10**] poor hepatic clearance of
   sedatives and uremia causing toxic-metabolic encephalopathy.  Patient
   now answering questions, following commands.  Able to move lower
   extremities, not upper extremities.  MRI shows prior right MCA infarct,
   nothing acute.
   - cont CVVH likely [**1-10**] more days until BUN in 20
   - f/u repeat EEG
   - will D/C meropenem on 1/26f for course of Klebsiella therapy, very
   low suspicion for nosocomial bacterial meningitis
   .
 RESPIRATORY FAILURE, ACUTE, HYPOXEMIC (NOT ARDS/[**Doctor Last Name 11**]): The patient
   presented from an OSH with with vent setting of 10 PEEP, 40% Fi02.
   Differential of failure includes CHF, ANCA-associated vasculitis e.g.
   Goodpasture's syndrome, VAP, and obstructive lung disease (noted on CT
   chest from OSH).  Patients last PFTs were noted to be consistent with
   mild to moderate restrictive ventilatory defect.  Autoantibodies such
   as [**Doctor First Name **], ANCA were noted to be negative, and are negative on repeat
   here.  Path report c/w BOOP.  Imaging from outside hospital shows clear
   RML hemorrhage post-bronchoscopy.  Current process is multifactorial:
   pulmonary hematoma, CHF, VAP and underlying COPD with ground glass
   opacities of unknown etiology.
   - cont PSV trials now that mental status improved
   - follow VBGs and ABGs prn
   - cont to wean steroids, tomorrow methylpred 20 mg IV x 1
   - will need to review OSH CT chest prior to bronch, review path to
   develop differentialy for original presentation of hemopysis -> ? pulm
   edema [**2-10**] heart failure.  Vasculitis, BOOP less likely
   .
 HYPOTENSION- resolved.  Initially, low central venous oxygen
   saturation suggested inadequate cardiac output.  Vigeleo readings
   suggested normal to high SV and CO, thus pt likely requiring higher
   cardiac output than can be achieved without demand . LVEF 30-35% on
   TTE. Pt had recent demand ischemia, in setting of fever and GI bleed
   with anemia, now CE trending down.  Also had complication of shock
   liver.
   - Transfuse to HCT>30  in setting of demand ischemia
   - TTE shows biV dysfunction, no changes, no effusion
   - off Dopamine maintaining good pressures, goal MAP>65
   - cont to trend LFTs, improving
   .
   > WEAKNESS -> likely [**2-10**] steroids, paralysis, prolonged ICU course.
   - consult Neuro -> ? ICU/steroid myopathy and need for EMG
   > BACTEREMIA:
 blood cx from [**1-25**] (off A-line) growing CoNS. A-line
   D/Ced. Off vanco.
   - surveillance blood cx (-) thus far
   .
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 evidence of
   worsening ischemia laterally in I, aVL and worsening CK, troponin
   elevation. Likely demand. Pt not on statin at baseline and not
   candidate for initiation given shock liver. Not anticoagulated, holding
   ASA, due to GI bleed.
   -  transfuse goal Hct > 30
   - will need to restart anti-platelet therapy when GI bleed resolves
   - recheck ECG this morning
   .
   > BIVENTRICULAR SYSTOLIC HEART FAILURE-  Likely [**2-10**] CAD.  Will need to
   optimize regimen with ACEi, possibly B-blockage (if PR prolongation has
   resolved) once renal failure and GI bleed resolve.  Transfusion goal as
   above.  No pressor support currently needed.
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)  DDx includes
   prerenal azotemia (poor forward flow, intravascular depletion),
   intrinsic. BUN elevated [**2-10**] GI bleed as well. On CVVH. Hyperkalemia
   persistant on CVVH, likely due to cell destruction and muscle ischemia
   given high CKs.
   - Continue CVVH with goal TBB -1 to 2L today
   - appreciate renal recs
   .
   #. ISCHEMIC HEPATITIS: Pt has LFTs c/w ischemic injury, now trending
   down
   - monitor daily
   - hold any hepatotoxic or hepatically cleared meds
   .
 DIABETES MELLITUS (DM), TYPE II
 cont insulin drip
   .
   # GOALS OF CARE: Fam mtg yesterday. Fam aware of poor prognosis given
   multiorgan failure. Hope is that mental status improves with CVVH,
   otherwise it will be clear that patient will not return to his baseline
   and they would favor withdrawing care. Will give CVVH another day or
   so.
   ..
   FEN: hold TF, will start TPN/ repletion re: CVVH protocol
   .
   PPX:
   -DVT ppx with pneumoboots, pantoprazole
   -Bowel regimen
   -Pain management
   .
   ACCESS: PIV, right PICC
   .
   CODE STATUS:  DNR
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 453**] [**Last Name (LF) 5628**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12629**]
   .
   DISPOSITION:  [**Hospital Unit Name 1**] pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Dialysis Catheter - [**2139-1-25**] 11:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2139-01-30 11:48:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Neurologically continues to demonstrate gradual improvement,
   particularly mental status -- more attentive.
   Exhibited BRBPR this AM --> received additional plts transfusion.
   Intermittently requiring insulin drip.
   History obtained from Medical records
   Patient unable to provide history: ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2139-1-28**] 08:11 AM
   Meropenem - [**2139-1-30**] 01:15 AM
   Infusions:
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-1-29**] 08:00 PM
   Dextrose 50% - [**2139-1-30**] 02:16 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-1-30**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96
   HR: 86 (74 - 93) bpm
   BP: 124/73(85) {109/63(74) - 146/80(93)} mmHg
   RR: 18 (16 - 24) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 104 kg (admission): 105.5 kg
           Total In:
                                                                  7,242 mL
                                                                  3,725 mL
   PO:
           TF:
   IVF:
                                                                  6,902 mL
                                                                  3,506 mL
   Blood products:
                                                                    265 mL
                                                                    194 mL
   Total out:
                                                                  8,732 mL
                                                                  3,955 mL
   Urine:
                                                                    427 mL
                                                                    147 mL
   NG:
                                                                    400 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -1,490 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 611 (611 - 731) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 14.3 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful of
   eyes, toes., No(t) Sedated, No(t) Paralyzed, Tone: Decreased,
   Generalized diffuse profound weakness
   Labs / Radiology
   11.7 g/dL
   67 K/uL
   157 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.4 mEq/L
   34 mg/dL
   104 mEq/L
   139 mEq/L
   34.7 %
   5.2 K/uL
        [image002.jpg]
                             [**2139-1-29**]  09:48 AM
                             [**2139-1-29**]  10:02 AM
                             [**2139-1-29**]  01:17 PM
                             [**2139-1-29**]  04:20 PM
                             [**2139-1-29**]  04:28 PM
                             [**2139-1-29**]  05:34 PM
                             [**2139-1-29**]  09:41 PM
                             [**2139-1-30**]  04:50 AM
                             [**2139-1-30**]  10:03 AM
                             [**2139-1-30**]  10:04 AM
   WBC
   7.6
   5.9
   5.1
   5.2
   Hct
   34.3
   33.6
   33.4
   34.7
   Plt
   39
   36
   27
   23
   67
   Cr
   1.0
   1.0
   1.0
   TCO2
   32
   Glucose
   111
   70
   74
   188
   188
   157
   Other labs: PT / PTT / INR:12.7/26.8/1.1, CK / CKMB /
   Troponin-T:829/11/0.48, ALT / AST:1512/458, Alk Phos / T Bili:108/1.9,
   Differential-Neuts:96.0 %, Lymph:1.8 %, Mono:2.1 %, Eos:0.1 %,
   Fibrinogen:340 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.2 g/dL, LDH:607
   IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   83 yom initially respiratory distress/diffuse infilutrates, now with
   multisystem organ failure (respiratory failure, renal failure,
   persistent coma, hypotension, cardiac ischemia, and now GI bleed).
   RESPIRATORY FAILURE -- limited progress.  Unclear etiology for
   infiltrates (diffuse, scattered, bilateral).  Now multifactorial
   (including diffuse pulmonary disease, CAD, CHF, underlying COPD).
   Continue steroids --> taper, continue antimicrobials, and mechanical
   ventilation.  Need to consider tracheostomy if no continued progress,
   but family considering long-term options (may not desire tracheotomy).
   COMA -- Resolved.  Attributed in part to uremia, slow clearance of
   sedating medications, and possible anoxic brain injury (less likely).
   GENERALIZED WEAKNESS -- no evidence for central CNS process.  Suspect
   critical care illness (received high dose steroids and paralytics).
   BACTEREMIA -- GPC in blood culture, likley line-related (PICC, a-line,
   dialysis catheter).  A-line d/c'd.  Plan continue antimicrobials to
   full course.  Monitor BC.
   CAD -- recent evidence for myocardial damage --> possible demand
   ischemia.  Monitor serial cardiac enzymes.
   MELENA/HEMATOCHEZIA -- unclear source, but concerns include UGI source
   (PUD, gastritis) in context of thrombocytopenia (uremic plts).
   Maintain venous access, serial Hct, transfuse, GI consultation.
   Transfuse plts, correct coagulopathy, dDAVP.
   RENAL FAILURE -- attributed to ATN.  Continue CVVH --> consider
   holdinig CVVH to evaluate intrinsic renal function.
   ANEMIA -- multifactorial.  Now evidence for blood loss, GI source.
   Monitor serial Hct, transfuse if Hct < 25 .
   HYPERGLYCEMIA
 insulin infusion, monitor glucose, maintain glucose
   <150.
   THROMBOCYTOPENIA -- attributed to mediations in part.  [**Month (only) 51**] be evolving
   DIC.  [**Month (only) 51**] be attributed to active GI bleed (consumption).  Monitor.
   Hematology consultation pending.
   LFT ABNORMALITIES -- consistent with shock liver.  Resolving.
   DISPOSITION -- DNR currently.  Maintain discussions with family.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Dialysis Catheter - [**2139-1-25**] 11:45 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: meeting with son and daughter.  Answered all
   questions and updated medical condition.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2139-01-31 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - continued CVVH today, goal (-) one to two liters
   - slow, likely lower, GI bleed continued, received 2 bags of platelets
   over course of day -> GI confirmed no intervention, no tagged RBC scan
   unless hemodynamic instability or more substantial improvement
   - HIT Ab (+), serotonin Ab screen pending, heme recommended starting
   argatroban, holding [**2-10**] bleed
   - NIF and RSBI this morning
   Heme c/s:
   We suggest:
   1. stopping all heparin products (flushes, etc.)
   2. sending serotonin- release assay to confirm HIT
   3. if current GI bleeding subsides would consider anticoagulation
   with lepirudin with a very low PTT goal (40-60)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2139-1-28**] 08:11 AM
   Meropenem - [**2139-1-31**] 12:22 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-1-30**] 08:20 PM
   Midazolam (Versed) - [**2139-1-31**] 04:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-31**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36
C (96.8
   Tcurrent: 35.7
C (96.3
   HR: 88 (68 - 100) bpm
   BP: 153/70(92) {109/50(67) - 153/84(108)} mmHg
   RR: 22 (16 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95.7 kg (admission): 105.5 kg
             Total In:
                                                                  7,968 mL
                                                                  2,181 mL
   PO:
             TF:
   IVF:
                                                                  7,232 mL
                                                                  1,892 mL
   Blood products:
                                                                    480 mL
   Total out:
                                                                 10,638 mL
                                                                  3,628 mL
   Urine:
                                                                    289 mL
                                                                     65 mL
   NG:
   125 mL
   Stool:
                                                                    125 mL
   Drains:
   Balance:
                                                                 -2,670 mL
                                                                 -1,447 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 710 (611 - 819) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 54
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: ///20/
   NIF: -20 cmH2O
   Ve: 12.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   40 K/uL
   11.2 g/dL
   108 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.4 mEq/L
   33 mg/dL
   106 mEq/L
   141 mEq/L
   33.6 %
   3.5 K/uL
        [image002.jpg]
                             [**2139-1-29**]  05:34 PM
                             [**2139-1-29**]  09:41 PM
                             [**2139-1-30**]  04:50 AM
                             [**2139-1-30**]  10:03 AM
                             [**2139-1-30**]  10:04 AM
                             [**2139-1-30**]  03:54 PM
                             [**2139-1-30**]  07:34 PM
                             [**2139-1-30**]  07:40 PM
                             [**2139-1-30**]  10:43 PM
                             [**2139-1-31**]  03:53 AM
   WBC
   5.1
   5.2
   3.5
   Hct
   33.4
   34.7
   35.4
   32.7
   33.6
   Plt
   27
   23
   67
   35
   64
   40
   Cr
   1.0
   1.0
   1.0
   1.0
   1.0
   Glucose
   74
   188
   188
   157
   [**Telephone/Fax (3) 12797**]
   108
   Other labs: PT / PTT / INR:13.1/28.2/1.1, CK / CKMB /
   Troponin-T:829/11/0.48, ALT / AST:1138/247, Alk Phos / T Bili:99/1.6,
   Differential-Neuts:96.0 %, Lymph:1.8 %, Mono:2.1 %, Eos:0.1 %,
   Fibrinogen:273 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.2 g/dL, LDH:568
   IU/L, Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Assessment and Plan
   83M with systolic heart failure, presenting from OSH with acute
   hypoexmic respiratory failure with evidence of BOOP and acute on CKI,
   altered mental status.  Course complicated by hypotension, GI bleeding.
   .
 RESPIRATORY FAILURE, ACUTE, HYPOXEMIC (NOT ARDS/[**Doctor Last Name 11**]): Had been
   improving and requiring less and less support, however today after
   going to low level pressure support, after 30 minutes he became
   tachycardic, and tachypneic and required return to ventilatory support
   at CMV.  He also had some evidence of anxiety vs fatigue which is what
   I suspect the etiology of his tachypnea and decompensation was.  He
   rapidly recovered with no intervention making PE and Right sided MI
   unlikely.  X-ray was inconsistent with flash.
   .
    Differential of initial failure includes CHF, ANCA-associated
   vasculitis e.g. Goodpasture's syndrome, VAP, and obstructive lung
   disease (noted on CT chest from OSH).  Patients last PFTs were noted to
   be consistent with mild to moderate restrictive ventilatory defect.
   Autoantibodies such as [**Doctor First Name **], ANCA were noted to be negative, and are
   negative on repeat here.  Path report c/w BOOP.  Imaging from outside
   hospital shows clear RML hemorrhage post-bronchoscopy.  Current process
   is multifactorial: pulmonary hematoma, CHF, VAP and underlying COPD
   with ground glass opacities of unknown etiology.
   - cont PSV trials now that mental status improved
 did well yesterday
   with NIF of -20, RSBI of 53 yesterday
   - follow VBGs and ABGs prn
   - cont to wean steroids, would change to home dose today.
   .
   >  GI BLEED
 GI thinks this is lower, as low volume BRBPR with now
   resolved coffee grounds and melena.
   - GI says they will not scope and will not do tagged red cell scan
   - cont [**Hospital1 7**] pantoprazole
   - cont to transfuse for goal Hct 30, plt 10 if not actively bleeding ->
   gave one bag of plts this A.M. for count of 28 and increased bleeding
   .
   #. Thrombocytopenia
progressive thrombocytopenia with uremic
   platelets, with ?contribution of HIT.   Appears to have consumptive
   process since losing transfused plts rapidly. PT and PTT now
   normalized. Fibrinogen nl.  Heparin and vanc stopped.  Pantoprazole
   could be etiology.
   - transfuse to goal 10, 50 if increased bleeding
   - send HIT and serotonin assay
   - consider holding nonessential meds
   - Would hold off on anti-coagulation at least until SRA returns
   .
 ALTERED MENTAL STATUS (NOT DELIRIUM)  Improving very gradually.  We
   will continue off sedation.  Likely [**2-10**] poor hepatic clearance of
   sedatives and uremia causing toxic-metabolic encephalopathy.  Patient
   now answering questions, following commands.  Able to move lower
   extremities, not upper extremities.  MRI shows prior right MCA infarct,
   nothing acute.
   - cont CVVH likely [**1-10**] more days until BUN in 20
   - f/u repeat EEG
   - will D/C meropenem on [**2-3**] for course of Klebsiella therapy, very low
   suspicion for nosocomial bacterial meningitis
   .
   .
 HYPOTENSION- resolved.  Initially, low central venous oxygen
   saturation suggested inadequate cardiac output.  Vigeleo readings
   suggested normal to high SV and CO, thus pt likely requiring higher
   cardiac output than can be achieved without demand . LVEF 30-35% on
   TTE. Pt had recent demand ischemia, in setting of fever and GI bleed
   with anemia, now CE trending down.  Also had complication of shock
   liver.
   - Transfuse to HCT>30  in setting of demand ischemia
   - TTE shows biV dysfunction, no changes, no effusion
   - off Dopamine maintaining good pressures, goal MAP>65
   - cont to trend LFTs, improving
   .
   > WEAKNESS -> likely [**2-10**] steroids, paralysis, prolonged ICU course.
   - Neuro thinks its critical care myopathy with superimposed steroid
   myopathy.
   > BACTEREMIA:
 blood cx from [**1-25**] (off A-line) growing CoNS. A-line
   D/Ced. Off vanco.
   - surveillance blood cx (-) thus far
   .
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 evidence of
   worsening ischemia laterally in I, aVL and worsening CK, troponin
   elevation. Likely demand. Pt not on statin at baseline and not
   candidate for initiation given shock liver. Not anticoagulated, holding
   ASA, due to GI bleed.
   -  transfuse goal Hct > 30
   - will need to restart anti-platelet therapy when GI bleed resolves
   - recheck ECG this morning
   .
   > BIVENTRICULAR SYSTOLIC HEART FAILURE-  Likely [**2-10**] CAD.  Will need to
   optimize regimen with ACEi, possibly B-blockage (if PR prolongation has
   resolved) once renal failure and GI bleed resolve.  Transfusion goal as
   above.  No pressor support currently needed.
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)  DDx includes
   prerenal azotemia (poor forward flow, intravascular depletion),
   intrinsic. BUN elevated [**2-10**] GI bleed as well. On CVVH. Hyperkalemia
   persistant on CVVH, likely due to cell destruction and muscle ischemia
   given high CKs.
   - Continue CVVH with goal TBB -1 to 2L today
   - appreciate renal recs
   .
   #. ISCHEMIC HEPATITIS: Pt has LFTs c/w ischemic injury, now trending
   down
   - monitor daily
   - hold any hepatotoxic or hepatically cleared meds
   .
 DIABETES MELLITUS (DM), TYPE II
 cont insulin drip
   .
   # GOALS OF CARE: Fam mtg yesterday. Fam aware of poor prognosis given
   multiorgan failure. Hope is that mental status improves with CVVH,
   otherwise it will be clear that patient will not return to his baseline
   and they would favor withdrawing care. Will give CVVH another day or
   so.
   ..
   FEN: hold TF, will start TPN/ repletion re: CVVH protocol
   .
   PPX:
   -DVT ppx with pneumoboots, pantoprazole
   -Bowel regimen
   -Pain management
   .
   ACCESS: PIV, right PICC
   .
   CODE STATUS:  DNR
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 453**] [**Last Name (LF) 5628**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12629**]
   .
   DISPOSITION:  [**Hospital Unit Name 1**] pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Dialysis Catheter - [**2139-1-25**] 11:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   ICU Care
   Nutrition:
   TPN without Lipids - [**2139-1-30**] 06:27 PM 41.[**Telephone/Fax (3) 3450**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Dialysis Catheter - [**2139-1-25**] 11:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2139-01-31 11:38:00 Physician Attending Progress Note
Chief Complaint: Hypoxia, ARF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   See H&P for full details.
   24 Hour Events:
 EKG w/possibly increased TWI
 Worsening dyspnea after SBT, back to AC
 Continued CVVH
 Neurology consult for diffuse weakness
 Solumedrol tapered to 20mg daily
 NIF -20
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2139-1-31**] 12:22 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-1-31**] 08:07 AM
   Midazolam (Versed) - [**2139-1-31**] 10:22 AM
   Other medications:
   Chlorhexidine, Colace
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-1-31**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 90 (68 - 100) bpm
   BP: 132/64(80) {113/50(67) - 153/89(108)} mmHg
   RR: 25 (16 - 32) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 95.7 kg (admission): 105.5 kg
           Total In:
                                                                  7,968 mL
                                                                  3,782 mL
   PO:
           TF:
   IVF:
                                                                  7,232 mL
                                                                  2,931 mL
   Blood products:
                                                                    480 mL
                                                                    396 mL
   Total out:
                                                                 10,638 mL
                                                                  5,690 mL
   Urine:
                                                                    289 mL
                                                                     90 mL
   NG:
   125 mL
   Stool:
                                                                    125 mL
   Drains:
   Balance:
                                                                 -2,670 mL
                                                                 -1,908 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 798 (710 - 819) mL
   PS : 16 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 54
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.34/44/33/20/-2
   NIF: -20 cmH2O
   Ve: 13.5 L/min
   PaO2 / FiO2: 66
   Physical Examination
   General Appearance: Well nourished, Anxious, Tachypnic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: 1+ DPs bilat
   Respiratory / Chest: Breath Sounds: Bronchial, diminished on L,
   belly-breathing
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   11.2 g/dL
   120 K/uL
   108 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.4 mEq/L
   33 mg/dL
   106 mEq/L
   141 mEq/L
   33.6 %
   3.5 K/uL
        [image002.jpg]
                             [**2139-1-30**]  04:50 AM
                             [**2139-1-30**]  10:03 AM
                             [**2139-1-30**]  10:04 AM
                             [**2139-1-30**]  03:54 PM
                             [**2139-1-30**]  07:34 PM
                             [**2139-1-30**]  07:40 PM
                             [**2139-1-30**]  10:43 PM
                             [**2139-1-31**]  03:53 AM
                             [**2139-1-31**]  08:30 AM
                             [**2139-1-31**]  10:37 AM
   WBC
   5.2
   3.5
   Hct
   34.7
   35.4
   32.7
   33.6
   Plt
   23
   67
   35
   64
   40
   120
   Cr
   1.0
   1.0
   1.0
   1.0
   TCO2
   25
   Glucose
   188
   157
   219
   578
   185
   108
   Other labs: PT / PTT / INR:13.1/28.2/1.1, CK / CKMB /
   Troponin-T:829/11/0.48, ALT / AST:1138/247, Alk Phos / T Bili:99/1.6,
   Differential-Neuts:96.0 %, Lymph:1.8 %, Mono:2.1 %, Eos:0.1 %,
   Fibrinogen:273 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:568
   IU/L, Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   CXR
 R basilar and mid-lung zone infiltrates, ETT in position
   Assessment and Plan
 RESPIRATORY FAILURE
 Acute Dyspnea this AM.  Tachypnic but otherwise
   vital signs stable, ABG and sats stable, EKG w/continued inferolateral
   STDs and TWIs.  CXR appears w/stable to improved R basilar infiltrate.
   Given possible HIT, could consider PE vs. demand ischemia.  Not able to
   empirically anti-coagulate given low platelets, continued GI oozing.
   - Trend cardiac enzymes
   - TTE
   - Change to AC
   - [**Month (only) 51**] consider switching back to PSV if improves and no other evidence
   of worsening instability
 CORONARY ARTERY DISEASE
 Marked calcific CAD on imaging.  Had enzyme
   leak prior, given recurrent SOB will recheck enzymes, trend.
 THROMBOCYTOPENIA, ACUTE
 PF4 is positive, did get a heparin flush
   earlier this week, no other on-going heparin exposure.
   - No heparin, f/u serotonin release assay
   - Heme following, appreciate input
   - Transfuse platelets to >10, or >50 if active bleeding.
 RENAL FAILURE, ACUTE
 Very uremic on admission, improved on CVVH.
   Has some [**Last Name (LF) **], [**First Name3 (LF) **] will attempt trial off of CVVH.  Running slightly
   negative on CVVH
   - Follow [**First Name3 (LF) **], electrolytes
 GASTROINTESTINAL BLEED
 Initially had coffee grounds from his NG
   tube, but has had persistent BRBPR suggesting possible lower source.
   GI does not feel C-scope or EGD are indicated, and Hct of late has been
   stable.  Possibly ischemic colitis in setting of hypotensive event last
   weekend.
   - Trend Hct q6h, transfuse for marked GIB or to Hct>30
   - No anticoagulation.
 HEART FAILURE, CHRONIC
 Markedly volume up w/mild to moderate MR.
   [**Name13 (STitle) **] done well being run somewhat negative on CVVH, with reasonable
   cardiac output on the vigileo.
   - I/O ~ -1L/24hrs as hemodynamically tolerated
 WEAKNESS
 Marked weakness. MRI shows no evidence of an intracranial
   etiology.  Had been on high dose steroids, sedation, and briefly on
   paralytics.  Neurology consult yesterday felt this likely represented
   ICU and steroid myopathy.
   - Follow neuro exam
   - Discuss w/neurology if EMG needed.
 ALTERED MENTAL STATUS
 Likely due to uremia and high-dose sedation.
   Improved w/holding sedation and CVVH.
 HYPERNATREMIA  - Resolved w/CVVH.
 DIABETES MELLITUS (DM), TYPE II
 On insulin gtt, blood sugars
   stable.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2139-1-30**] 06:27 PM 40 mL/hour
   Glycemic Control:  Insulin gtt
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Dialysis Catheter - [**2139-1-25**] 11:45 AM
   Prophylaxis:
   DVT: P Boots
   Stress ulcer: PPI
   VAP: Chlorhexidine
   Comments:
   Communication:  Update family on status
   Code status: DNR (do not resuscitate)
   Disposition : MICU for now
   Total time spent: 40 min
   Patient is critically ill

2139-02-01 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Respiratory distress this AM with tapering of his support, had some
   increased demand on ekg, evened out after 30 min on CMV, never hypoxic
   or hypercarbic
   - D/C'd Meropenem in the face of leukopenia, thrombocytopenia and
   unclear indication
 EKG - At [**2139-1-31**] 10:44 PM
   for ekg changes of decreased cardiac beats to  60 with noted pulse of
   30-40, bp stable 120-130 sysr
   Allergies:
   Heparin Agents
   positive hepari
   Last dose of Antibiotics:
   Meropenem - [**2139-1-31**] 12:29 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2139-1-31**] 06:10 PM
   Pantoprazole (Protonix) - [**2139-1-31**] 10:07 PM
   Midazolam (Versed) - [**2139-2-1**] 01:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-1**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96.1
   HR: 87 (67 - 103) bpm
   BP: 143/60(82) {110/57(73) - 153/89(99)} mmHg
   RR: 21 (15 - 32) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 95.7 kg (admission): 105.5 kg
             Total In:
                                                                  8,469 mL
                                                                  2,515 mL
   PO:
             TF:
   IVF:
                                                                  6,949 mL
                                                                  2,051 mL
   Blood products:
                                                                    396 mL
   Total out:
                                                                 10,914 mL
                                                                  3,175 mL
   Urine:
                                                                    375 mL
                                                                    120 mL
   NG:
                                                                    125 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,445 mL
                                                                   -660 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 26 cmH2O
   Plateau: 24 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/31/90.[**Numeric Identifier 126**]/23/-1
   Ve: 14.1 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), quiet heart sounds, no
   m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   anteriorly)
   Abdominal: Soft, Non-tender, quiet bowel sounds; BRB in rectal drain
   Extremities: Right lower extremity edema: dopplerable, Left lower
   extremity edema: dopplerable, cold hands with palpable pulses
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, lifts head off of
   pillow Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   41 K/uL
   10.7 g/dL
   145 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.6 mEq/L
   37 mg/dL
   107 mEq/L
   137 mEq/L
   32.7 %
   2.8 K/uL
        [image002.jpg]
                             [**2139-1-31**]  10:37 AM
                             [**2139-1-31**]  11:37 AM
                             [**2139-1-31**]  11:44 AM
                             [**2139-1-31**]  02:10 PM
                             [**2139-1-31**]  02:24 PM
                             [**2139-1-31**]  04:00 PM
                             [**2139-1-31**]  06:00 PM
                             [**2139-1-31**]  06:15 PM
                             [**2139-1-31**]  11:40 PM
                             [**2139-2-1**]  03:46 AM
   WBC
   2.6
   2.8
   Hct
   31.8
   33.0
   34.2
   32.7
   Plt
   56
   41
   Cr
   0.9
   0.9
   TropT
   0.45
   0.49
   0.47
   TCO2
   25
   22
   Glucose
   140
   124
   200
   96
   165
   157
   155
   145
   Other labs: PT / PTT / INR:13.3/30.6/1.1, CK / CKMB /
   Troponin-T:257/11/0.47, ALT / AST:1138/247, Alk Phos / T Bili:99/1.6,
   Differential-Neuts:96.0 %, Lymph:1.8 %, Mono:2.1 %, Eos:0.1 %,
   Fibrinogen:246 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:568
   IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   83M with systolic heart failure, presenting from OSH with acute
   hypoexmic respiratory failure with evidence of BOOP and acute on CKI,
   altered mental status.  Course complicated by hypotension, GI bleeding.
   .
 RESPIRATORY FAILURE, ACUTE, HYPOXEMIC (NOT ARDS/[**Doctor Last Name 11**]): Had been
   improving and requiring less and less support, however today after
   going to low level pressure support, after 30 minutes he became
   tachycardic, and tachypneic and required return to ventilatory support
   at CMV.  He also had some evidence of anxiety vs fatigue which is what
   I suspect the etiology of his tachypnea and decompensation was.  He
   rapidly recovered with no intervention making PE and Right sided MI
   unlikely.  X-ray was inconsistent with flash.
   .
    Differential of initial failure includes CHF, ANCA-associated
   vasculitis e.g. Goodpasture's syndrome, VAP, and obstructive lung
   disease (noted on CT chest from OSH).  Patients last PFTs were noted to
   be consistent with mild to moderate restrictive ventilatory defect.
   Autoantibodies such as [**Doctor First Name **], ANCA were noted to be negative, and are
   negative on repeat here.  Path report c/w BOOP.  Imaging from outside
   hospital shows clear RML hemorrhage post-bronchoscopy.  Current process
   is multifactorial: pulmonary hematoma, CHF, VAP and underlying COPD
   with ground glass opacities of unknown etiology.
   - cont PSV trials now that mental status improved
 did well yesterday
   with NIF of -20, RSBI of 53 yesterday
   - follow VBGs and ABGs prn
   - cont to wean steroids, would change to home dose today.
   .
   Pancytopenia
 Stopped meropenem which can cause pancytopenia, would
   continue to trend.
   .
   >  GI BLEED
 GI thinks this is lower, as low volume BRBPR with now
   resolved coffee grounds and melena.
   - GI says they will not scope and will not do tagged red cell scan
   - cont [**Hospital1 7**] pantoprazole
   - cont to transfuse for goal Hct 30, plt 10 if not actively bleeding
   .
   #. Thrombocytopenia
progressive thrombocytopenia with uremic
   platelets, with ?contribution of HIT.   Appears to have consumptive
   process since losing transfused plts rapidly. PT and PTT now
   normalized. Fibrinogen nl.  Heparin and vanc stopped.  Pantoprazole
   could be etiology.
   - transfuse to goal 10, 50 if increased bleeding
   - send HIT + and serotonin assay
 pending
   - consider holding nonessential meds
   - Would hold off on anti-coagulation at least until SRA returns
   .
 ALTERED MENTAL STATUS (NOT DELIRIUM)  Improving very gradually.  We
   will continue off sedation.  Likely [**2-10**] poor hepatic clearance of
   sedatives and uremia causing toxic-metabolic encephalopathy.  Patient
   now answering questions, following commands.  Able to move lower
   extremities, not upper extremities.  MRI shows prior right MCA infarct,
   nothing acute.
   - trial off CVVH
   - f/u repeat EEG
   - will D/C meropenem.
   .
 HYPOTENSION- resolved.  Initially, low central venous oxygen
   saturation suggested inadequate cardiac output.  Vigeleo readings
   suggested normal to high SV and CO, thus pt likely requiring higher
   cardiac output than can be achieved without demand . LVEF 30-35% on
   TTE. Pt had recent demand ischemia, in setting of fever and GI bleed
   with anemia, now CE trending down.  Also had complication of shock
   liver.
   - Transfuse to HCT>30  in setting of demand ischemia
   - TTE shows biV dysfunction, no changes, no effusion
   - off Dopamine maintaining good pressures, goal MAP>65
   - cont to trend LFTs, improving
   .
   > WEAKNESS -> likely [**2-10**] steroids, paralysis, prolonged ICU course.
   - Neuro thinks its critical care myopathy with superimposed steroid
   myopathy.
   > BACTEREMIA:
 blood cx from [**1-25**] (off A-line) growing CoNS. A-line
   D/Ced. Off vanco.
   - surveillance blood cx (-) thus far
   .
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 evidence of
   worsening ischemia laterally in I, aVL and worsening CK, troponin
   elevation. Likely demand. Pt not on statin at baseline and not
   candidate for initiation given shock liver. Not anticoagulated, holding
   ASA, due to GI bleed.
   -  transfuse goal Hct > 30
   - will need to restart anti-platelet therapy when GI bleed resolves
   - recheck ECG this morning
   .
   > BIVENTRICULAR SYSTOLIC HEART FAILURE-  Likely [**2-10**] CAD.  Will need to
   optimize regimen with ACEi, possibly B-blockage (if PR prolongation has
   resolved) once renal failure and GI bleed resolve.  Transfusion goal as
   above.  No pressor support currently needed.
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)  DDx includes
   prerenal azotemia (poor forward flow, intravascular depletion),
   intrinsic. BUN elevated [**2-10**] GI bleed as well. On CVVH. Hyperkalemia
   persistant on CVVH, likely due to cell destruction and muscle ischemia
   given high CKs.
   - Continue CVVH with goal TBB -1 to 2L today
   - appreciate renal recs
   .
   #. ISCHEMIC HEPATITIS: Pt has LFTs c/w ischemic injury, now trending
   down
   - monitor daily
   - hold any hepatotoxic or hepatically cleared meds
   .
 DIABETES MELLITUS (DM), TYPE II
 cont insulin drip
   .
   # GOALS OF CARE: Fam mtg yesterday. Fam aware of poor prognosis given
   multiorgan failure. Hope is that mental status improves with CVVH,
   otherwise it will be clear that patient will not return to his baseline
   and they would favor withdrawing care. Will give CVVH another day or
   so.
   ..
   FEN: hold TF, will start TPN/ repletion re: CVVH protocol
   .
   PPX:
   -DVT ppx with pneumoboots, pantoprazole
   -Bowel regimen
   -Pain management
   .
   ACCESS: PIV, right PICC
   .
   CODE STATUS:  DNR
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 453**] [**Last Name (LF) 5628**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12629**]
   .
   DISPOSITION:  [**Hospital Unit Name 1**] pending above
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-1-31**] 06:00 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Dialysis Catheter - [**2139-1-25**] 11:45 AM
   Prophylaxis:
   DVT:  P. boots
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2139-02-01 10:13:00 Physician Attending Progress Note
Chief Complaint: Hypoxia, ARF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   See H&P for details.
   24 Hour Events:
 Became dyspneic on SBT yesterday, resolved w/increasing support
 NIF -20
 Again did poorly on recurrent PSV trial overnight
 Continued low grade BRBPR
 Stopped CVVH this AM
 In a bigeminal rhythm much of the day
   Allergies:
   Heparin Agents - positive PF4
   Last dose of Antibiotics:
   Meropenem - [**2139-1-31**] 12:29 PM
   Infusions:
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-2-1**] 07:36 AM
   Midazolam (Versed) - [**2139-2-1**] 07:36 AM
   Fentanyl - [**2139-2-1**] 07:36 AM
   Other medications:
   Chlorhexidine, Colace, Insulin scc
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-1**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 82 (67 - 103) bpm
   BP: 149/59(82) {110/55(73) - 157/84(99)} mmHg
   RR: 20 (15 - 30) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 95.7 kg (admission): 105.5 kg
             Total In:
                                                                  8,469 mL
                                                                  3,246 mL
   PO:
             TF:
   IVF:
                                                                  6,949 mL
                                                                  2,643 mL
   Blood products:
                                                                    396 mL
   Total out:
                                                                 10,914 mL
                                                                  4,062 mL
   Urine:
                                                                    375 mL
                                                                    120 mL
   NG:
                                                                    125 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,445 mL
                                                                   -816 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 24 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/31/90.[**Numeric Identifier 126**]/23/-1
   Ve: 12.8 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: No acute distress, Elderly
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), 2/6 SEM at RUSB
   Peripheral Vascular: 1+ DP, 2+ radial bilat
   Respiratory / Chest: (Breath Sounds: Bronchial: anteriorally), soft
   diffuse wheeze
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, numerous ecchymosis over UE
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   10.7 g/dL
   41 K/uL
   145 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.6 mEq/L
   37 mg/dL
   107 mEq/L
   137 mEq/L
   32.7 %
   2.8 K/uL
         [image002.jpg]
                             [**2139-1-31**]  10:37 AM
                             [**2139-1-31**]  11:37 AM
                             [**2139-1-31**]  11:44 AM
                             [**2139-1-31**]  02:10 PM
                             [**2139-1-31**]  02:24 PM
                             [**2139-1-31**]  04:00 PM
                             [**2139-1-31**]  06:00 PM
                             [**2139-1-31**]  06:15 PM
                             [**2139-1-31**]  11:40 PM
                             [**2139-2-1**]  03:46 AM
   WBC
   2.6
   2.8
   Hct
   31.8
   33.0
   34.2
   32.7
   Plt
   56
   41
   Cr
   0.9
   0.9
   TropT
   0.45
   0.49
   0.47
   TCO2
   25
   22
   Glucose
   140
   124
   200
   96
   165
   157
   155
   145
   Other labs: PT / PTT / INR:13.3/30.6/1.1, CK / CKMB /
   Troponin-T:257/11/0.47, ALT / AST:1138/247, Alk Phos / T Bili:99/1.6,
   Differential-Neuts:96.0 %, Lymph:1.8 %, Mono:2.1 %, Eos:0.1 %,
   Fibrinogen:246 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:568
   IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   CXR
 Stable L basilar and R mid to basilar opacities, ETT and CVC in
   support
   Assessment and Plan
 RESPIRATORY FAILURE
 Unclear underlying lung disease, concern for
   COP on transbronchial biopsy, also has MR [**First Name (Titles) **] [**Last Name (Titles) **] so possible pulmonary
   edema.  Also appears to have had bleeding into RML after transbronchial
   biopsy, volume overload, and Klebsiella VAP.  Has completed 14 days of
   antibiotics for VAP, running negative on CVVH, and recently on high
   dose steroids (since tapered off).  Given prolonged intubation, likely
   needs tracheostomy.
   - Off antibiotics, completed course for Klebs
   - I/Os negative over 24hrs
   - Discuss w/IP re trach tomorrow
   - Off steroids, if worsens, consider restarting
 RENAL FAILURE, ACUTE
 Trial off of CVVH, has reasonable UOP, follow
   electrolytes.  Renal is following, will assess if he requires
   intermittent HD.
   - PM lytes
   - Appreciate renal input
 THROMBOCYTOPENIA, PANCYTOPENIA
 Dropped his WBC yesterday, has been
   persistently thrombocytopenic.  Heme consulted re thrombocytopenia, ?
   medication versus HIT versus consumptive.  PF4 positive, serotonin
   release assay pending.  Not anti-coagulating currently given GIB.
   - Follow-up serotonin release assay
   - Off of antibiotics, monitor counts
   - Keep Plt>10, if active bleeding transfuse to >50
   - Appreciate heme recs
 GASTROINTESTINAL BLEED
 Still w/small amounts of BRBPR but Hct and
   hemodynamically stable.  Likely had some ischemic colitis in the
   setting of hypotensive event last weekend.
   - Hct > 30, transfuse if needed
   - GI following, opting not to perform C-scope or EGD at present
 BIGEMINY
 HR has been decreasing to low 60s, but appears to be
   perfusing by exam.  Follow.
   - Telemetry
 HEART FAILURE, CHRONIC
 Is still quite volume up, although even for
   LOS here.  Had been running negative on CVVH, will try lasix to keep
   negative.
   - Goal I/O ~1L negative /24hrs
 HYPERNATREMIA
 Resolved on CVVH.
   - Follow lytes as off CVVH
 DIABETES MELLITUS, TYPE II
 On insulin SC, insulin w/TPN, follow
   fingersticks
 ALTERED MENTAL STATUS
 Likely toxic/metabolic given improvement
   w/holding sedation and CVVH to clear uremia
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-1-31**] 06:00 PM 62.5 mL/hour
   Glycemic Control:  Insulin SS and insulin in TPN
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Dialysis Catheter - [**2139-1-25**] 11:45 AM
   Prophylaxis:
   DVT: P Boots
   Stress ulcer: Pantoprazole
   VAP: Chlorhexidine, HOB elevated
   Comments:
   Communication:  W/patient and family
   Code status: DNR (do not resuscitate)
   Disposition : MICU
   Total time spent: 30 minutes

2139-02-02 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - renal recs- stop CVVH, HD on Tues
   - no new heme/onc recs re: pancytopenia, nothing remarkable on smear,
   may consider BM bx
   - T 100.1 axillary --> positive UA, sputum and blood cx sent
   - ID called O/N, rec change Foley and vanco/cefepime
   24 Hour Events:
   Allergies:
   Heparin Agents
   positive hepari
   Last dose of Antibiotics:
   Meropenem - [**2139-1-31**] 12:29 PM
   Cefipime - [**2139-2-1**] 11:00 PM
   Vancomycin - [**2139-2-2**] 12:56 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-2-1**] 07:36 AM
   Midazolam (Versed) - [**2139-2-2**] 04:45 AM
   Fentanyl - [**2139-2-2**] 04:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-2**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.2
   HR: 83 (75 - 105) bpm
   BP: 147/54(77) {101/36(60) - 157/91(82)} mmHg
   RR: 23 (19 - 28) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 95.7 kg (admission): 105.5 kg
             Total In:
                                                                  4,313 mL
                                                                    915 mL
   PO:
             TF:
                                                                    120 mL
                                                                    172 mL
   IVF:
                                                                  2,603 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  4,611 mL
                                                                    190 mL
   Urine:
                                                                    609 mL
                                                                    190 mL
   NG:
   Stool:
                                                                     60 mL
   Drains:
   Balance:
                                                                   -298 mL
                                                                    725 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 74
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: ///22/
   Ve: 12.7 L/min
   Physical Examination
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), quiet heart sounds, no
   m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   anteriorly)
   Abdominal: Soft, Non-tender, quiet bowel sounds; BRB in rectal drain
   Extremities: Right lower extremity edema: dopplerable, Left lower
   extremity edema: dopplerable, cold hands with palpable pulses
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, lifts head off of
   pillow Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   18 K/uL
   9.9 g/dL
   179
   1.1 mg/dL
   22 mEq/L
   3.8 mEq/L
   61 mg/dL
   109 mEq/L
   139 mEq/L
   29.3 %
   1.8 K/uL
        [image002.jpg]
                             [**2139-1-31**]  04:00 PM
                             [**2139-1-31**]  06:00 PM
                             [**2139-1-31**]  06:15 PM
                             [**2139-1-31**]  11:40 PM
                             [**2139-2-1**]  03:46 AM
                             [**2139-2-1**]  02:46 PM
                             [**2139-2-1**]  09:20 PM
                             [**2139-2-2**]  12:00 AM
                             [**2139-2-2**]  04:23 AM
                             [**2139-2-2**]  05:00 AM
   WBC
   2.6
   2.8
   1.8
   1.9
   1.8
   Hct
   33.0
   34.2
   32.7
   30.0
   30.0
   29.3
   Plt
   56
   41
   25
   18
   Cr
   0.9
   0.9
   1.0
   1.0
   1.1
   TropT
   0.49
   0.47
   0.69
   Glucose
   96
   165
   157
   155
   145
   152
   158
   221
   154
   179
   Other labs: PT / PTT / INR:14.4/32.7/1.2, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:507/112, Alk Phos / T Bili:118/1.6,
   Differential-Neuts:81.4 %, Lymph:10.1 %, Mono:6.7 %, Eos:1.6 %,
   Fibrinogen:246 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:424
   IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   83M with systolic heart failure, presenting from OSH with acute
   hypoexmic respiratory failure with evidence of BOOP and acute on CKI,
   altered mental status.  Course complicated by hypotension, GI bleeding.
   .
 RESPIRATORY FAILURE, ACUTE, HYPOXEMIC (NOT ARDS/[**Doctor Last Name 11**]): Had been
   improving and requiring less and less support, however today after
   going to low level pressure support, after 30 minutes he became
   tachycardic, and tachypneic and required return to ventilatory support
   at CMV.  He also had some evidence of anxiety vs fatigue which is what
   I suspect the etiology of his tachypnea and decompensation was.  He
   rapidly recovered with no intervention making PE and Right sided MI
   unlikely.  X-ray was inconsistent with flash.
   .
    Differential of initial failure includes CHF, ANCA-associated
   vasculitis e.g. Goodpasture's syndrome, VAP, and obstructive lung
   disease (noted on CT chest from OSH).  Patients last PFTs were noted to
   be consistent with mild to moderate restrictive ventilatory defect.
   Autoantibodies such as [**Doctor First Name **], ANCA were noted to be negative, and are
   negative on repeat here.  Path report c/w BOOP.  Imaging from outside
   hospital shows clear RML hemorrhage post-bronchoscopy.  Current process
   is multifactorial: pulmonary hematoma, CHF, VAP and underlying COPD
   with ground glass opacities of unknown etiology.
   - cont PSV trials now that mental status improved
 did well yesterday
   with NIF of -20, RSBI of 53 yesterday
   - follow VBGs and ABGs prn
   - cont to wean steroids, would change to home dose today.
   .
   >. FEVER/UTI: Pt febrile to 100.1 axillary. No obvious source, no
   change on CXR or increase secretions. No ab pain/distention. UA c/w
   infection, changed Foley and started vanco/cefepime for UTI. Line
   infection is also a concern, will monitor blood cx and D/C fem HD cath
   after HD tomorrow.
   - f/u cx
   - cont vanco/cefepime, renally dosed
   >. Pancytopenia
 Stopped meropenem which can cause pancytopenia, would
   continue to trend. Heme/onc thought drug-related although unclear why
   plts so low. HIT + but SRA pending. Smear unremarkable.
   - appreciate heme/onc recs
   - consider BM bx
   - transfuse for Hct>21, Plt>10 unless bleeding
   .
   >  GI BLEED
 GI thinks this is lower, as low volume BRBPR with now
   resolved coffee grounds and melena.
   - GI says they will not scope and will not do tagged red cell scan
   - cont [**Hospital1 7**] pantoprazole
   - cont to transfuse for goal Hct 30, plt 10 if not actively bleeding
   .
   #. Thrombocytopenia
progressive thrombocytopenia with uremic
   platelets, with ?contribution of HIT.   Appears to have consumptive
   process since losing transfused plts rapidly. PT and PTT now
   normalized. Fibrinogen nl.  Heparin and vanc stopped.  Pantoprazole
   could be etiology.
   - transfuse to goal 10, 50 if increased bleeding
   - send HIT + and serotonin assay
 pending
   - consider holding nonessential meds
   - Would hold off on anti-coagulation at least until SRA returns
   .
 ALTERED MENTAL STATUS (NOT DELIRIUM)  Improving very gradually.  We
   will continue off sedation.  Likely [**2-10**] poor hepatic clearance of
   sedatives and uremia causing toxic-metabolic encephalopathy.  Patient
   now answering questions, following commands.  Able to move lower
   extremities, not upper extremities.  MRI shows prior right MCA infarct,
   nothing acute.
   - trial off CVVH
   - f/u repeat EEG
   - will D/C meropenem.
   .
 HYPOTENSION- resolved.  Initially, low central venous oxygen
   saturation suggested inadequate cardiac output.  Vigeleo readings
   suggested normal to high SV and CO, thus pt likely requiring higher
   cardiac output than can be achieved without demand . LVEF 30-35% on
   TTE. Pt had recent demand ischemia, in setting of fever and GI bleed
   with anemia, now CE trending down.  Also had complication of shock
   liver.
   - Transfuse to HCT>30  in setting of demand ischemia
   - TTE shows biV dysfunction, no changes, no effusion
   - off Dopamine maintaining good pressures, goal MAP>65
   - cont to trend LFTs, improving
   .
   > WEAKNESS -> likely [**2-10**] steroids, paralysis, prolonged ICU course.
   - Neuro thinks its critical care myopathy with superimposed steroid
   myopathy.
   > BACTEREMIA:
 blood cx from [**1-25**] (off A-line) growing CoNS. A-line
   D/Ced. Off vanco.
   - surveillance blood cx (-) thus far
   .
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 evidence of
   worsening ischemia laterally in I, aVL and worsening CK, troponin
   elevation. Likely demand. Pt not on statin at baseline and not
   candidate for initiation given shock liver. Not anticoagulated, holding
   ASA, due to GI bleed.
   -  transfuse goal Hct > 30
   - will need to restart anti-platelet therapy when GI bleed resolves
   - recheck ECG this morning
   .
   > BIVENTRICULAR SYSTOLIC HEART FAILURE-  Likely [**2-10**] CAD.  Will need to
   optimize regimen with ACEi, possibly B-blockage (if PR prolongation has
   resolved) once renal failure and GI bleed resolve.  Transfusion goal as
   above.  No pressor support currently needed.
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)  DDx includes
   prerenal azotemia (poor forward flow, intravascular depletion),
   intrinsic. BUN elevated [**2-10**] GI bleed as well. On CVVH. Hyperkalemia
   persistant on CVVH, likely due to cell destruction and muscle ischemia
   given high CKs.
   - Continue CVVH with goal TBB -1 to 2L today
   - appreciate renal recs
   .
   #. ISCHEMIC HEPATITIS: Pt has LFTs c/w ischemic injury, now trending
   down
   - monitor daily
   - hold any hepatotoxic or hepatically cleared meds
   .
 DIABETES MELLITUS (DM), TYPE II
 cont insulin drip
   .
   # GOALS OF CARE: Fam mtg yesterday. Fam aware of poor prognosis given
   multiorgan failure. Hope is that mental status improves with CVVH,
   otherwise it will be clear that patient will not return to his baseline
   and they would favor withdrawing care. Will give CVVH another day or
   so.
   ..
   FEN: hold TF, will start TPN/ repletion re: CVVH protocol
   .
   PPX:
   -DVT ppx with pneumoboots, pantoprazole
   -Bowel regimen
   -Pain management
   .
   ACCESS: PIV, right PICC
   .
   CODE STATUS:  DNR
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 453**] [**Last Name (LF) 5628**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12629**]
   .
   DISPOSITION:  [**Hospital Unit Name 1**] pending above
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2139-2-1**] 04:00 PM 30 mL/hour
   TPN w/ Lipids - [**2139-2-1**] 05:25 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Dialysis Catheter - [**2139-1-25**] 11:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2139-02-02 11:02:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Mental status, more awake, interactive.
   Remains with profound motor weakness.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   Heparin Agents
   positive hepari
   Last dose of Antibiotics:
   Meropenem - [**2139-1-31**] 12:29 PM
   Cefipime - [**2139-2-1**] 11:00 PM
   Vancomycin - [**2139-2-2**] 12:56 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2139-2-2**] 04:45 AM
   Fentanyl - [**2139-2-2**] 04:54 AM
   Pantoprazole (Protonix) - [**2139-2-2**] 08:28 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss, Low grade
   temperature
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-2-2**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.2
C (97.2
   HR: 73 (73 - 105) bpm
   BP: 143/36(62) {101/36(60) - 157/91(92)} mmHg
   RR: 24 (20 - 28) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 95.7 kg (admission): 105.5 kg
             Total In:
                                                                  4,313 mL
                                                                  1,253 mL
   PO:
             TF:
                                                                    120 mL
                                                                    286 mL
   IVF:
                                                                  2,603 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  4,611 mL
                                                                    313 mL
   Urine:
                                                                    609 mL
                                                                    313 mL
   NG:
   Stool:
                                                                     60 mL
   Drains:
   Balance:
                                                                   -298 mL
                                                                    940 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 74
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 98%
   ABG: ///22/
   Ve: 16.9 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Flat
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Decreased, Flaccid motor exam
   Labs / Radiology
   9.9 g/dL
   18 K/uL
   179
   1.1 mg/dL
   22 mEq/L
   3.8 mEq/L
   61 mg/dL
   109 mEq/L
   139 mEq/L
   29.3 %
   1.8 K/uL
        [image002.jpg]
                             [**2139-1-31**]  04:00 PM
                             [**2139-1-31**]  06:00 PM
                             [**2139-1-31**]  06:15 PM
                             [**2139-1-31**]  11:40 PM
                             [**2139-2-1**]  03:46 AM
                             [**2139-2-1**]  02:46 PM
                             [**2139-2-1**]  09:20 PM
                             [**2139-2-2**]  12:00 AM
                             [**2139-2-2**]  04:23 AM
                             [**2139-2-2**]  05:00 AM
   WBC
   2.6
   2.8
   1.8
   1.9
   1.8
   Hct
   33.0
   34.2
   32.7
   30.0
   30.0
   29.3
   Plt
   56
   41
   25
   18
   Cr
   0.9
   0.9
   1.0
   1.0
   1.1
   TropT
   0.49
   0.47
   0.69
   Glucose
   96
   165
   157
   155
   145
   152
   158
   221
   154
   179
   Other labs: PT / PTT / INR:14.4/32.7/1.2, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:507/112, Alk Phos / T Bili:118/1.6,
   Differential-Neuts:81.4 %, Lymph:10.1 %, Mono:6.7 %, Eos:1.6 %,
   Fibrinogen:246 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:424
   IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   83 yom initially respiratory distress/diffuse infiltrates, complicated
   by multisystem organ failure (respiratory failure, renal failure,
   persistent coma, hypotension, cardiac ischemia, and now GI bleed).
   Gradual signs of clinical improvement.
   RESPIRATORY FAILURE -- limited progress.  Unclear etiology for
   infiltrates (diffuse, scattered, bilateral).   Now multifactorial
   (including diffuse pulmonary disease, CAD, CHF, underlying COPD).  Now
   evidence for new VAP (RLL infiltrate).  Continue steroids --> taper,
   continue antimicrobials, and mechanical ventilation.  Need to consider
   tracheostomy if no contined progress, family considering long-term
   option.  Consult IP service for trach/PEG.
   MOTOR WEAKNESS, GENERALIZED -- attributed to ICU neuropathy (attributed
   to steroids and paralytic use).  Anticipate gradual recovery.
   BACTEREMIA -- GPC in blood culture, likley line-related (PICC, a-line,
   dialysis catheter).  A-line d/c'd.  Plan continue antimicrobials to
   full course.
   FEVER -- Attributed in part to bacteremia.  Monitor temperature.
   HYPOTENSION --  Currently improved.  Monitor BP, maintain MAP > 60
   mmHg.
   CAD -- recent evidence for myocardial damage --> possible demand
   ischemia.  Now stable.
   MELENA/HEMATOCHEZIA -- unclear source, but concerns include UGI source
   (PUD, gastritis) in context of profound thrombocytopenia.  Maintain
   venous access, serial Hct, transfuse.  Transfuse plts, correct
   coagulopathy, dDAVP.
   RENAL FAILURE -- attributed to ATN.  Now off CVVH since yesterday.
   Monitor intrinsic renal function.
   ANEMIA -- multifactorial.  Now evidence for blood loss, GI source.
   Monitor serial Hct, transfuse if Hct < 28.
   HYPERGLYCEMIA
 insulin infusion, monitor glucose, maintain glucose
   <150.
   THROMBOCYTOPENIA -- attributed to HIT+ and in part to mediations
   (meropenem, pentoprozol).  [**Month (only) 51**] be attributed to active GI bleed
   (consumption).  Monitor.   Hematology consultation in progress.
   HIT+ -- avoid heparin.
   NUTRITIONAL SUPPORT
 tolerating TF.  D/C TPN.
   LFT ABNORMALITIES -- consistent with shock liver.  Continues to resolve
   slowly.
   DISPOSITION -- DNR currently.  Maintain discussions with family.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2139-2-1**] 04:00 PM 35 mL/hour
   TPN w/ Lipids - [**2139-2-1**] 05:25 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Dialysis Catheter - [**2139-1-25**] 11:45 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2139-02-03 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - H/O, Renal, and IP consults (IP for ? trach)
   - on PSV for most of day, 15/8, tolerated well
   - lasix 80 mg x 2 for goal (-) one liter
   - GI signed off
   - strength slowly improving, mental status continues to improve
   - gave one bag of plts overnight for plt count of 18
   Allergies:
   Heparin Agents
   positive hepari
   Last dose of Antibiotics:
   Meropenem - [**2139-1-31**] 12:29 PM
   Cefipime - [**2139-2-2**] 12:08 PM
   Vancomycin - [**2139-2-2**] 07:49 PM
   Ciprofloxacin - [**2139-2-3**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-2-2**] 08:28 AM
   Furosemide (Lasix) - [**2139-2-2**] 06:33 PM
   Famotidine (Pepcid) - [**2139-2-2**] 07:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-3**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 89 (70 - 95) bpm
   BP: 149/54(78) {126/36(61) - 159/74(92)} mmHg
   RR: 26 (19 - 30) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 95.7 kg (admission): 105.5 kg
              [**Location 1658**] even
   Total In:
                                                                  3,074 mL
                                                                    532 mL
   PO:
                        TF:
                                                                    720 mL
                                                                    259 mL
   IVF:
                                                                    814 mL
                                                                    274 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,090 mL
                                                                  1,365 mL
   Urine:
                                                                  3,090 mL
                                                                  1,365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -16 mL
                                                                   -833 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 581 (521 - 624) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 57
   PIP: 24 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 13.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), quiet heart sounds, no
   m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, + bowel sounds
   Extremities: Right lower extremity edema: dopplerable, Left lower
   extremity edema: dopplerable, cold hands with palpable pulses
   Skin:  Warm
   Neurologic: Attentive, Follows commands, lifts head and neck off of
   pillow, resists with upper and lower extremities,
   Labs / Radiology
   24 K/uL
   9.8 g/dL
   209 mg/dL
   1.2 mg/dL
   23 mEq/L
   4.1 mEq/L
   77 mg/dL
   109 mEq/L
   139 mEq/L
   29.2 %
   2.1 K/uL
        [image002.jpg]
                             [**2139-2-1**]  03:46 AM
                             [**2139-2-1**]  02:46 PM
                             [**2139-2-1**]  09:20 PM
                             [**2139-2-2**]  12:00 AM
                             [**2139-2-2**]  04:23 AM
                             [**2139-2-2**]  05:00 AM
                             [**2139-2-2**]  12:45 PM
                             [**2139-2-2**]  02:04 PM
                             [**2139-2-2**]  07:22 PM
                             [**2139-2-3**]  05:28 AM
   WBC
   2.8
   1.8
   1.9
   1.8
   2.0
   2.0
   1.8
   2.1
   Hct
   32.7
   30.0
   30.0
   29.3
   29.0
   30.5
   28.9
   29.2
   Plt
   41
   25
   18
   28
   20
   18
   24
   Cr
   0.9
   1.0
   1.0
   1.1
   1.2
   1.1
   1.2
   TropT
   0.69
   Glucose
   145
   152
   158
   221
   154
   179
   165
   433
   209
   Other labs: PT / PTT / INR:14.1/32.3/1.2, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:343/69, Alk Phos / T Bili:146/1.3,
   Differential-Neuts:72.4 %, Lymph:16.5 %, Mono:5.3 %, Eos:5.5 %,
   D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:380 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   83M with systolic heart failure, presenting from OSH with acute
   hypoexmic respiratory failure with evidence of BOOP and acute on CKI,
   altered mental status.  Course complicated by hypotension, GI bleeding.
   .
 RESPIRATORY FAILURE, ACUTE, HYPOXEMIC (NOT ARDS/[**Doctor Last Name 11**]):
   Differential of initial failure includes CHF, ANCA-associated
   vasculitis e.g. Goodpasture's syndrome, VAP, and obstructive lung
   disease (noted on CT chest from OSH).  Patients last PFTs were noted to
   be consistent with mild to moderate restrictive ventilatory defect.
   Autoantibodies such as [**Doctor First Name **], ANCA were noted to be negative, and are
   negative on repeat here.  Path report c/w BOOP.  Imaging from outside
   hospital shows clear RML hemorrhage post-bronchoscopy.  Current process
   is multifactorial: pulmonary hematoma, CHF, VAP and underlying COPD
   with ground glass opacities of unknown etiology. Current barriers to
   extubation are CHF, muscular weakness, and underlying poor reserves.
   - cont PSV trial daily
   - IP deferring trach until platelets consistently greater than 50
   - now off steroids
   - Keep at least -1L per day
   - Continue to treat? VAP
   .
   >. FEVER/UTI: Currently afebrile CXR this AM shows RLL infiltrate more
   concerning  for infection. Respiratory status unchanged, no increase
   secretions. Prior sputum has grown pan-[**Last Name (un) 270**] Klebsiella but has been
   hospitalized and intubated >3 weeks so high risk of resistant
   organisms.
   Also UA c/w infection, changed Foley and started vanco/cefepime for
   UTI. Line infection is also a concern, will monitor blood cx and D/C
   fem HD cath after HD tomorrow.
   - f/u cx
   - add cipro for pseudomonas double coverage
   - cont vanco/cefepime, renally dosed
   .
   LUE and RLE uinlateral edema
 Check LENIS, argatroban if - +
   .
   >. Pancytopenia
 Stopped meropenem which can cause pancytopenia, would
   continue to trend. Heme/onc thought drug-related although unclear why
   plts so low. HIT + but SRA pending. Smear unremarkable. Alternative
   explanation is that patient had baseline leucopenia prior to high dose
   steroids, and we are now seeing this return to baseline.
   - appreciate heme/onc recs
   - switch pantoprazole to ranitidine
   - send HIT + and serotonin assay
 pending
   - send SPEP, UPEP
   - Would hold off on anti-coagulation at least until SRA returns
   - consider BM bx
   - transfuse for Hct>28, Plt>10 unless bleeding
   - check [**Hospital1 7**] CBC
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)  DDx includes
   prerenal azotemia (poor forward flow, intravascular depletion),
   intrinsic. BUN elevated [**2-10**] GI bleed as well. On CVVH. Hyperkalemia
   persistant on CVVH, likely due to cell destruction and muscle ischemia
   given high CKs.
   - Off CVVH
   - Plan for HD tuesday
   .
   >  GI BLEED
 Likely lower GIB, unclear source and patient never
   bleeding enough to scope. Now improved with only oozing when rectum
   cleaned. Also having oral mucosal bleeding, with friable mucosa.
   - send HSV and CMV
   - cont to transfuse for goal Hct 30, plt 10 if not actively bleeding
   .
 ALTERED MENTAL STATUS (NOT DELIRIUM)  Improving Likely [**2-10**] poor
   hepatic clearance of sedatives and uremia causing toxic-metabolic
   encephalopathy.  MRI showedrior right MCA infarct, nothing acute.
   Patient now improving towards baseline, interactive and appropriate.
   - trial off CVVH, BUN increasing and will have HD tomorrow
   .
 HYPOTENSION- resolved.  Initially, low central venous oxygen
   saturation suggested inadequate cardiac output.  Vigeleo readings
   suggested normal to high SV and CO, thus pt likely requiring higher
   cardiac output than can be achieved without demand . LVEF 30-35% on
   TTE. Pt had recent demand ischemia, in setting of fever and GI bleed
   with anemia, now CE trending down.  Also had complication of shock
   liver. Repeat TTE showed biV dysfunction, no changes, no effusion
   .
   > WEAKNESS -> likely [**2-10**] steroids, paralysis, prolonged ICU course.
   - Neuro thinks its critical care myopathy with superimposed steroid
   myopathy.
   > BACTEREMIA:
 blood cx from [**1-25**] (off A-line) growing CoNS. A-line
   D/Ced. Off vanco.
   - surveillance blood cx (-) thus far
   .
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 evidence of
   worsening ischemia laterally in I, aVL and worsening CK, troponin
   elevation. Likely demand. Pt not on statin at baseline and not
   candidate for initiation given shock liver. Not anticoagulated, holding
   ASA, due to GI bleed.
   -  transfuse goal Hct > 28
   .
   > BIVENTRICULAR SYSTOLIC HEART FAILURE-  Likely [**2-10**] CAD.  Will need to
   optimize regimen with ACEi, possibly B-blockage (if PR prolongation has
   resolved) once renal failure and GI bleed resolve.  Transfusion goal as
   above.  No pressor support currently needed.
   .
   #. ISCHEMIC HEPATITIS: Pt has LFTs c/w ischemic injury, now trending
   down
   - monitor daily
   - hold any hepatotoxic or hepatically cleared meds
   .
 DIABETES MELLITUS (DM), TYPE II
 cont insulin drip
   .
   # GOALS OF CARE: Will readdress question of trach/PEG.
   ..
   FEN: TF
   .
   PPX:
   -DVT ppx with pneumoboot
   - raniditine
   -Bowel regimen
   -Pain management
   .
   ACCESS: PIV, right PICC, fem HD line
   .
   CODE STATUS:  DNR
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 453**] [**Last Name (LF) 5628**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12629**]
   .
   DISPOSITION:  [**Hospital Unit Name 1**] pending above
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2139-2-1**] 04:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Dialysis Catheter - [**2139-1-25**] 11:45 AM
   Prophylaxis:
   DVT: P. Boots
   Stress ulcer: Ranitidine
   VAP:  treatment
   Comments:
   Communication:  Son and daughter
   [**Name (NI) 36**] status: DNR (do not resuscitate)
   Disposition: ICU

2139-02-03 11:34:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Generalized weakness persists, but continutes to demonstrate gradual
   daily improvement.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   Heparin Agents
   positive hepari
   Last dose of Antibiotics:
   Meropenem - [**2139-1-31**] 12:29 PM
   Cefipime - [**2139-2-2**] 12:08 PM
   Vancomycin - [**2139-2-2**] 07:49 PM
   Ciprofloxacin - [**2139-2-3**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2139-2-2**] 06:33 PM
   Famotidine (Pepcid) - [**2139-2-2**] 07:49 PM
   Midazolam (Versed) - [**2139-2-3**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-2-3**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.8
C (96.5
   HR: 114 (70 - 114) bpm
   BP: 159/71(95) {126/40(61) - 163/72(95)} mmHg
   RR: 36 (19 - 36) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 95.7 kg (admission): 105.5 kg
             Total In:
                                                                  3,075 mL
                                                                    702 mL
   PO:
             TF:
                                                                    720 mL
                                                                    390 mL
   IVF:
                                                                    815 mL
                                                                    312 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,090 mL
                                                                  1,965 mL
   Urine:
                                                                  3,090 mL
                                                                  1,965 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -15 mL
                                                                 -1,263 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 625 (521 - 625) mL
   PS : 15 cmH2O
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 57
   PIP: 24 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 17.4 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand, Left arm
   somewhat swollen
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.8 g/dL
   24 K/uL
   209 mg/dL
   1.2 mg/dL
   23 mEq/L
   4.1 mEq/L
   77 mg/dL
   109 mEq/L
   139 mEq/L
   29.2 %
   2.1 K/uL
        [image002.jpg]
                             [**2139-2-1**]  03:46 AM
                             [**2139-2-1**]  02:46 PM
                             [**2139-2-1**]  09:20 PM
                             [**2139-2-2**]  12:00 AM
                             [**2139-2-2**]  04:23 AM
                             [**2139-2-2**]  05:00 AM
                             [**2139-2-2**]  12:45 PM
                             [**2139-2-2**]  02:04 PM
                             [**2139-2-2**]  07:22 PM
                             [**2139-2-3**]  05:28 AM
   WBC
   2.8
   1.8
   1.9
   1.8
   2.0
   2.0
   1.8
   2.1
   Hct
   32.7
   30.0
   30.0
   29.3
   29.0
   30.5
   28.9
   29.2
   Plt
   41
   25
   18
   28
   20
   18
   24
   Cr
   0.9
   1.0
   1.0
   1.1
   1.2
   1.1
   1.2
   TropT
   0.69
   Glucose
   145
   152
   158
   221
   154
   179
   165
   433
   209
   Other labs: PT / PTT / INR:14.1/32.3/1.2, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:343/69, Alk Phos / T Bili:146/1.3,
   Differential-Neuts:72.4 %, Lymph:16.5 %, Mono:5.3 %, Eos:5.5 %,
   D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:380 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   83 yom initially respiratory distress/diffuse infiltrates, complicated
   by multisystem organ failure (respiratory failure, renal failure,
   persistent coma, hypotension, cardiac ischemia, and now GI bleed).
   Gradual signs of clinical improvement.
   RESPIRATORY FAILURE -- limited progress.  Unclear etiology for
   infiltrates (diffuse, scattered, bilateral).   Now multifactorial
   (including diffuse pulmonary disease, CAD, CHF, underlying COPD).
   Evidence for VAP (RLL infiltrate).  Continue steroids --> taper,
   continue antimicrobials, and mechanical ventilation.  Need to consider
   tracheostomy if no contined progress, family considering long-term
   option.  Consult IP service for trach/PEG.  Consider repeat
   bronchoscopy.
   MOTOR WEAKNESS, GENERALIZED -- attributed to ICU neuropathy (attributed
   to steroids and paralytic use).  Anticipate gradual recovery.
   BACTEREMIA -- GPC in blood culture, likley line-related (PICC, a-line,
   dialysis catheter).  A-line d/c'd.  Plan continue antimicrobials to
   full course.
   CAD --  evidence for recent myocardial damage --> Now stable.
   MELENA/HEMATOCHEZIA -- unclear source, but concerns include UGI source
   (PUD, gastritis) in context of profound thrombocytopenia.  Maintain
   venous access, serial Hct, transfuse.  Transfuse plts, correct
   coagulopathy, dDAVP.
   RENAL FAILURE -- s/p ATN.  Now remains off CVVH.  Continue to monitor
   intrinsic renal function.
   LEFT ARM SWELLING -- concern for thrombus --> NIVS
   ANEMIA -- multifactorial.  Now evidence for blood loss, GI source.
   Monitor serial Hct, transfuse if Hct < 28.
   HYPERGLYCEMIA
 insulin infusion, monitor glucose, maintain glucose
   <150.
   THROMBOCYTOPENIA -- attributed to HIT+ and in part to mediations
   (meropenem, pentoprozol).  [**Month (only) 51**] also be attributed to active GI bleed
   (consumption).  Monitor.   Hematology consultation following.
   HIT+ -- avoid heparin products.
   NUTRITIONAL SUPPORT
 tolerating TF.  D/C TPN.
   LFT ABNORMALITIES -- consistent with shock liver.  Continues to resolve
   slowly.
   DISPOSITION -- DNR currently.  Maintain discussions with family.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2139-2-3**] 12:00 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Dialysis Catheter - [**2139-1-25**] 11:45 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2139-02-04 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   DVT on LENIs, started argatroban
 DIALYSIS CATHETER - STOP [**2139-2-3**] 12:19 PM
   Allergies:
   Heparin Agents
   positive hepari
   Last dose of Antibiotics:
   Cefipime - [**2139-2-3**] 12:09 PM
   Ciprofloxacin - [**2139-2-4**] 02:07 AM
   Vancomycin - [**2139-2-4**] 05:45 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2139-2-3**] 11:00 AM
   Famotidine (Pepcid) - [**2139-2-3**] 09:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-4**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 93 (73 - 114) bpm
   BP: 138/51(73) {114/26(51) - 163/72(95)} mmHg
   RR: 24 (12 - 37) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 92 kg (admission): 105.5 kg
             Total In:
                                                                  1,425 mL
                                                                    779 mL
   PO:
             TF:
                                                                    845 mL
                                                                    247 mL
   IVF:
                                                                    580 mL
                                                                    532 mL
   Blood products:
   Total out:
                                                                  2,925 mL
                                                                    660 mL
   Urine:
                                                                  2,925 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,500 mL
                                                                    119 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 607 (501 - 772) mL
   PS : 15 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 110
   PIP: 24 cmH2O
   SpO2: 97%
   ABG: ///22/
   Ve: 12.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), quiet heart sounds, no
   m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, + bowel sounds
   Extremities: Right lower extremity edema: dopplerable, Left lower
   extremity edema: dopplerable, cold hands with palpable pulses
   Skin:  Warm
   Neurologic: Attentive, Follows commands, lifts head and neck off of
   pillow, resists with upper and lower extremities,
   Labs / Radiology
   24 K/uL
   9.5 g/dL
   228 mg/dL
   1.3 mg/dL
   22 mEq/L
   3.5 mEq/L
   84 mg/dL
   110 mEq/L
   141 mEq/L
   28.9 %
   2.6 K/uL
        [image002.jpg]
                             [**2139-2-1**]  09:20 PM
                             [**2139-2-2**]  12:00 AM
                             [**2139-2-2**]  04:23 AM
                             [**2139-2-2**]  05:00 AM
                             [**2139-2-2**]  12:45 PM
                             [**2139-2-2**]  02:04 PM
                             [**2139-2-2**]  07:22 PM
                             [**2139-2-3**]  05:28 AM
                             [**2139-2-3**]  05:14 PM
                             [**2139-2-4**]  03:12 AM
   WBC
   1.9
   1.8
   2.0
   2.0
   1.8
   2.1
   2.3
   2.6
   Hct
   30.0
   29.3
   29.0
   30.5
   28.9
   29.2
   30.8
   28.9
   Plt
   18
   28
   20
   18
   24
   20
   24
   Cr
   1.0
   1.1
   1.2
   1.1
   1.2
   1.3
   1.3
   Glucose
   158
   221
   154
   179
   165
   433
   209
   228
   Other labs: PT / PTT / INR:74.9/150.0/8.9,
   ALT / AST:264/59, Alk Phos / T Bili:146/1.1,
   LDH:371 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
[**2139-2-1**] 11:56 pm SPUTUM     Site: ENDOTRACHEAL
   GRAM STAIN (Final [**2139-2-2**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
      Further incubation required to determine the presence or absence of
      commensal respiratory flora.
      YEAST.    MODERATE GROWTH.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH
   1. Partially occlusive thrombus involving the right common femoral vein
   extending to the superficial femoral vein.
   2. No evidence of left lower extremity DVT.
   Assessment and Plan
   83M with systolic heart failure, presenting from OSH with acute
   hypoexmic respiratory failure with evidence of BOOP and acute on CKI,
   altered mental status.  Course complicated by hypotension, GI bleeding.
   .
 RESPIRATORY FAILURE, ACUTE, HYPOXEMIC (NOT ARDS/[**Doctor Last Name 11**]):
   Differential of initial failure includes CHF, VAP, and obstructive lung
   disease (noted on CT chest from OSH) possibly with another unknown
   primary problem causing initial hemoptysis.  Patients last PFTs mild to
   moderate restrictive ventilatory defect.  [**Doctor First Name **], ANCA, anti-GBM
   negative.  Path report c/w BOOP.  Imaging from outside hospital shows
   clear RML hemorrhage post-bronchoscopy.  Current process is
   multifactorial: pulmonary hematoma, CHF, VAP and underlying COPD with
   ground glass opacities of unknown etiology. Current barriers to
   extubation are CHF, muscular weakness, and underlying poor reserves.
   - cont PSV trial daily
   - IP deferring trach until platelets consistently greater than 50
   - now off steroids
   - Keep at least -1L per day
   - 80 mg IV Lasix x 1 now
   - Continue to treat VAP with vanco/cipro/cefepime
   .
   >.
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY- HIT Ab positive
   with RLE DVT. Started argatroban.
   - send SRA 24 hrs after starting argatroban, f/u sent SRA
   - argatroban with goal PTT 60-80
   - monitor platelets for recovery
   .
   >. FEVER: Currently afebrile CXR showed RLL infiltrate concerning  for
   infection. +UA but neg urine cx. Respiratory status unchanged, no
   increase secretions. Prior sputum has grown pan-[**Last Name (un) 270**] Klebsiella but has
   been hospitalized and intubated >3 weeks so high risk of resistant
   organisms. D/Ced fem HD cath. Blood cx all neg.
   - f/u cx
   - D/C vanco since no evidence of gram positives after 48 hours
   - cont cefepime/cipro, renally dosed (D3/8-10)
   .
   >. Pancytopenia
 Stopped meropenem which can cause pancytopenia. Smear
   unremarkable. HIT positive, SRA pending, +RLE DVT. WBC now trending up
   while platelets continue to be 20s.
   - appreciate heme/onc recs
   - f/u SPEP, UPEP
   - transfuse for Hct>28, Plt>10 unless bleeding
   - check [**Hospital1 7**] CBC
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)  DDx includes
   prerenal azotemia (poor forward flow, intravascular depletion),
   intrinsic. BUN elevated [**2-10**] GI bleed as well. s/p CVVH. BUN/Cr now
   trending up.
   - appreciate renal recs
   - discuss plan for HD
   .
   >  GI BLEED
 Likely lower GIB, unclear source and patient never
   bleeding enough to scope. Now improved with only oozing when rectum
   cleaned. Also having oral mucosal bleeding, with friable mucosa.
   - f/u HSV and CMV
   - cont to transfuse for goal Hct 30, plt 10 if not actively bleeding
   .
 ALTERED MENTAL STATUS (NOT DELIRIUM) Likely [**2-10**] poor hepatic
   clearance of sedatives and uremia causing toxic-metabolic
   encephalopathy.  MRI showedrior right MCA infarct, nothing acute.
   Patient now improving towards baseline, interactive and appropriate.
   .
 HYPOTENSION- resolved.  Initially, low central venous oxygen
   saturation suggested inadequate cardiac output.  Vigeleo readings
   suggested normal to high SV and CO, thus pt likely requiring higher
   cardiac output than can be achieved without demand . LVEF 30-35% on
   TTE. Pt had recent demand ischemia, in setting of fever and GI bleed
   with anemia, now CE trending down.  Also had complication of shock
   liver. Repeat TTE showed biV dysfunction, no changes, no effusion
   .
   > WEAKNESS -> likely [**2-10**] steroids, paralysis, prolonged ICU course.
   - Neuro thinks its critical care myopathy with superimposed steroid
   myopathy.
   > BACTEREMIA:
 blood cx from [**1-25**] (off A-line) growing CoNS. A-line
   D/Ced. Off vanco.
   - surveillance blood cx (-) thus far
   .
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 evidence of
   worsening ischemia laterally in I, aVL and worsening CK, troponin
   elevation. Likely demand. Pt not on statin at baseline and not
   candidate for initiation given shock liver. Not anticoagulated, holding
   ASA, due to GI bleed.
   -  transfuse goal Hct > 28
   .
   > BIVENTRICULAR SYSTOLIC HEART FAILURE-  Likely [**2-10**] CAD.  Will need to
   optimize regimen with ACEi, possibly B-blockage (if PR prolongation has
   resolved) once renal failure and GI bleed resolve.  Transfusion goal as
   above.  No pressor support currently needed.
   .
   #. ISCHEMIC HEPATITIS: Pt has LFTs c/w ischemic injury, now trending
   down
   .
 DIABETES MELLITUS (DM), TYPE II
 cont insulin drip
   .
   # GOALS OF CARE: likely trach/PEG pending bleeding/anticoag issues
   ..
   FEN: TF
   .
   PPX:
   -DVT ppx with argatroban
   - raniditine
   -Bowel regimen
   -Pain management
   .
   ACCESS: PIV, right PICC
   .
   CODE STATUS:  DNR
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 453**] [**Last Name (LF) 5628**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12629**]
   .
   DISPOSITION:  [**Hospital Unit Name 1**] pending above
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2139-2-1**] 04:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Dialysis Catheter - [**2139-1-25**] 11:45 AM
   Prophylaxis:
   DVT: P. Boots
   Stress ulcer: Ranitidine
   VAP:  treatment
   Comments:
   Communication:  Son and daughter
   [**Name (NI) 36**] status: DNR (do not resuscitate)
   Disposition: ICU

2139-02-04 12:28:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   DVT determined by LE NIVS --> argatroban.
   More awake, alert, appears mentally "brighter"
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Heparin Agents
   positive hepari
   Last dose of Antibiotics:
   Cefipime - [**2139-2-3**] 12:09 PM
   Ciprofloxacin - [**2139-2-4**] 02:07 AM
   Vancomycin - [**2139-2-4**] 05:45 AM
   Infusions:
   Argatroban - 0.5 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-2-3**] 09:14 PM
   Pantoprazole (Protonix) - [**2139-2-4**] 08:26 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-2-4**] 12:25 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 87 (73 - 105) bpm
   BP: 135/47(68) {114/26(51) - 154/68(84)} mmHg
   RR: 24 (12 - 42) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 92 kg (admission): 105.5 kg
             Total In:
                                                                  1,425 mL
                                                                  1,287 mL
   PO:
             TF:
                                                                    845 mL
                                                                    423 mL
   IVF:
                                                                    580 mL
                                                                    864 mL
   Blood products:
   Total out:
                                                                  2,925 mL
                                                                    960 mL
   Urine:
                                                                  2,925 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,500 mL
                                                                    327 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 713 (454 - 713) mL
   PS : 20 cmH2O
   RR (Set): 20
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 110
   PIP: 29 cmH2O
   SpO2: 98%
   ABG: ///22/
   Ve: 16.9 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Generalized weakness
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : scattered, No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.5 g/dL
   24 K/uL
   228 mg/dL
   1.3 mg/dL
   22 mEq/L
   3.5 mEq/L
   84 mg/dL
   110 mEq/L
   141 mEq/L
   28.9 %
   2.6 K/uL
        [image002.jpg]
                             [**2139-2-1**]  09:20 PM
                             [**2139-2-2**]  12:00 AM
                             [**2139-2-2**]  04:23 AM
                             [**2139-2-2**]  05:00 AM
                             [**2139-2-2**]  12:45 PM
                             [**2139-2-2**]  02:04 PM
                             [**2139-2-2**]  07:22 PM
                             [**2139-2-3**]  05:28 AM
                             [**2139-2-3**]  05:14 PM
                             [**2139-2-4**]  03:12 AM
   WBC
   1.9
   1.8
   2.0
   2.0
   1.8
   2.1
   2.3
   2.6
   Hct
   30.0
   29.3
   29.0
   30.5
   28.9
   29.2
   30.8
   28.9
   Plt
   18
   28
   20
   18
   24
   20
   24
   Cr
   1.0
   1.1
   1.2
   1.1
   1.2
   1.3
   1.3
   Glucose
   158
   221
   154
   179
   165
   433
   209
   228
   Other labs: PT / PTT / INR:27.2/85.7/2.7, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:264/59, Alk Phos / T Bili:146/1.1,
   Differential-Neuts:72.4 %, Lymph:16.5 %, Mono:5.3 %, Eos:5.5 %,
   D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:371 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   83 yom initially respiratory distress/diffuse infiltrates, complicated
   by multisystem organ failure (respiratory failure, renal failure,
   persistent coma, hypotension, cardiac ischemia, and now GI bleed).
   Gradual signs of clinical improvement.
   RESPIRATORY FAILURE -- limited progress.  Unclear etiology for
   infiltrates (diffuse, scattered, bilateral).   Now multifactorial
   (including diffuse pulmonary disease, CAD, CHF, underlying COPD).
   Evidence for VAP (RLL infiltrate).  Continue steroids --> taper,
   continue antimicrobials, and mechanical ventilation.  Need to consider
   tracheostomy if no contined progress, family considering long-term
   option.  Consult IP service for trach/PEG.  Consider repeat
   bronchoscopy.
   MOTOR WEAKNESS, GENERALIZED -- attributed to ICU neuropathy (attributed
   to steroids and paralytic use).  Anticipate gradual recovery.
   BACTEREMIA -- GPC in blood culture, likley line-related (PICC, a-line,
   dialysis catheter).  A-line d/c'd.  Plan continue antimicrobials to
   full course.
   DVT -- right femoral --> argatroban now started.  Aim for PTT 60-80.
   CAD --  evidence for recent myocardial damage --> Now stable.
   MELENA/HEMATOCHEZIA -- unclear source, but concerns include UGI source
   (PUD, gastritis) in context of profound thrombocytopenia.  Maintain
   venous access, serial Hct, transfuse.  Transfuse plts, correct
   coagulopathy, dDAVP.
   RENAL FAILURE -- s/p ATN.  Now remains off CVVH.  Continue to monitor
   intrinsic renal function.
   LEFT ARM SWELLING -- concern for thrombus --> NIVS
   ANEMIA -- multifactorial.  Now evidence for blood loss, GI source.
   Monitor serial Hct, transfuse if Hct < 28.
   HYPERGLYCEMIA
 insulin infusion, monitor glucose, maintain glucose
   <150.
   THROMBOCYTOPENIA -- attributed to HIT+ and in part to mediations
   (meropenem, pentoprozol).  [**Month (only) 51**] also be attributed to active GI bleed
   (consumption).  Monitor.   Hematology consultation following.
   HIT+ -- avoid heparin products.
   NUTRITIONAL SUPPORT
 tolerating TF.  D/C TPN.
   LFT ABNORMALITIES -- consistent with shock liver.  Continues to resolve
   slowly.
   DISPOSITION -- DNR currently.  Maintain discussions with family.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2139-2-3**] 11:51 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2139-02-05 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - D/Ced vanco since no gram + in cx
   - 80 IV Lasix x 2
   - T 100.4, thick sputum --> pan-cx
   Allergies:
   Heparin Agents
   positive hepari
   Last dose of Antibiotics:
   Vancomycin - [**2139-2-4**] 05:45 AM
   Cefipime - [**2139-2-4**] 12:35 PM
   Ciprofloxacin - [**2139-2-5**] 02:01 AM
   Infusions:
   Argatroban - 0.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-2-4**] 08:26 AM
   Furosemide (Lasix) - [**2139-2-5**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-5**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.4
C (97.6
   HR: 96 (74 - 103) bpm
   BP: 135/69(85) {92/34(53) - 158/76(96)} mmHg
   RR: 30 (14 - 42) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 86.4 kg (admission): 105.5 kg
              LOS
 (-)1.8
   Total In:
                                                                  2,322 mL
                                                                    667 mL
   PO:
                            TF:
                                                                    841 mL
                                                                    260 mL
   IVF:
                                                                  1,391 mL
                                                                    348 mL
   Blood products:
   Total out:
                                                                  2,620 mL
                                                                  1,420 mL
   Urine:
                                                                  2,620 mL
                                                                  1,420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -298 mL
                                                                   -753 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 742 (318 - 742) mL
   PS : 20 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 16.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), quiet heart sounds, no
   m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, + bowel sounds
   Extremities: Right lower extremity edema: dopplerable, Left lower
   extremity edema: dopplerable, cold hands with palpable pulses
   Skin:  Warm
   Neurologic: Attentive, Follows commands, lifts head and neck off of
   pillow, resists with upper and lower extremities
   Labs / Radiology
   21 K/uL
   8.6 g/dL
   226 mg/dL
   1.4 mg/dL
   23 mEq/L
   3.2 mEq/L
   90 mg/dL
   112 mEq/L
   144 mEq/L
   25.1 %
   2.3 K/uL
        [image002.jpg]
                             [**2139-2-2**]  04:23 AM
                             [**2139-2-2**]  05:00 AM
                             [**2139-2-2**]  12:45 PM
                             [**2139-2-2**]  02:04 PM
                             [**2139-2-2**]  07:22 PM
                             [**2139-2-3**]  05:28 AM
                             [**2139-2-3**]  05:14 PM
                             [**2139-2-4**]  03:12 AM
                             [**2139-2-4**]  05:01 PM
                             [**2139-2-5**]  03:44 AM
   WBC
   1.8
   2.0
   2.0
   1.8
   2.1
   2.3
   2.6
   2.9
   2.3
   Hct
   29.3
   29.0
   30.5
   28.9
   29.2
   30.8
   28.9
   29.0
   25.1
   Plt
   18
   28
   20
   18
   24
   20
   24
   21
   21
   Cr
   1.1
   1.2
   1.1
   1.2
   1.3
   1.3
   1.3
   1.4
   Glucose
   154
   179
   165
   433
   [**Telephone/Fax (2) 12896**]26
   Other labs: PT / PTT / INR:24.1/68.0/2.3, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:201/53, Alk Phos / T Bili:135/1.0,
   Differential-Neuts:72.4 %, Lymph:16.5 %, Mono:5.3 %, Eos:5.5 %,
   D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:409 IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   83M with systolic heart failure, presenting from OSH with acute
   hypoexmic respiratory failure with evidence of BOOP and acute on CKI,
   altered mental status.  Course complicated by hypotension, GI bleeding.
   .
 RESPIRATORY FAILURE, ACUTE, HYPOXEMIC (NOT ARDS/[**Doctor Last Name 11**]):
   Differential of initial failure includes CHF, VAP, and obstructive lung
   disease (noted on CT chest from OSH) possibly with another unknown
   primary problem causing initial hemoptysis.  Patients last PFTs mild to
   moderate restrictive ventilatory defect.  [**Doctor First Name **], ANCA, anti-GBM
   negative.  Path report c/w BOOP.  Imaging from outside hospital shows
   clear RML hemorrhage post-bronchoscopy.  Current process is
   multifactorial: pulmonary hematoma, CHF, VAP and underlying COPD with
   ground glass opacities of unknown etiology. Current barriers to
   extubation are CHF, muscular weakness, and underlying poor reserves.
   - cont PSV trial daily
   - IP deferring trach until platelets consistently greater than 50, will
   ask surgery as patient is stagnating without it
   - now off steroids
   - stop diuresis to exonerate kidneys
   - Continue to treat VAP with vanco/cipro/cefepime
   .
   >.
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY- HIT Ab positive
   with RLE DVT. Started argatroban.
   - send SRA 24 hrs after starting argatroban, f/u sent SRA
   - argatroban with goal PTT 50-70
   - monitor platelets for recovery
   .
   >. FEVER: Currently afebrile CXR showed RLL infiltrate concerning  for
   infection. Now with increased, purulent secretions, +UA but neg urine
   cx.  Prior sputum has grown pan-[**Last Name (un) 270**] Klebsiella but has been
   hospitalized and intubated >3 weeks so high risk of resistant
   organisms. D/Ced fem HD cath. Blood cx all neg.
   - added back vanco, flagyll
   - f/u cx
   - cont cefepime/cipro, renally dosed (D4/8-10)
   .
   >. Pancytopenia
 Stopped meropenem which can cause pancytopenia. Smear
   unremarkable. HIT positive, SRA pending, +RLE DVT. WBC now trending up
   while platelets continue to be 20s.  Getting 1 unit.
   - appreciate heme/onc recs
   - f/u SPEP, UPEP
   - transfuse for Hct>28, Plt>10 unless bleeding
   - check [**Hospital1 7**] CBC
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)  DDx includes
   prerenal azotemia (poor forward flow, intravascular depletion),
   intrinsic. BUN elevated [**2-10**] GI bleed as well. s/p CVVH. BUN/Cr now
   trending up.
   - appreciate renal recs
   - discuss plan for HD
   .
   >  GI BLEED
 Likely lower GIB, unclear source and patient never
   bleeding enough to scope. Now improved with only oozing when rectum
   cleaned. Also having oral mucosal bleeding, with friable mucosa.
   - f/u HSV and CMV
   - cont to transfuse for goal Hct 30, plt 10 if not actively bleeding
   .
 ALTERED MENTAL STATUS (NOT DELIRIUM) Likely [**2-10**] poor hepatic
   clearance of sedatives and uremia causing toxic-metabolic
   encephalopathy.  MRI showedrior right MCA infarct, nothing acute.
   Patient now improving towards baseline, interactive and appropriate.
   .
 HYPOTENSION- resolved.  Initially, low central venous oxygen
   saturation suggested inadequate cardiac output.  Vigeleo readings
   suggested normal to high SV and CO, thus pt likely requiring higher
   cardiac output than can be achieved without demand . LVEF 30-35% on
   TTE. Pt had recent demand ischemia, in setting of fever and GI bleed
   with anemia, now CE trending down.  Also had complication of shock
   liver. Repeat TTE showed biV dysfunction, no changes, no effusion
   .
   > WEAKNESS -> likely [**2-10**] steroids, paralysis, prolonged ICU course.
   - Neuro thinks its critical care myopathy with superimposed steroid
   myopathy.
   > BACTEREMIA:
 blood cx from [**1-25**] (off A-line) growing CoNS. A-line
   D/Ced. Off vanco.
   - surveillance blood cx (-) thus far
   .
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 evidence of
   worsening ischemia laterally in I, aVL and worsening CK, troponin
   elevation. Likely demand. Pt not on statin at baseline and not
   candidate for initiation given shock liver. Not anticoagulated, holding
   ASA, due to GI bleed.
   -  transfuse goal Hct > 28
   .
   > BIVENTRICULAR SYSTOLIC HEART FAILURE-  Likely [**2-10**] CAD.  Will need to
   optimize regimen with ACEi, possibly B-blockage (if PR prolongation has
   resolved) once renal failure and GI bleed resolve.  Transfusion goal as
   above.  No pressor support currently needed.
   .
   #. ISCHEMIC HEPATITIS: Pt has LFTs c/w ischemic injury, now trending
   down
   .
 DIABETES MELLITUS (DM), TYPE II
 cont insulin drip
   .
   # GOALS OF CARE: likely trach/PEG pending bleeding/anticoag issues
   ..
   FEN: TF
   .
   PPX:
   -DVT ppx with argatroban
   - raniditine
   -Bowel regimen
   -Pain management
   .
   ACCESS: PIV, right PICC
   .
   CODE STATUS:  DNR
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 453**] [**Last Name (LF) 5628**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12629**]
   .
   DISPOSITION:  [**Hospital Unit Name 1**] pending above
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2139-2-1**] 04:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Dialysis Catheter - [**2139-1-25**] 11:45 AM
   Prophylaxis:
   DVT: P. Boots
   Stress ulcer: Ranitidine
   VAP:  treatment
   Comments:
   Communication:  Son and daughter
   [**Name (NI) 36**] status: DNR (do not resuscitate)
   Disposition: ICU

2139-02-05 13:03:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Awake, alert.
   Able to lift head off pillow.
   Poor tolerance of IPS <20 --> fatigue, tachypnea.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Heparin Agents
   positive hepari
   Last dose of Antibiotics:
   Vancomycin - [**2139-2-4**] 05:45 AM
   Ciprofloxacin - [**2139-2-5**] 02:01 AM
   Cefipime - [**2139-2-5**] 12:35 PM
   Infusions:
   Argatroban - 0.5 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2139-2-5**] 12:15 AM
   Famotidine (Pepcid) - [**2139-2-5**] 08:19 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: Chest pain, No(t) Palpitations, No(t) Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-2-5**] 01:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.6
C (99.6
   HR: 71 (71 - 109) bpm
   BP: 128/51(71) {92/31(53) - 158/76(153)} mmHg
   RR: 17 (14 - 37) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 86.4 kg (admission): 105.5 kg
           Total In:
                                                                  2,322 mL
                                                                  1,364 mL
   PO:
           TF:
                                                                    841 mL
                                                                    446 mL
   IVF:
                                                                  1,391 mL
                                                                    468 mL
   Blood products:
   350 mL
   Total out:
                                                                  2,620 mL
                                                                  2,090 mL
   Urine:
                                                                  2,620 mL
                                                                  2,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -298 mL
                                                                   -726 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 901 (318 - 901) mL
   PS : 20 cmH2O
   RR (Set): 20
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 103
   RSBI Deferred: RR >35
   PIP: 28 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 16.1 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Decreased, Eyes and head;  Flaccid
   motor tone or limbs
   Labs / Radiology
   8.6 g/dL
   21 K/uL
   226 mg/dL
   1.4 mg/dL
   23 mEq/L
   3.2 mEq/L
   90 mg/dL
   112 mEq/L
   144 mEq/L
   25.1 %
   2.3 K/uL
        [image002.jpg]
                             [**2139-2-2**]  04:23 AM
                             [**2139-2-2**]  05:00 AM
                             [**2139-2-2**]  12:45 PM
                             [**2139-2-2**]  02:04 PM
                             [**2139-2-2**]  07:22 PM
                             [**2139-2-3**]  05:28 AM
                             [**2139-2-3**]  05:14 PM
                             [**2139-2-4**]  03:12 AM
                             [**2139-2-4**]  05:01 PM
                             [**2139-2-5**]  03:44 AM
   WBC
   1.8
   2.0
   2.0
   1.8
   2.1
   2.3
   2.6
   2.9
   2.3
   Hct
   29.3
   29.0
   30.5
   28.9
   29.2
   30.8
   28.9
   29.0
   25.1
   Plt
   18
   28
   20
   18
   24
   20
   24
   21
   21
   Cr
   1.1
   1.2
   1.1
   1.2
   1.3
   1.3
   1.3
   1.4
   Glucose
   154
   179
   165
   433
   [**Telephone/Fax (2) 12896**]26
   Other labs: PT / PTT / INR:24.1/62.1/2.3, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:201/53, Alk Phos / T Bili:135/1.0,
   Differential-Neuts:72.4 %, Lymph:16.5 %, Mono:5.3 %, Eos:5.5 %,
   D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:409 IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   83 yom initially respiratory distress/diffuse infiltrates, complicated
   by multisystem organ failure (respiratory failure, renal failure,
   persistent coma, hypotension, cardiac ischemia, and now GI bleed).
   Gradual signs of clinical improvement.
   RESPIRATORY FAILURE -- limited progress.  Unclear etiology for
   infiltrates (diffuse, scattered, bilateral).   Now multifactorial
   (including diffuse pulmonary disease, CAD, CHF, underlying COPD).
   Evidence for VAP (RLL infiltrate).  Continue steroids --> taper,
   continue antimicrobials, and mechanical ventilation.  Need to consider
   tracheostomy if no contined progress, family considering long-term
   option.  Consult IP service for trach/PEG.  Consider repeat
   bronchoscopy.
   MOTOR WEAKNESS, GENERALIZED -- attributed to ICU neuropathy (attributed
   to steroids and paralytic use).  Anticipate gradual recovery.
   BACTEREMIA -- GPC in blood culture, likley line-related (PICC, a-line,
   dialysis catheter).  A-line d/c'd.  Plan continue antimicrobials to
   full course.
   DVT -- right femoral --> argatroban now started.  Aim for PTT 60-80.
   CAD --  evidence for recent myocardial damage --> Now stable.
   MELENA/HEMATOCHEZIA -- unclear source, but concerns include UGI source
   (PUD, gastritis) in context of profound thrombocytopenia.  Maintain
   venous access, serial Hct, transfuse.  Transfuse plts, correct
   coagulopathy, dDAVP.
   RENAL FAILURE -- s/p ATN.  Now remains off CVVH.  Continue to monitor
   intrinsic renal function.
   LEFT ARM SWELLING -- concern for thrombus --> NIVS
   ANEMIA -- multifactorial.  Now evidence for blood loss, GI source.
   Monitor serial Hct, transfuse if Hct < 28.
   HYPERGLYCEMIA
 insulin infusion, monitor glucose, maintain glucose
   <150.
   THROMBOCYTOPENIA -- attributed to HIT+ and in part to mediations
   (meropenem, pentoprozol).  [**Month (only) 51**] also be attributed to active GI bleed
   (consumption).  Monitor.   Hematology consultation following.
   HIT+ -- avoid heparin products.
   NUTRITIONAL SUPPORT
 tolerating TF.  D/C TPN.
   LFT ABNORMALITIES -- consistent with shock liver.  Continues to resolve
   slowly.
   DISPOSITION -- DNR currently.  Maintain discussions with family.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2139-2-4**] 11:49 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, Argatroban)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2139-02-06 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - continued on PSV, 20/8; became more anxious in afternoon, reflected
   on ABG, improved with anxiolytic
   - no lasix given SCr, cont to have excellent UOP
   - added flagyl to broaden VAP/aspiration coverage
   - PT consult ordered
   - urine cx >100,000 yeast (yeasts?)
   Allergies:
   Heparin Agents
   positive hepari
   Last dose of Antibiotics:
   Vancomycin - [**2139-2-4**] 05:45 AM
   Cefipime - [**2139-2-5**] 12:35 PM
   Metronidazole - [**2139-2-6**] 12:00 AM
   Ciprofloxacin - [**2139-2-6**] 05:33 AM
   Infusions:
   Argatroban - 0.5 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-2-5**] 07:54 PM
   Midazolam (Versed) - [**2139-2-6**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-6**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.8
C (100
   HR: 104 (71 - 109) bpm
   BP: 97/56(66) {97/31(53) - 154/73(153)} mmHg
   RR: 31 (15 - 37) insp/min
   SpO2: 97%
   Heart rhythm: VF (Ventricular Fibrillation)
   Wgt (current): 87.5 kg (admission): 105.5 kg
           Total In:
                                                                  2,840 mL
                                                                  1,513 mL
   PO:
           TF:
                                                                    853 mL
                                                                    249 mL
   IVF:
                                                                    967 mL
                                                                    621 mL
   Blood products:
                                                                    350 mL
                                                                    144 mL
   Total out:
                                                                  2,975 mL
                                                                    530 mL
   Urine:
                                                                  2,975 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -135 mL
                                                                    983 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 830 (592 - 901) mL
   PS : 20 cmH2O
   RR (Set): 20
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 106
   PIP: 29 cmH2O
   SpO2: 97%
   ABG: 7.44/32/156/20/0
   Ve: 13.7 L/min
   PaO2 / FiO2: 312
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), quiet heart sounds, no
   m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, + bowel sounds
   Extremities: Right lower extremity edema: dopplerable, Left lower
   extremity edema: dopplerable, cold hands with palpable pulses
   Skin:  Warm
   Neurologic: Attentive, Follows commands, lifts head and neck off of
   pillow, resists with upper and lower extremities
   Labs / Radiology
   19 K/uL
   9.8 g/dL
   261 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.5 mEq/L
   95 mg/dL
   116 mEq/L
   148 mEq/L
   29.0 %
   3.1 K/uL
        [image002.jpg]
                             [**2139-2-2**]  02:04 PM
                             [**2139-2-2**]  07:22 PM
                             [**2139-2-3**]  05:28 AM
                             [**2139-2-3**]  05:14 PM
                             [**2139-2-4**]  03:12 AM
                             [**2139-2-4**]  05:01 PM
                             [**2139-2-5**]  03:44 AM
                             [**2139-2-5**]  12:13 PM
                             [**2139-2-5**]  04:55 PM
                             [**2139-2-6**]  01:59 AM
   WBC
   2.0
   1.8
   2.1
   2.3
   2.6
   2.9
   2.3
   3.1
   Hct
   30.5
   28.9
   29.2
   30.8
   28.9
   29.0
   25.1
   28.6
   29.0
   Plt
   20
   18
   24
   20
   24
   21
   21
   19
   Cr
   1.2
   1.1
   1.2
   1.3
   1.3
   1.3
   1.4
   1.4
   TCO2
   22
   Glucose
   165
   433
   209
   [**Telephone/Fax (3) 12928**]
   261
   Other labs: PT / PTT / INR:25.9/77.2/2.5, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:201/53, Alk Phos / T Bili:135/1.0,
   Differential-Neuts:72.4 %, Lymph:16.5 %, Mono:5.3 %, Eos:5.5 %,
   D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:409 IU/L, Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   83M with systolic heart failure, presenting from OSH with acute
   hypoexmic respiratory failure with evidence of BOOP and acute on CKI,
   altered mental status.  Course complicated by hypotension, GI bleeding.
   .
 RESPIRATORY FAILURE, ACUTE, HYPOXEMIC (NOT ARDS/[**Doctor Last Name 11**]):
   Differential of initial failure includes CHF, VAP, and obstructive lung
   disease (noted on CT chest from OSH) possibly with another unknown
   primary problem causing initial hemoptysis.  Patients last PFTs mild to
   moderate restrictive ventilatory defect.  [**Doctor First Name **], ANCA, anti-GBM
   negative.  Path report c/w BOOP.  Imaging from outside hospital shows
   clear RML hemorrhage post-bronchoscopy.  Current process is
   multifactorial: pulmonary hematoma, CHF, VAP and underlying COPD with
   ground glass opacities of unknown etiology. Current barriers to
   extubation are CHF, muscular weakness, and underlying poor reserves.
   - cont PSV trial daily
 control anxiety with
   - IP deferring trach until platelets consistently greater than 50, will
   ask surgery as patient is stagnating without it
   - now off steroids
   - stop diuresis to exonerate kidneys
   - Continue to treat VAP with vanco/cipro/cefepime/flagyl
       - Vanc
 d5 of 10
       - Cefepime
 d5 of 10
       - Flagyl  - until end of above course
   .
   >.
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY- HIT Ab positive
   with RLE DVT. Started argatroban.
   - send SRA 24 hrs after starting argatroban, f/u sent SRA
   - argatroban with goal PTT 50-70
   - monitor platelets for recovery
   .
   >. FEVER: Currently afebrile CXR showed RLL infiltrate concerning  for
   infection. Now with increased, purulent secretions, +UA but neg urine
   cx.  Prior sputum has grown pan-[**Last Name (un) 270**] Klebsiella but has been
   hospitalized and intubated >3 weeks so high risk of resistant
   organisms. D/Ced fem HD cath. Blood cx all neg.
   - added back vanco, flagyll
   - f/u cx
   - cont cefepime/cipro, renally dosed (D5/8-10)
   - Change foley
   .
   >. Pancytopenia
 Stopped meropenem which can cause pancytopenia. Smear
   unremarkable. HIT positive, SRA pending, +RLE DVT. WBC now trending up
   while platelets continue to be 20s.  Getting 1 unit.
   - appreciate heme/onc recs
   - f/u SPEP, UPEP
   - transfuse for Hct>28, Plt>10 unless bleeding
   - check [**Hospital1 7**] CBC
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)  DDx includes
   prerenal azotemia (poor forward flow, intravascular depletion),
   intrinsic. BUN elevated [**2-10**] GI bleed as well. s/p CVVH. BUN/Cr now
   trending up.
   - appreciate renal recs
   - Stopped Lasix
   .
   >  GI BLEED
 Likely lower GIB, unclear source and patient never
   bleeding enough to scope. Now improved with only oozing when rectum
   cleaned. Also having oral mucosal bleeding, with friable mucosa.
   - f/u HSV and CMV
   - cont to transfuse for goal Hct 30, plt 10 if not actively bleeding
   .
 ALTERED MENTAL STATUS (NOT DELIRIUM) Likely [**2-10**] poor hepatic
   clearance of sedatives and uremia causing toxic-metabolic
   encephalopathy.  MRI showedrior right MCA infarct, nothing acute.
   Patient now improving towards baseline, interactive and appropriate.
   .
 HYPOTENSION- resolved.  Initially, low central venous oxygen
   saturation suggested inadequate cardiac output.  Vigeleo readings
   suggested normal to high SV and CO, thus pt likely requiring higher
   cardiac output than can be achieved without demand . LVEF 30-35% on
   TTE. Pt had recent demand ischemia, in setting of fever and GI bleed
   with anemia, now CE trending down.  Also had complication of shock
   liver. Repeat TTE showed biV dysfunction, no changes, no effusion
   .
   > WEAKNESS -> likely [**2-10**] steroids, paralysis, prolonged ICU course.
   - Neuro thinks its critical care myopathy with superimposed steroid
   myopathy.
   > BACTEREMIA:
 blood cx from [**1-25**] (off A-line) growing CoNS. A-line
   D/Ced. Off vanco.
   - surveillance blood cx (-) thus far
   .
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 evidence of
   worsening ischemia laterally in I, aVL and worsening CK, troponin
   elevation. Likely demand. Pt not on statin at baseline and not
   candidate for initiation given shock liver. Not anticoagulated, holding
   ASA, due to GI bleed.
   -  transfuse goal Hct > 28
   .
   > BIVENTRICULAR SYSTOLIC HEART FAILURE-  Likely [**2-10**] CAD.  Will need to
   optimize regimen with ACEi, possibly B-blockage (if PR prolongation has
   resolved) once renal failure and GI bleed resolve.  Transfusion goal as
   above.  No pressor support currently needed.
   .
   #. ISCHEMIC HEPATITIS: Pt has LFTs c/w ischemic injury, now trending
   down
   .
 DIABETES MELLITUS (DM), TYPE II
 cont insulin drip
   .
   # GOALS OF CARE: likely trach/PEG pending bleeding/anticoag issues
   ..
   FEN: TF
   .
   PPX:
   -DVT ppx with argatroban
   - raniditine
   -Bowel regimen
   -Pain management
   .
   ACCESS: PIV, right PICC
   .
   CODE STATUS:  DNR
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 453**] [**Last Name (LF) 5628**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12629**]
   .
   DISPOSITION:  [**Hospital Unit Name 1**] pending above
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2139-2-1**] 04:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Dialysis Catheter - [**2139-1-25**] 11:45 AM
   Prophylaxis:
   DVT: P. Boots
   Stress ulcer: Ranitidine
   VAP:  treatment
   Comments:
   Communication:  Son and daughter
   [**Name (NI) 36**] status: DNR (do not resuscitate)
   Disposition: ICU

2139-02-06 12:29:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Exhibiting some anxiety --> improved with prn benzodiazepine.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   Heparin Agents
   positive hepari
   Last dose of Antibiotics:
   Metronidazole - [**2139-2-6**] 12:00 AM
   Ciprofloxacin - [**2139-2-6**] 05:33 AM
   Vancomycin - [**2139-2-6**] 10:30 AM
   Cefipime - [**2139-2-6**] 12:15 PM
   Infusions:
   Argatroban - 0.5 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-2-5**] 07:54 PM
   Midazolam (Versed) - [**2139-2-6**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-2-6**] 12:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.7
   HR: 90 (75 - 111) bpm
   BP: 131/51(71) {97/38(58) - 154/73(102)} mmHg
   RR: 23 (15 - 38) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 87.5 kg (admission): 105.5 kg
           Total In:
                                                                  2,840 mL
                                                                  2,998 mL
   PO:
           TF:
                                                                    853 mL
                                                                    430 mL
   IVF:
                                                                    967 mL
                                                                    961 mL
   Blood products:
                                                                    350 mL
                                                                    297 mL
   Total out:
                                                                  2,975 mL
                                                                    797 mL
   Urine:
                                                                  2,975 mL
                                                                    797 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -135 mL
                                                                  2,201 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 502 (502 - 830) mL
   PS : 18 cmH2O
   RR (Spontaneous): 32
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 106
   PIP: 27 cmH2O
   SpO2: 100%
   ABG: 7.44/32/156/20/0
   Ve: 17.4 L/min
   PaO2 / FiO2: 312
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Decreased, Flaccid motor tone in limbs
   Labs / Radiology
   9.8 g/dL
   69 K/uL
   261 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.5 mEq/L
   95 mg/dL
   116 mEq/L
   148 mEq/L
   29.0 %
   3.1 K/uL
        [image002.jpg]
                             [**2139-2-2**]  07:22 PM
                             [**2139-2-3**]  05:28 AM
                             [**2139-2-3**]  05:14 PM
                             [**2139-2-4**]  03:12 AM
                             [**2139-2-4**]  05:01 PM
                             [**2139-2-5**]  03:44 AM
                             [**2139-2-5**]  12:13 PM
                             [**2139-2-5**]  04:55 PM
                             [**2139-2-6**]  01:59 AM
                             [**2139-2-6**]  07:48 AM
   WBC
   1.8
   2.1
   2.3
   2.6
   2.9
   2.3
   3.1
   Hct
   28.9
   29.2
   30.8
   28.9
   29.0
   25.1
   28.6
   29.0
   Plt
   18
   24
   20
   24
   21
   21
   19
   69
   Cr
   1.1
   1.2
   1.3
   1.3
   1.3
   1.4
   1.4
   TCO2
   22
   Glucose
   433
   209
   228
   255
   226
   261
   Other labs: PT / PTT / INR:25.9/77.2/2.5, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:201/53, Alk Phos / T Bili:135/1.0,
   Differential-Neuts:72.4 %, Lymph:16.5 %, Mono:5.3 %, Eos:5.5 %,
   D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:409 IU/L, Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   83 yom initially respiratory distress/diffuse infiltrates, complicated
   by multisystem organ failure (respiratory failure, renal failure,
   persistent coma, hypotension, cardiac ischemia, and now GI bleed).
   Gradual signs of clinical improvement.
   RESPIRATORY FAILURE -- limited progress.  Unclear etiology for
   infiltrates (diffuse, scattered, bilateral).   Now multifactorial
   (including diffuse pulmonary disease, CAD, CHF, underlying COPD).
   Evidence for VAP (RLL infiltrate).  Continue steroids --> taper,
   continue antimicrobials, and mechanical ventilation.  Need to consider
   tracheostomy if no contined progress, family considering long-term
   option.   Will discuss with thoracic and IP service for timing of
   trach/PEG (consider plts transfusion).  [**Month (only) 51**] require surgical trach and
   G-tube placement if remains with thrombocytopenia.
   MOTOR WEAKNESS, GENERALIZED -- attributed to ICU neuropathy (attributed
   to steroids and paralytic use).  Anticipate gradual recovery.
   BACTEREMIA -- GPC in blood culture, likley line-related (PICC, a-line,
   dialysis catheter).  A-line d/c'd.  Plan continue antimicrobials to
   full course.
   DVT -- right femoral --> argatroban now started.  Aim for PTT 60-80.
   CAD --  evidence for recent myocardial damage --> Now stable.
   MELENA/HEMATOCHEZIA -- unclear source, but concerns include UGI source
   (PUD, gastritis) in context of profound thrombocytopenia.  Maintain
   venous access, serial Hct, transfuse.  Transfuse plts, correct
   coagulopathy, dDAVP.
   RENAL FAILURE -- s/p ATN.  Now remains off CVVH.  Continue to monitor
   intrinsic renal function.
   LEFT LEG DVT -- Argatroban
   ANEMIA -- multifactorial.  Now evidence for blood loss, GI source.
   Monitor serial Hct, transfuse if Hct < 28.
   HYPERGLYCEMIA
 insulin infusion, monitor glucose, maintain glucose
   <150.
   THROMBOCYTOPENIA -- attributed to HIT+ and in part to mediations
   (meropenem, pentoprozol).  [**Month (only) 51**] also be attributed to active GI bleed
   (consumption).  Monitor.   Hematology consultation following.
   HIT+ -- avoid heparin products.
   NUTRITIONAL SUPPORT
 tolerating TF.  D/C TPN.
   LFT ABNORMALITIES -- consistent with shock liver.  Continues to resolve
   slowly.
   DISPOSITION -- DNR currently.  Maintain discussions with family.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2139-2-5**] 11:27 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, Argatroban)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Updated son during family meeting.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2139-02-07 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - Started klonipin for anxiety, good effect
   - continues to spike
   - growing yeast from two sources, if septic looking IV micafungin
   - SRA was negative, Heme consult said dont [**Doctor Last Name **] the boat
   24 Hour Events:
 FEVER - 101.2
F - [**2139-2-6**] 09:00 PM
   Allergies:
   Heparin Agents
   positive hepari
   Last dose of Antibiotics:
   Vancomycin - [**2139-2-6**] 10:30 AM
   Cefipime - [**2139-2-6**] 12:15 PM
   Ciprofloxacin - [**2139-2-7**] 02:05 AM
   Metronidazole - [**2139-2-7**] 05:59 AM
   Infusions:
   Argatroban - 0.5 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-2-6**] 09:10 PM
   Fentanyl - [**2139-2-6**] 10:00 PM
   Midazolam (Versed) - [**2139-2-7**] 01:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-7**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.7
C (98.1
   HR: 89 (76 - 113) bpm
   BP: 121/44(63) {114/32(53) - 146/77(96)} mmHg
   RR: 28 (23 - 39) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 87.5 kg (admission): 105.5 kg
             Total In:
                                                                  6,311 mL
                                                                  2,625 mL
   PO:
             TF:
                                                                    845 mL
                                                                    257 mL
   IVF:
                                                                  3,329 mL
                                                                  1,868 mL
   Blood products:
                                                                    297 mL
   Total out:
                                                                  1,337 mL
                                                                    430 mL
   Urine:
                                                                  1,337 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,974 mL
                                                                  2,195 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 647 (500 - 647) mL
   PS : 20 cmH2O
   RR (Set): 16
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 180
   PIP: 29 cmH2O
   SpO2: 95%
   ABG: ///19/
   Ve: 15.6 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), quiet heart sounds, no
   m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, + bowel sounds
   Extremities: Right lower extremity edema: dopplerable, Left lower
   extremity edema: dopplerable, cold hands with palpable pulses
   Skin:  Warm
   Neurologic: Attentive, Follows commands, lifts head and neck off of
   pillow, resists with upper and lower extremities
   Labs / Radiology
   38 K/uL
   9.3 g/dL
   203 mg/dL
   1.5 mg/dL
   19 mEq/L
   3.9 mEq/L
   92 mg/dL
   111 mEq/L
   141 mEq/L
   28.7 %
   3.8 K/uL
        [image002.jpg]
                             [**2139-2-3**]  05:14 PM
                             [**2139-2-4**]  03:12 AM
                             [**2139-2-4**]  05:01 PM
                             [**2139-2-5**]  03:44 AM
                             [**2139-2-5**]  12:13 PM
                             [**2139-2-5**]  04:55 PM
                             [**2139-2-6**]  01:59 AM
                             [**2139-2-6**]  07:48 AM
                             [**2139-2-6**]  03:03 PM
                             [**2139-2-7**]  05:29 AM
   WBC
   2.3
   2.6
   2.9
   2.3
   3.1
   3.9
   3.8
   Hct
   30.8
   28.9
   29.0
   25.1
   28.6
   29.0
   29.5
   28.7
   Plt
   20
   24
   21
   21
   19
   69
   45
   38
   Cr
   1.3
   1.3
   1.3
   1.4
   1.4
   1.6
   1.5
   TCO2
   22
   Glucose
   [**Telephone/Fax (3) 12940**]61
   163
   203
   Other labs: PT / PTT / INR:29.3/83.7/2.9,
   Ca++:6.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   83M with systolic heart failure, presenting from OSH with acute
   hypoexmic respiratory failure with evidence of BOOP and acute on CKI,
   altered mental status.  Course complicated by hypotension, GI bleeding.
   .
 RESPIRATORY FAILURE, ACUTE, HYPOXEMIC (NOT ARDS/[**Doctor Last Name 11**]):
   Differential of initial failure includes CHF, VAP, and obstructive lung
   disease (noted on CT chest from OSH) possibly with another unknown
   primary problem causing initial hemoptysis.  Patients last PFTs mild to
   moderate restrictive ventilatory defect.  [**Doctor First Name **], ANCA, anti-GBM
   negative.  Path report c/w BOOP.  Imaging from outside hospital shows
   clear RML hemorrhage post-bronchoscopy.  Current process is
   multifactorial: pulmonary hematoma, CHF, VAP and underlying COPD with
   ground glass opacities of unknown etiology. Current barriers to
   extubation are CHF, muscular weakness, and underlying poor reserves.
   - cont PSV trial daily
 control anxiety with klonipin
   - IP deferring trach until platelets consistently greater than 50, they
   will d/w surgery and make plan for next week
   - Continue to treat VAP with vanco/cipro/cefepime/flagyl
       - Vanc/Cipro/Cefepime
 d6 of 10
       - Flagyl d4/10
   .
   >.
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY- HIT Ab positive
   with RLE DVT. Started argatroban. SRA negative but heme/onc rec
   continue argatroban given DVT with TCP
   - argatroban with goal PTT 50-70
   - monitor platelets for recovery
   .
   >. FEVER: Febrile O/N. CXR showed RLL infiltrate concerning  for
   infection.  Neg blood and urine cx.  Prior sputum has grown pan-[**Last Name (un) 270**]
   Klebsiella but has been hospitalized and intubated >3 weeks so high
   risk of resistant organisms. D/Ced fem HD cath. Blood cx all neg.
   Consider removing lines if worsens or +blood cx.
   - f/u cx, monitor for clinical worsens, currently is improving
   - cont cefepime/cipro/vanco/flagyl as above
   .
   >. Pancytopenia
 Stopped meropenem which can cause pancytopenia. Smear
   unremarkable. HIT positive, SRA neg, +RLE DVT. WBC now trending up
   while platelets may be stablilzing.
   - appreciate heme/onc recs
   - transfuse for Hct>28, Plt>20
   - check [**Hospital1 7**] CBC
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)  DDx includes
   prerenal azotemia (poor forward flow, intravascular depletion),
   intrinsic. BUN elevated [**2-10**] GI bleed as well. s/p CVVH. BUN/Cr now
   trending up.
   - appreciate renal recs
   - Stopped Lasix, goal even today
   .
   >  GI BLEED
 Likely lower GIB, unclear source and patient never
   bleeding enough to scope. Now improved with only oozing when rectum
   cleaned. Also having oral mucosal bleeding, with friable mucosa.
   - cont to transfuse for goal Hct 28, plt 10 if not actively bleeding
   .
 ALTERED MENTAL STATUS (NOT DELIRIUM) Likely [**2-10**] poor hepatic
   clearance of sedatives and uremia causing toxic-metabolic
   encephalopathy.  MRI showedrior right MCA infarct, nothing acute.
   Patient now improving towards baseline, interactive and appropriate.
   .
 HYPOTENSION- resolved
   .
   > WEAKNESS -> likely [**2-10**] steroids, paralysis, prolonged ICU course.
   - Neuro thinks its critical care myopathy with superimposed steroid
   myopathy.
   .
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 evidence of
   worsening ischemia laterally in I, aVL and worsening CK, troponin
   elevation. Likely demand. Pt not on statin at baseline and not
   candidate for initiation given shock liver. holding ASA, due to GI
   bleed.
   -  transfuse goal Hct > 28
   .
   > BIVENTRICULAR SYSTOLIC HEART FAILURE-  Likely [**2-10**] CAD.  Will need to
   optimize regimen with ACEi, possibly B-blockage (if PR prolongation has
   resolved) once renal failure and GI bleed resolve.  Transfusion goal as
   above.  No pressor support currently needed.
   .
   #. ISCHEMIC HEPATITIS: Pt had LFTs c/w ischemic injury, trending down
   .
 DIABETES MELLITUS (DM), TYPE II
 cont insulin drip
   .
   # GOALS OF CARE: likely trach/PEG pending bleeding/anticoag issues
   ..
   FEN: TF
   .
   PPX:
   -DVT ppx with argatroban
   - raniditine
   -Bowel regimen
   -Pain management
   .
   ACCESS: PIV, right PICC
   .
   CODE STATUS:  DNR
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 453**] [**Last Name (LF) 5628**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12629**]
   .
   DISPOSITION:  [**Hospital Unit Name 1**] pending above
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2139-2-6**] 11:18 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2139-02-07 11:00:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.2
F - [**2139-2-6**] 09:00 PM
   Failed SBT yesterday, question of an anxiety component, stated on
   klonipin
   Some oozing per rectum, more brown mixed with melena, no BRBPR
   Moderate amount of thick tan secretions per ETT.
   Allergies:
   Heparin Agents
   positive hepari
   Last dose of Antibiotics:
   Cefipime - [**2139-2-6**] 12:15 PM
   Ciprofloxacin - [**2139-2-7**] 02:05 AM
   Metronidazole - [**2139-2-7**] 05:59 AM
   Vancomycin - [**2139-2-7**] 08:30 AM
   Infusions:
   Argatroban - 0.25 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-2-6**] 09:10 PM
   Midazolam (Versed) - [**2139-2-7**] 08:30 AM
   Fentanyl - [**2139-2-7**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-2-7**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.8
C (98.2
   HR: 90 (72 - 113) bpm
   BP: 107/40(57) {107/32(53) - 146/77(96)} mmHg
   RR: 29 (23 - 39) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 87.5 kg (admission): 105.5 kg
             Total In:
                                                                  6,311 mL
                                                                  3,833 mL
   PO:
             TF:
                                                                    845 mL
                                                                    370 mL
   IVF:
                                                                  3,329 mL
                                                                  2,658 mL
   Blood products:
                                                                    297 mL
   Total out:
                                                                  1,337 mL
                                                                    530 mL
   Urine:
                                                                  1,337 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,974 mL
                                                                  3,303 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 638 (500 - 647) mL
   PS : 20 cmH2O
   RR (Set): 16
   RR (Spontaneous): 30
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 180
   PIP: 29 cmH2O
   SpO2: 98%
   ABG: ///19/
   Ve: 18.9 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : occasional scattered)
   Abdominal: Soft, Bowel sounds present
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   38 K/uL
   203 mg/dL
   1.5 mg/dL
   19 mEq/L
   3.9 mEq/L
   92 mg/dL
   111 mEq/L
   141 mEq/L
   28.7 %
   3.8 K/uL
        [image002.jpg]
                             [**2139-2-3**]  05:14 PM
                             [**2139-2-4**]  03:12 AM
                             [**2139-2-4**]  05:01 PM
                             [**2139-2-5**]  03:44 AM
                             [**2139-2-5**]  12:13 PM
                             [**2139-2-5**]  04:55 PM
                             [**2139-2-6**]  01:59 AM
                             [**2139-2-6**]  07:48 AM
                             [**2139-2-6**]  03:03 PM
                             [**2139-2-7**]  05:29 AM
   WBC
   2.3
   2.6
   2.9
   2.3
   3.1
   3.9
   3.8
   Hct
   30.8
   28.9
   29.0
   25.1
   28.6
   29.0
   29.5
   28.7
   Plt
   20
   24
   21
   21
   19
   69
   45
   38
   Cr
   1.3
   1.3
   1.3
   1.4
   1.4
   1.6
   1.5
   TCO2
   22
   Glucose
   [**Telephone/Fax (3) 12940**]61
   163
   203
   Other labs: PT / PTT / INR:29.3/83.7/2.9, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:201/53, Alk Phos / T Bili:135/1.0,
   Differential-Neuts:78.0 %, Lymph:15.1 %, Mono:5.5 %, Eos:1.0 %,
   D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:409 IU/L, Ca++:6.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY:  Continues on
   argatroban as per heme.
 URINARY TRACT INFECTION (UTI):
 ATRIOVENTRICULAR (AV) BLOCK:
 THROMBOCYTOPENIA, ACUTE:  HITT positive.  Transfused yesterday for
   plt count 19K, count 38 today.  Continue to monitor counts.
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB):  Hct stable,
   stool more brown in appearance per nursing. GAS. Will need endoscopy.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]) ON CHRONIC:
   Multifactorial.  Now being treated for VAP.  Secretions improved. No
   new CXR to review.  Anticipate tracheostomy early next week.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):   Cr slightly down
   from yesterday.  Maintain even I/Os.
 HYPERNATREMIA (HIGH SODIUM):  Received free water replacement
   overnight. Na down to 141. Repleting free water albeit slowed down, and
   following serial electrolytes.
 DIABETES MELLITUS (DM), TYPE II:  Continue current management.
 NUTRITION: Tube feeds at goal.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2139-2-6**] 11:18 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2139-02-08 07:56:00 Physician Resident Progress Note
Chief Complaint: hypoxic resp failure, renal failure
   24 Hour Events:
   - Lasix 80mg x 1 since 4L positive
   - Hct stable
   - decreased free water boluses since Na improved
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsHeparin Agents
   positive hepari
   Last dose of Antibiotics:
   Vancomycin - [**2139-2-7**] 08:30 AM
   Cefipime - [**2139-2-7**] 12:29 PM
   Ciprofloxacin - [**2139-2-8**] 02:00 AM
   Metronidazole - [**2139-2-8**] 04:00 AM
   Infusions:
   Argatroban - 0.25 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2139-2-7**] 02:31 PM
   Midazolam (Versed) - [**2139-2-7**] 04:39 PM
   Furosemide (Lasix) - [**2139-2-7**] 10:20 PM
   Other medications:
   Changes to medical and family history:
   sleeping this A.M.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2139-2-8**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 65 (65 - 91) bpm
   BP: 93/45(56) {82/28(48) - 133/54(71)} mmHg
   RR: 20 (16 - 33) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 87.5 kg (admission): 105.5 kg
             Total In:
                                                                  5,497 mL
                                                                    767 mL
   PO:
             TF:
                                                                    843 mL
                                                                    276 mL
   IVF:
                                                                  3,399 mL
                                                                    391 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    365 mL
   Urine:
                                                                  1,100 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,397 mL
                                                                    402 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 625 (550 - 638) mL
   PS : 20 cmH2O
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 137
   PIP: 29 cmH2O
   SpO2: 99%
   ABG: ///20/
   Ve: 14.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anterior, Crackles : right base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   45 K/uL
   9.1 g/dL
   176 mg/dL
   1.7 mg/dL
   20 mEq/L
   3.9 mEq/L
   94 mg/dL
   105 mEq/L
   135 mEq/L
   26.7 %
   4.1 K/uL
        [image002.jpg]
                             [**2139-2-4**]  05:01 PM
                             [**2139-2-5**]  03:44 AM
                             [**2139-2-5**]  12:13 PM
                             [**2139-2-5**]  04:55 PM
                             [**2139-2-6**]  01:59 AM
                             [**2139-2-6**]  07:48 AM
                             [**2139-2-6**]  03:03 PM
                             [**2139-2-7**]  05:29 AM
                             [**2139-2-7**]  03:28 PM
                             [**2139-2-8**]  05:59 AM
   WBC
   2.9
   2.3
   3.1
   3.9
   3.8
   5.0
   4.1
   Hct
   29.0
   25.1
   28.6
   29.0
   29.5
   28.7
   28.3
   26.7
   Plt
   21
   21
   19
   69
   45
   38
   37
   45
   Cr
   1.3
   1.4
   1.4
   1.6
   1.5
   1.5
   1.7
   TCO2
   22
   Glucose
   255
   226
   261
   163
   203
   121
   176
   Other labs: PT / PTT / INR:21.4/59.7/2.0, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:201/53, Alk Phos / T Bili:135/1.0,
   Differential-Neuts:81.0 %, Lymph:14.3 %, Mono:3.8 %, Eos:0.8 %,
   D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:409 IU/L, Ca++:6.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 URINARY TRACT INFECTION (UTI)
 ATRIOVENTRICULAR (AV) BLOCK
 BACTEREMIA
 THROMBOCYTOPENIA, ACUTE
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERNATREMIA (HIGH SODIUM)
 DIABETES MELLITUS (DM), TYPE II
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assessment and Plan
   83M with systolic heart failure, presenting from OSH with acute
   hypoexmic respiratory failure with evidence of BOOP and acute on CKI,
   altered mental status.  Course complicated by hypotension, GI bleeding.
   .
 RESPIRATORY FAILURE, ACUTE, HYPOXEMIC (NOT ARDS/[**Doctor Last Name 11**]):
   Differential of initial failure includes CHF, VAP, and obstructive lung
   disease (noted on CT chest from OSH) possibly with another unknown
   primary problem causing initial hemoptysis.  Patients last PFTs mild to
   moderate restrictive ventilatory defect.  [**Doctor First Name **], ANCA, anti-GBM
   negative.  Path report c/w BOOP.  Imaging from outside hospital shows
   clear RML hemorrhage post-bronchoscopy.  Current process is
   multifactorial: pulmonary hematoma, CHF, VAP and underlying COPD with
   ground glass opacities of unknown etiology. Current barriers to
   extubation are CHF, muscular weakness, and underlying poor reserves.
   - cont PSV trial daily
 control anxiety with klonipin daily
   - IP deferring trach until platelets consistently greater than 50, they
   will d/w surgery and make plan for next week
   - Continue to treat VAP with vanco/cipro/cefepime/flagyl
       - Vanc/Cipro/Cefepime
 d7 of 8, hold vanc this morning, may need
   to renally dose meds given decreasing clearance, will check trough
       - Flagyl d5/8
   - follow up speciation of GNRs in sputum, likely Klebsiella
   .
   >.
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY- HIT Ab positive
   with RLE DVT. Started argatroban. SRA negative but heme/onc rec
   continue argatroban given DVT with TCP
   - argatroban with goal PTT 50-70
   - monitor platelets for recovery
   .
   >. FEVER: Febrile 36 hours ago, no fever in past 24 hours. CXR showed
   RLL infiltrate concerning  for infection.  Neg blood and urine cx.
   Prior sputum has grown pan-[**Last Name (un) 270**] Klebsiella but has been hospitalized
   and intubated >3 weeks so high risk of resistant organisms. D/Ced fem
   HD cath. Blood cx all neg. Consider removing lines if worsens or +blood
   cx.
   - f/u cx, monitor for clinical worsens, currently is improving
   - cont cefepime/cipro/vanco/flagyl as above
   .
   >. Pancytopenia
 Stopped meropenem which can cause pancytopenia. Smear
   unremarkable. HIT positive, SRA neg, +RLE DVT. WBC now trending up
   while platelets may be stablilzing/slowly improving.
   - appreciate heme/onc recs
   - transfuse for Hct>30, Plt>20
   - check [**Hospital1 7**] CBC
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)  DDx includes
   prerenal azotemia (poor forward flow, intravascular depletion),
   intrinsic. BUN elevated [**2-10**] GI bleed as well. s/p CVVH. BUN/Cr now
   trending up.
   - appreciate renal recs
   - goal even today
   - will minimize fluid intake with Abx, free water boluses
   - goal fluid balance even to slightly positive 500-1000cc
   .
   >  GI BLEED
 Likely lower GIB, unclear source and patient never
   bleeding enough to scope. Now improved with only oozing when rectum
   cleaned. Also having oral mucosal bleeding, with friable mucosa.  Stool
   brown today, LGIB nearing resolution.
   - cont to transfuse for goal Hct 30, plt 10 if not actively bleeding
   .
 ALTERED MENTAL STATUS (NOT DELIRIUM) Likely [**2-10**] poor hepatic
   clearance of sedatives and uremia causing toxic-metabolic
   encephalopathy.  MRI showedrior right MCA infarct, nothing acute.
   Patient now improving towards baseline, interactive and appropriate.
   .
 HYPOTENSION- resolved
   .
   > WEAKNESS -> likely [**2-10**] steroids, paralysis, prolonged ICU course.
   - Neuro thinks its critical care myopathy with superimposed steroid
   myopathy.
   .
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 evidence of
   worsening ischemia laterally in I, aVL and worsening CK, troponin
   elevation. Likely demand. Pt not on statin at baseline and not
   candidate for initiation given shock liver. holding ASA, due to GI
   bleed.
   -  transfuse goal Hct > 30
   .
   > BIVENTRICULAR SYSTOLIC HEART FAILURE-  Likely [**2-10**] CAD.  Will need to
   optimize regimen with ACEi, possibly B-blockage (if PR prolongation has
   resolved) once renal failure and GI bleed resolve.  Transfusion goal as
   above.  No pressor support currently needed.
   - will need afterload reduction with ACEi once [**Last Name (un) **] resolves
   - avoid B blockade given significant first degree heart block
   .
   #. ISCHEMIC HEPATITIS: Pt had LFTs c/w ischemic injury, trending down
   .
 DIABETES MELLITUS (DM), TYPE II
 cont insulin drip
   .
   # GOALS OF CARE: likely trach/PEG pending bleeding/anticoag issues
   ..
   FEN: TF
   .
   PPX:
   -DVT ppx with argatroban
   - raniditine
   -Bowel regimen
   -Pain management
   .
   ACCESS: PIV, right PICC
   .
   CODE STATUS:  DNR
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 453**] [**Last Name (LF) 5628**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12629**]
   .
   DISPOSITION:  [**Hospital Unit Name 1**] pending above
   ICU Care
 see above
   Nutrition:
   Replete with Fiber (Full) - [**2139-2-7**] 11:13 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2139-02-08 11:35:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Received lasix x 1 overnight for positive fluid balance
   Transfused 1 u pRBCs for HCT 26
   Secretions pre ETT, thick tan, unchanged, moderate.  Mobilized with
   turning.
   Stool brown, no melena/BRBPR.
   History obtained from Patient
   Allergies:
   Heparin Agents
   positive hepari
   Last dose of Antibiotics:
   Vancomycin - [**2139-2-7**] 08:30 AM
   Cefipime - [**2139-2-7**] 12:29 PM
   Ciprofloxacin - [**2139-2-8**] 02:00 AM
   Metronidazole - [**2139-2-8**] 04:00 AM
   Infusions:
   Argatroban - 0.5 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2139-2-7**] 02:31 PM
   Midazolam (Versed) - [**2139-2-7**] 04:39 PM
   Furosemide (Lasix) - [**2139-2-7**] 10:20 PM
   Famotidine (Pepcid) - [**2139-2-8**] 08:46 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Endocrine: Hyperglycemia
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-2-8**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 66 (65 - 91) bpm
   BP: 121/32(54) {82/28(48) - 133/54(72)} mmHg
   RR: 26 (16 - 33) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 87.5 kg (admission): 105.5 kg
           Total In:
                                                                  5,497 mL
                                                                  1,334 mL
   PO:
           TF:
                                                                    843 mL
                                                                    390 mL
   IVF:
                                                                  3,399 mL
                                                                    469 mL
   Blood products:
   375 mL
   Total out:
                                                                  1,100 mL
                                                                    655 mL
   Urine:
                                                                  1,100 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,397 mL
                                                                    679 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 620 (550 - 625) mL
   PS : 20 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 137
   PIP: 25 cmH2O
   SpO2: 98%
   ABG: 7.43/28/110/20/-3
   Ve: 15.7 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : dependently)
   Abdominal: Soft, Non-tender
   Extremities: anasarca
   Musculoskeletal: Unable to stand
   Skin:  Warm, Stage II to III coccyx breakdown
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   45 K/uL
   176 mg/dL
   1.7 mg/dL
   20 mEq/L
   3.9 mEq/L
   94 mg/dL
   105 mEq/L
   135 mEq/L
   26.7 %
   4.1 K/uL
        [image002.jpg]
                             [**2139-2-5**]  03:44 AM
                             [**2139-2-5**]  12:13 PM
                             [**2139-2-5**]  04:55 PM
                             [**2139-2-6**]  01:59 AM
                             [**2139-2-6**]  07:48 AM
                             [**2139-2-6**]  03:03 PM
                             [**2139-2-7**]  05:29 AM
                             [**2139-2-7**]  03:28 PM
                             [**2139-2-8**]  05:59 AM
                             [**2139-2-8**]  08:37 AM
   WBC
   2.3
   3.1
   3.9
   3.8
   5.0
   4.1
   Hct
   25.1
   28.6
   29.0
   29.5
   28.7
   28.3
   26.7
   Plt
   21
   19
   69
   45
   38
   37
   45
   Cr
   1.4
   1.4
   1.6
   1.5
   1.5
   1.7
   TCO2
   22
   19
   Glucose
   [**Telephone/Fax (2) 12961**]
   Other labs: PT / PTT / INR:21.4/59.7/2.0, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:201/53, Alk Phos / T Bili:135/1.0,
   Differential-Neuts:81.0 %, Lymph:14.3 %, Mono:3.8 %, Eos:0.8 %,
   D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:409 IU/L, Ca++:6.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY:  Continues on
   argatroban.
 THROMBOCYTOPENIA, ACUTE:  Platelet count slightly up today.
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB):  Transfused 1
   u pRBCs for Hct 26, goal higher given underlying CAD. Diuresed with
   blood transfusion.  Given that we are anticipating placement of PEG,
   will readdress need for EGD with GI team prior to this procedure.
   Stool appears brown without melena or BRBPR.
 HYPOTENSION (NOT SHOCK): Resolved.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  PEEP weaned to 5
   overnight.  VAP on vanco/cefipime/cipro/flagyl.  Grown Klebsiella in
   the past. Now with GNRs on gram stain again.  Not clear he has a new
   process as secretions seem to be clearing of old process.  Followup on
   final ID of GNRs, follow clinically without change in antibiotic
   course.  Anticipate tracheostomy per IP/surgical service in the OR,
   ?Monday.  Will check with them, hold tube feeds and anticoagulation
   prior to procedure.
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE):  Stable.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Cr slightly
   increased.  Maybe will improve intravascular status in setting of blood
   transfusion.
 HYPERNATREMIA (HIGH SODIUM):  Improved with free water replacement.
 DIABETES MELLITUS (DM), TYPE II:  RISS, consider increase glargine.
 ALTERED MENTAL STATUS (NOT DELIRIUM): Awake and answering questions
   appropriately this morning.
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2139-2-7**] 11:13 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, aratroban)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held  Comments: spoke with son this
   morning to updata on plans for trach/PEG
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2139-02-09 07:37:00 Physician Resident Progress Note
Chief Complaint: Hypoxic respiratory failure/renal failure
   24 Hour Events:
   [**2139-2-8**]:
   - vanc trough elevated, changed to Q48
   - pre-renal urine lytes, avoided furosemide today
   - awaiting Thoracics time for trach/PEG
   - [**2139-2-6**] sputum GNRs, still awating speciation
   - Pt continues to have maroon colored stools
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Heparin Agents
   positive hepari
   Last dose of Antibiotics:
   Vancomycin - [**2139-2-7**] 08:30 AM
   Cefipime - [**2139-2-8**] 12:19 PM
   Ciprofloxacin - [**2139-2-9**] 02:00 AM
   Metronidazole - [**2139-2-9**] 06:30 AM
   Infusions:
   Argatroban - 0.5 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-2-8**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Pt is able to communicate that he is not in pain or discomfort. Can
   wiggle all four extremities but cannot raise either arm.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-9**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 82 (66 - 87) bpm
   BP: 88/46(54) {88/32(54) - 138/69(85)} mmHg
   RR: 18 (18 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm), 1st AV (First degree AV Block)
   Wgt (current): 87.5 kg (admission): 105.5 kg
             Total In:
                                                                  2,911 mL
                                                                    886 mL
   PO:
             TF:
                                                                    899 mL
                                                                    328 mL
   IVF:
                                                                  1,167 mL
                                                                    398 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,350 mL
                                                                    610 mL
   Urine:
                                                                  1,350 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,561 mL
                                                                    276 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 627 (572 - 661) mL
   PS : 18 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   SpO2: 99%
   ABG: 7.39/35/36/20/-2
   Ve: 14.1 L/min
   PaO2 / FiO2: 90
   Physical Examination
   GEN: Alert, is able to wiggle toes and squeeze fingers to command. Is
   able to communicate negative for pain/discomfort.
   HEENT: MMM, oropharynx clear
   CV: RRR, no RMG
   PULM: CTAB, no WRR
   ABD: NTND, +BS, soft, no guarding
   EXT: 1+ bl pitting edema
   Skin:  No rash
   Neurologic: Responds to: voice, Movement: x4 spontaneous
   Labs / Radiology
   57 K/uL
   10.1 g/dL
   92 mg/dL
   1.7 mg/dL
   20 mEq/L
   3.6 mEq/L
   96 mg/dL
   107 mEq/L
   136 mEq/L
   29.9 %
   4.3 K/uL
        [image002.jpg]
                             [**2139-2-6**]  07:48 AM
                             [**2139-2-6**]  03:03 PM
                             [**2139-2-7**]  05:29 AM
                             [**2139-2-7**]  03:28 PM
                             [**2139-2-8**]  05:59 AM
                             [**2139-2-8**]  08:37 AM
                             [**2139-2-8**]  04:31 PM
                             [**2139-2-8**]  05:37 PM
                             [**2139-2-9**]  06:30 AM
                             [**2139-2-9**]  06:32 AM
   WBC
   3.9
   3.8
   5.0
   4.1
   4.2
   4.3
   Hct
   29.5
   28.7
   28.3
   26.7
   27.8
   29.9
   Plt
   69
   45
   38
   37
   45
   42
   57
   Cr
   1.6
   1.5
   1.5
   1.7
   1.7
   TCO2
   19
   22
   Glucose
   163
   203
   121
   176
   92
   Other labs: PT / PTT / INR:21.4/59.7/2.0, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:201/53, Alk Phos / T Bili:135/1.0,
   Differential-Neuts:83.7 %, Lymph:11.5 %, Mono:4.0 %, Eos:0.4 %,
   D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:409 IU/L, Ca++:6.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.6
   mg/dL
   Imaging: CXR AP [**2139-2-8**]
   Pulmonary edema has improved throughout the right lung and in the upper
   portion of the left. Moderate right pleural effusion, however, has
   increased and the heterogeneous opacification in the left mid lung
   could be residual edema or pneumonia. Heart size is normal. ET tube is
   in standard placement and the right PICC line ends just before the
   junction of the brachiocephalic veins and a nasogastric tube passes
   below the diaphragm and out of view. No pneumothorax.
   Microbiology:    RESPIRATORY CULTURE (Final [**2139-2-8**]):
         Commensal Respiratory Flora Absent.
         YEAST.    SPARSE GROWTH.
         GRAM NEGATIVE ROD(S).    RARE GROWTH.
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 URINARY TRACT INFECTION (UTI)
 ATRIOVENTRICULAR (AV) BLOCK
 BACTEREMIA
 THROMBOCYTOPENIA, ACUTE
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   83M with systolic heart failure, presenting from OSH with acute
   hypoexmic respiratory failure with evidence of BOOP and acute on CKI,
   altered mental status.  Course complicated by hypotension, GI bleeding.
   .
 RESPIRATORY FAILURE, ACUTE, HYPOXEMIC (NOT ARDS/[**Doctor Last Name 11**]):
   Differential of initial failure includes CHF, VAP, and obstructive lung
   disease (noted on CT chest from OSH) possibly with another unknown
   primary problem causing initial hemoptysis.  Patients last PFTs mild to
   moderate restrictive ventilatory defect.  [**Doctor First Name **], ANCA, anti-GBM
   negative.  Path report c/w BOOP.  Imaging from outside hospital shows
   clear RML hemorrhage post-bronchoscopy.  Current process is
   multifactorial: pulmonary hematoma, CHF, VAP and underlying COPD with
   ground glass opacities of unknown etiology. Current barriers to
   extubation are CHF, muscular weakness, and underlying poor reserves.
   - cont PSV trial daily
 control anxiety with klonipin daily
   - Plan for trach tomorrow, d/w thoracic surgery, they will have pt
   transferred to West MICU tomorrow morning then do trach there then
   return pt here after 24 hours.
   - Holding argatroban tonight for possible procedure tomorrow
   - Continue to treat VAP with vanco/cipro/cefepime/flagyl
      - Vancomycin changed from 1gm Q24 to 1gm Q48 given vanc trough of
   21.
      - Vancomycin started on [**2-2**], then restarted
   [**2139-2-1**]-present for a total of 12 days of 14 thus far.
      - Cipro [**Date range (3) 12975**], then restarted [**2139-2-2**]-present for a total
   of 10 days so far, continue for 4 more days (last dose [**2139-2-12**])
      - Cefepime started [**2139-2-1**] for day 9 of 14 (last dose [**2139-2-14**]).
      - Flagyl started on [**2139-2-5**] for day 5 of 14 (last dose [**2139-2-18**])
   - follow up speciation of GNRs in sputum, likely Klebsiella
   .
   >.
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY- HIT Ab positive
   with RLE DVT. Started argatroban. SRA negative but heme/onc rec
   continue argatroban given DVT with TCP
   - Continue argatroban with goal PTT 50-70
   - Continue to monitor platelets for recovery
   .
   >. FEVER: Febrile 60 hours ago, no fever in past 24 hours. CXR showed
   RLL infiltrate concerning  for infection.  Neg blood and urine cx.
   Prior sputum has grown pan-[**Last Name (un) 270**] Klebsiella but has been hospitalized
   and intubated >3 weeks so high risk of resistant organisms. D/Ced fem
   HD cath. Blood cx all neg. Consider removing lines if worsens or +blood
   cx.
   - f/u cx, monitor for clinical worsens, currently is improving
   - cont cefepime/cipro/vanco/flagyl as above
   .
   >. Pancytopenia
 Stopped meropenem which can cause pancytopenia. Smear
   unremarkable. HIT positive, SRA neg, +RLE DVT. WBC now trending up
   while platelets may be stablilzing/slowly improving. Pt continues to
   have maroon colored stools. Pt with stable hematocrits.
   - appreciate heme/onc recs
   - transfuse for Hct>27, Plt>20
   - check [**Hospital1 7**] CBC
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)  DDx includes
   prerenal azotemia (poor forward flow, intravascular depletion),
   intrinsic. BUN elevated [**2-10**] GI bleed as well. s/p CVVH. BUN/Cr now
   trending up.
   - appreciate renal recs
   - goal even today
   - will minimize fluid intake with Abx, free water boluses
   - goal fluid balance even to slightly positive 500-1000cc
   .
   >  GI BLEED
 Likely lower GIB, unclear source and patient never
   bleeding enough to scope. Also having oral mucosal bleeding, with
   friable mucosa.  Stool maroon today suggesting return of GI bleed,
   again likely lower. HCTs stable .
   - cont to transfuse for goal Hct 27, plt 10 if not actively bleeding
   - [**Hospital1 7**] hct checks
   .
 ALTERED MENTAL STATUS (NOT DELIRIUM) Much improved at this point.
   Likely [**2-10**] poor hepatic clearance of sedatives and uremia causing
   toxic-metabolic encephalopathy.  MRI showedrior right MCA infarct,
   nothing acute. Patient now improving towards baseline, interactive and
   appropriate.
   .
 HYPOTENSION- resolved
   .
   > WEAKNESS -> likely [**2-10**] steroids, paralysis, prolonged ICU course.
   Neuro thinks its critical care myopathy with superimposed steroid
   myopathy.
   -
   .
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 evidence of
   worsening ischemia laterally in I, aVL and worsening CK, troponin
   elevation. Likely demand. Pt not on statin at baseline and not
   candidate for initiation given shock liver. holding ASA, due to GI
   bleed.
   -  transfuse goal Hct > 27
   .
   > BIVENTRICULAR SYSTOLIC HEART FAILURE-  Likely [**2-10**] CAD.  Will need to
   optimize regimen with ACEi, possibly B-blockage (if PR prolongation has
   resolved) once renal failure and GI bleed resolve.  Transfusion goal as
   above.  No pressor support currently needed.
   - will need afterload reduction with ACEi once [**Last Name (un) **] resolves
   - avoid B blockade for now given significant first degree heart block
   .
   #. ISCHEMIC HEPATITIS: Pt had LFTs c/w ischemic injury, trending down
   .
 DIABETES MELLITUS (DM), TYPE II
 cont SSI
   .
   # GOALS OF CARE: likely trach tomorrow pending bleeding/anticoag
   issues. PEG is a more long term goal after infection and GI bleeding
   resolves.
   ..
   FEN: TF
   .
   PPX:
   -DVT ppx with argatroban
   - raniditine
   -Bowel regimen
   -Pain management
 no pain at the moment
   .
   ACCESS: right PICC
   .
   CODE STATUS:  DNR
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 453**] [**Last Name (LF) 5628**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12629**]
   .
   DISPOSITION:  [**Hospital Unit Name 1**] pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2139-02-10 07:20:00 Physician Resident Progress Note
Chief Complaint: Hypoxic Respiratory failure
   24 Hour Events:
   [**2139-2-9**]:
   - Going to [**Hospital Ward Name 742**] MICU then in PM for trach placement today in
   special OR room so needs MICU bed. Will likely return to [**Hospital Unit Name 1**] [**2139-2-11**] in
   the PM
   - GNRs still not speciated
   - Given Lasix 80mg IV ONCE plus 20meq KCl
   - Platelets holding at >50
   - Holding Argatroban at 6am
   History obtained from Patient
   Allergies:
   History obtained from PatientHeparin Agents
   positive hepari
   Last dose of Antibiotics:
   Vancomycin - [**2139-2-9**] 08:00 AM
   Cefipime - [**2139-2-9**] 12:17 PM
   Ciprofloxacin - [**2139-2-10**] 02:11 AM
   Metronidazole - [**2139-2-10**] 05:42 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2139-2-9**] 08:30 PM
   Furosemide (Lasix) - [**2139-2-9**] 11:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-10**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (96.9
   HR: 81 (64 - 83) bpm
   BP: 128/66(83) {88/32(47) - 130/66(83)} mmHg
   RR: 31 (20 - 32) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 91.7 kg (admission): 105.5 kg
             Total In:
                                                                  2,285 mL
                                                                    391 mL
   PO:
             TF:
                                                                    798 mL
   IVF:
                                                                  1,267 mL
                                                                    391 mL
   Blood products:
   Total out:
                                                                  1,510 mL
                                                                  1,240 mL
   Urine:
                                                                  1,510 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    775 mL
                                                                   -849 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 714 (658 - 834) mL
   PS : 18 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 77
   PIP: 24 cmH2O
   SpO2: 99%
   ABG: ///20/
   Ve: 14.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   61 K/uL
   9.5 g/dL
   105 mg/dL
   1.6 mg/dL
   20 mEq/L
   3.6 mEq/L
   88 mg/dL
   110 mEq/L
   138 mEq/L
   27.9 %
   4.1 K/uL
        [image002.jpg]
                             [**2139-2-7**]  05:29 AM
                             [**2139-2-7**]  03:28 PM
                             [**2139-2-8**]  05:59 AM
                             [**2139-2-8**]  08:37 AM
                             [**2139-2-8**]  04:31 PM
                             [**2139-2-8**]  05:37 PM
                             [**2139-2-9**]  06:30 AM
                             [**2139-2-9**]  06:32 AM
                             [**2139-2-9**]  05:31 PM
                             [**2139-2-10**]  05:16 AM
   WBC
   3.8
   5.0
   4.1
   4.2
   4.3
   4.7
   4.1
   Hct
   28.7
   28.3
   26.7
   27.8
   29.9
   28.0
   27.9
   Plt
   38
   37
   45
   42
   57
   61
   61
   Cr
   1.5
   1.5
   1.7
   1.7
   1.7
   1.6
   1.6
   TCO2
   19
   22
   Glucose
   [**Telephone/Fax (3) 12992**]2
   125
   187
   105
   Other labs: PT / PTT / INR:26.3/67.7/2.6, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:201/53, Alk Phos / T Bili:135/1.0,
   Differential-Neuts:82.7 %, Lymph:10.9 %, Mono:5.5 %, Eos:0.6 %,
   D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:409 IU/L, Ca++:6.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 URINARY TRACT INFECTION (UTI)
 ATRIOVENTRICULAR (AV) BLOCK
 BACTEREMIA
 THROMBOCYTOPENIA, ACUTE
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERNATREMIA (HIGH SODIUM)
 DIABETES MELLITUS (DM), TYPE II
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   83M with systolic heart failure, presenting from OSH with acute
   hypoexmic respiratory failure with evidence of BOOP and acute on CKI,
   altered mental status.  Course complicated by hypotension, GI bleeding.
   .
 RESPIRATORY FAILURE, ACUTE, HYPOXEMIC (NOT ARDS/[**Doctor Last Name 11**]):
   Differential of initial failure includes CHF, VAP, and obstructive lung
   disease (noted on CT chest from OSH) possibly with another unknown
   primary problem causing initial hemoptysis.  Patients last PFTs mild to
   moderate restrictive ventilatory defect.  [**Doctor First Name **], ANCA, anti-GBM
   negative.  Path report c/w BOOP.  Imaging from outside hospital shows
   clear RML hemorrhage post-bronchoscopy.  Current process is
   multifactorial: pulmonary hematoma, CHF, VAP and underlying COPD with
   ground glass opacities of unknown etiology. Current barriers to
   extubation are CHF, muscular weakness, and underlying poor reserves.
   - cont PSV trial daily
 control anxiety with klonipin daily
   - Plan for trach tomorrow, d/w thoracic surgery, they will have pt
   transferred to West MICU tomorrow morning then do trach there then
   return pt here after 24 hours.
   - Holding argatroban tonight for possible procedure tomorrow
   - Continue to treat VAP with vanco/cipro/cefepime/flagyl
      - Vancomycin changed from 1gm Q24 to 1gm Q48 given vanc trough of
   21.
      - Vancomycin started on [**2-2**], then restarted
   [**2139-2-1**]-present for a total of 12 days of 14 thus far.
      - Cipro [**Date range (3) 12975**], then restarted [**2139-2-2**]-present for a total
   of 10 days so far, continue for 4 more days (last dose [**2139-2-12**])
      - Cefepime started [**2139-2-1**] for day 9 of 14 (last dose [**2139-2-14**]).
      - Flagyl started on [**2139-2-5**] for day 5 of 14 (last dose [**2139-2-18**])
   - follow up speciation of GNRs in sputum, likely Klebsiella
   .
   >.
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY- HIT Ab positive
   with RLE DVT. Started argatroban. SRA negative but heme/onc rec
   continue argatroban given DVT with TCP
   - Continue argatroban with goal PTT 50-70
   - Continue to monitor platelets for recovery
   .
   >. FEVER: Febrile 60 hours ago, no fever in past 24 hours. CXR showed
   RLL infiltrate concerning  for infection.  Neg blood and urine cx.
   Prior sputum has grown pan-[**Last Name (un) 270**] Klebsiella but has been hospitalized
   and intubated >3 weeks so high risk of resistant organisms. D/Ced fem
   HD cath. Blood cx all neg. Consider removing lines if worsens or +blood
   cx.
   - f/u cx, monitor for clinical worsens, currently is improving
   - cont cefepime/cipro/vanco/flagyl as above
   .
   >. Pancytopenia
 Stopped meropenem which can cause pancytopenia. Smear
   unremarkable. HIT positive, SRA neg, +RLE DVT. WBC now trending up
   while platelets may be stablilzing/slowly improving. Pt continues to
   have maroon colored stools. Pt with stable hematocrits.
   - appreciate heme/onc recs
   - transfuse for Hct>27, Plt>20
   - check [**Hospital1 7**] CBC
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)  DDx includes
   prerenal azotemia (poor forward flow, intravascular depletion),
   intrinsic. BUN elevated [**2-10**] GI bleed as well. s/p CVVH. BUN/Cr now
   trending up.
   - appreciate renal recs
   - goal even today
   - will minimize fluid intake with Abx, free water boluses
   - goal fluid balance even to slightly positive 500-1000cc
   .
   >  GI BLEED
 Likely lower GIB, unclear source and patient never
   bleeding enough to scope. Also having oral mucosal bleeding, with
   friable mucosa.  Stool maroon today suggesting return of GI bleed,
   again likely lower. HCTs stable .
   - cont to transfuse for goal Hct 27, plt 10 if not actively bleeding
   - [**Hospital1 7**] hct checks
   .
 ALTERED MENTAL STATUS (NOT DELIRIUM) Much improved at this point.
   Likely [**2-10**] poor hepatic clearance of sedatives and uremia causing
   toxic-metabolic encephalopathy.  MRI showedrior right MCA infarct,
   nothing acute. Patient now improving towards baseline, interactive and
   appropriate.
   .
 HYPOTENSION- resolved
   .
   > WEAKNESS -> likely [**2-10**] steroids, paralysis, prolonged ICU course.
   Neuro thinks its critical care myopathy with superimposed steroid
   myopathy.
   -
   .
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 evidence of
   worsening ischemia laterally in I, aVL and worsening CK, troponin
   elevation. Likely demand. Pt not on statin at baseline and not
   candidate for initiation given shock liver. holding ASA, due to GI
   bleed.
   -  transfuse goal Hct > 27
   .
   > BIVENTRICULAR SYSTOLIC HEART FAILURE-  Likely [**2-10**] CAD.  Will need to
   optimize regimen with ACEi, possibly B-blockage (if PR prolongation has
   resolved) once renal failure and GI bleed resolve.  Transfusion goal as
   above.  No pressor support currently needed.
   - will need afterload reduction with ACEi once [**Last Name (un) **] resolves
   - avoid B blockade for now given significant first degree heart block
   .
   #. ISCHEMIC HEPATITIS: Pt had LFTs c/w ischemic injury, trending down
   .
 DIABETES MELLITUS (DM), TYPE II
 cont SSI
   .
   # GOALS OF CARE: likely trach tomorrow pending bleeding/anticoag
   issues. PEG is a more long term goal after infection and GI bleeding
   resolves.
   ..
   FEN: TF
   .
   PPX:
   -DVT ppx with argatroban
   - raniditine
   -Bowel regimen
   -Pain management
 no pain at the moment
   .
   ACCESS: right PICC
   .
   CODE STATUS:  DNR
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 453**] [**Last Name (LF) 5628**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12629**]
   .
   DISPOSITION:  [**Hospital Unit Name 1**] pending above
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 83M ?BOOP, hemoptysis, respiratory failure,
   ARF, DVT / low plts on argatroban.
   Exam notable for Tm 98.6 BP 111/55 HR 82 RR 18 with sat 99 on PSV 18/5
   0.4 7.39/35/36 (v). WD man, follows commands. Can raise shoulders
   against gravity, but can
t lift arms or legs off bed, weak handgrip.
   Coarse BS B. RRR s1s2. Soft +BS. 2+ edema. Labs notable for WBC 3.7K,
   HCT 30, K+ 3.7, Cr 1.7, INR 2.3.
   Agree with plan to manage multifactorial respiratory failure with
   ongoing supportive care for ILD/BOOP (off steroids for the moment given
   profound weakness), abx for nosocomial pneumonia, gentle diuresis for
   acute-on-chronic systolic CHF. Will consider repeat CT here (I-) to
   assess effusions and current state of parenchymal disease, but will
   hold off for the moment. [**Name2 (NI) 133**] need trach in the near future, patient
   appears OK with this, PLTs now >50K, BBS on file. Plan d/w Dr. [**First Name (STitle) **]
   (T-[**Doctor First Name **]) - will transfer to West MICU team in AM with plan for OR
   tomorrow as add-on case. Slow GIB, follow HCT, d/w thoracics prior to
   OR - may be worth EGD in OR, suspect lower source, PPI, xfuse as
   needed. Will continue argatroban despite low grade GIB for femoral DVT.
   Acute on chronic renal failure - resume baseline lasix dose in AM, goal
   today slightly negative. DNR. Remainder of plan as outlined above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2139-02-11 09:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Mr [**Known lastname 12627**] is an 83 year old man with systolic heart failure (30-40% EF,
   chronic renal insufficience, type II diabetes, admitted to [**Hospital1 19**] on
   [**1-21**] for respiratory failure after undergoing bronch for evaluation of
   ground glass opacities. ICU course notable for persistent hypoxemic
   respiratory failure, prolonged intubation, possible HIT, DVT, GI bleed,
   pancytopenia, recurrent VAP, critical illness neuromyopathy
   24 Hour Events:
   Overnight no events.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Heparin Agents
   positive hepari
   Last dose of Antibiotics:
   Vancomycin - [**2139-2-9**] 08:00 AM
   Cefipime - [**2139-2-9**] 12:17 PM
   Ciprofloxacin - [**2139-2-11**] 01:51 AM
   Metronidazole - [**2139-2-11**] 05:27 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-2-10**] 08:26 PM
   Other medications:
   RISS, Peridex, Flagyl, Argatroban held, Lantus, Klonopin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-11**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 83 (70 - 95) bpm
   BP: 120/64(78) {91/30(52) - 142/85(96)} mmHg
   RR: 16 (15 - 34) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 91.7 kg (admission): 105.5 kg
           Total In:
                                                                  1,902 mL
                                                                    708 mL
   PO:
           TF:
   IVF:
                                                                    879 mL
                                                                    440 mL
   Blood products:
                                                                  1,024 mL
                                                                    188 mL
   Total out:
                                                                  2,460 mL
                                                                    555 mL
   Urine:
                                                                  2,460 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -558 mL
                                                                    153 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 723 (532 - 731) mL
   PS : 20 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   SpO2: 100%
   ABG: 7.43/28/110 ([**2139-2-7**])
   Ve: 15 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : L > R laterally, No(t)
   Rhonchorous: )
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, anasarca
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   132 K/uL
   127 mg/dL
   1.5 mg/dL
   20 mEq/L
   3.8 mEq/L
   81 mg/dL
   112 mEq/L
   142 mEq/L
   33.7 %
   6.2 K/uL
        [image002.jpg]
                             [**2139-2-8**]  05:37 PM
                             [**2139-2-9**]  06:30 AM
                             [**2139-2-9**]  06:32 AM
                             [**2139-2-9**]  05:31 PM
                             [**2139-2-10**]  05:16 AM
                             [**2139-2-10**]  09:53 AM
                             [**2139-2-10**]  01:43 PM
                             [**2139-2-10**]  09:54 PM
                             [**2139-2-11**]  12:50 AM
                             [**2139-2-11**]  03:32 AM
   WBC
   4.3
   4.7
   4.1
   6.2
   Hct
   29.9
   28.0
   27.9
   29.6
   25.8
   27.5
   28.3
   33.7
   Plt
   57
   61
   61
   132
   Cr
   1.7
   1.7
   1.6
   1.6
   1.5
   TCO2
   22
   Glucose
   92
   125
   187
   105
   127
   Other labs: PT / PTT / INR:16.6/34.9/1.5, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:201/53, Alk Phos / T Bili:135/1.0,
   Differential-Neuts:84.0 %, Band:0.0 %, Lymph:7.0 %, Mono:7.0 %, Eos:0.0
   %, D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:409 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   83 year old man with systolic heart failure (30-40% EF, chronic renal
   insufficience, type II diabetes, admitted to [**Hospital1 19**] on [**1-21**] for
   respiratory failure after undergoing bronch for evaluation of ground
   glass opacities. ICU course notable for persistent hypoxemic
   respiratory failure, prolonged intubation, possible HIT, DVT, GI bleed,
   pancytopenia, recurrent VAP, critical illness neuromyopathy
   (1) RESP FAILURE- recurrent VAP now resolved, fluid overload, possible
   BOOP?, hx COPD
   -off abx today after 14d course for most recent VAP
   -no wheeze today; monitor
   -might benefit from agressive diuresis; will discuss more seriously
   after procedures today
   -to go for trach today
   (2) CHF- poor EF and fluid overload
   -? if would benefit from low-dose BB; defer for now
   (3) GI BLEED- follow serial Hct today
   -will eventually need an EGD
   -PPI [**Hospital1 **]
   (4) PROBABLE HIT- c/b pelvic/ LE DVT; argatroban gtt held for
   procedures today
   -planning for IVC filter eventually
   (5) CKD- had been on CVVH previously
   -Renal following
   (6) CRITICAL ILLNESS [**Name (NI) 13013**] PT consult
   ICU Care
   Nutrition:
   Comments: held for trach today
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, argatroban gtt held for
   trach/peg)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes

2139-02-12 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2139-2-11**] 03:32 PM
   [**2-11**]
   -- tolerated trach well. Placed NG in OR. CXR showed both in place.
   -- restart argatroban in AM
   -- Hct 32.7
   Allergies:
   Heparin Agents
   positive hepar
   Last dose of Antibiotics:
   Vancomycin - [**2139-2-9**] 08:00 AM
   Cefipime - [**2139-2-9**] 12:17 PM
   Ciprofloxacin - [**2139-2-11**] 01:51 AM
   Metronidazole - [**2139-2-11**] 05:27 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-12**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 87 (79 - 90) bpm
   BP: 140/77(93) {98/48(66) - 151/77(93)} mmHg
   RR: 13 (9 - 23) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 91.7 kg (admission): 105.5 kg
             Total In:
                                                                    787 mL
                                                                    263 mL
   PO:
             TF:
                                                                     40 mL
                                                                    186 mL
   IVF:
                                                                    480 mL
                                                                     77 mL
   Blood products:
                                                                    188 mL
   Total out:
                                                                  1,435 mL
                                                                    370 mL
   Urine:
                                                                  1,435 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -648 mL
                                                                   -107 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 634 (634 - 5,649) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 76
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 14.6 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Trach tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm, diffuse skin breakdown
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   124 K/uL
   10.2 g/dL
   124 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.4 mEq/L
   71 mg/dL
   116 mEq/L
   145 mEq/L
   30.5 %
   5.9 K/uL
        [image002.jpg]
                             [**2139-2-9**]  05:31 PM
                             [**2139-2-10**]  05:16 AM
                             [**2139-2-10**]  09:53 AM
                             [**2139-2-10**]  01:43 PM
                             [**2139-2-10**]  09:54 PM
                             [**2139-2-11**]  12:50 AM
                             [**2139-2-11**]  03:32 AM
                             [**2139-2-11**]  11:40 AM
                             [**2139-2-11**]  08:29 PM
                             [**2139-2-12**]  03:52 AM
   WBC
   4.7
   4.1
   6.2
   5.9
   Hct
   28.0
   27.9
   29.6
   25.8
   27.5
   28.3
   33.7
   32.7
   31.8
   30.5
   Plt
   61
   61
   132
   124
   Cr
   1.6
   1.6
   1.5
   1.4
   Glucose
   187
   105
   127
   124
   Other labs: PT / PTT / INR:16.3/31.7/1.4, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:201/53, Alk Phos / T Bili:135/1.0,
   Differential-Neuts:84.0 %, Band:0.0 %, Lymph:7.0 %, Mono:7.0 %, Eos:0.0
   %, D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:409 IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   83M with systolic heart failure, presenting from OSH with acute
   hypoexmic respiratory failure with evidence of BOOP and acute on CKI,
   altered mental status.  Course complicated by hypotension, GI,
   bleeding, ongoing respiratory failure, transferred overnight for PEG /
   EGD / Post pyloric tube in AM.
   .
   #. RESPIRATORY FAILURE: Working diagnosis of BOOP, pt s/p HAP treatment
   x 2 (cultures grew pansensetive klebsiella), currently afebrile and
   without evidence of ongoing infection. [**Doctor First Name **], ANCA, anti-GBM negative.
   Currently though to be multifactorial from pulmonary hematoma, CHF, VAP
   (treated) and underlying COPD with ground glass opacities of unknown
   etiology. Current barriers to extubation are CHF, muscular weakness,
   and underlying poor reserves. Needs long term option for vent support.
   New new signs of infection at this point (despite sputum cultures from
   [**2-9**] growing klebsiella)
   - Trach in place, tolerating well
   - s/p VAP course x 2 (lastly with vanco/cipro/cefepime/flagyl x 14 days
   finished [**2-10**])
   .
   #. GI BLEED
 Unclear source of lower GI bleed, given prolonged ICU
   stay and thrombocytopenia, suspect mucosal source. Need to consider
   other etiologies such as mesenteric ischemia, colitis, etc. Slow
   downward trend in Hct overnight likely due to slow bleed, although
   within lab error
   - Transfusion goal per primary ICU team > 28, recieved 1U PRBC
   - q8H hct checks
   - d/w GI whether needs cscope given rectal bleeding
   - maintain active T&S
   .
   # Pancytopenia
 Unclear etiology, hematology service following.
   - Thrombocytopenia thought to be [**2-10**] HIT
   - appreciate heme/onc recs
   - q8hct
   - Transfuse for Hct>27, Plt>20
   .
   # DEEP VENOUS THROMBOSIS: Resumed argatroban post procedure
   - Continue to monitor platelets for recovery
   - [**Month (only) 51**] get filter placement due to difficulty with anticoagulation- will
   d/w hematology
   .
   # RENAL FAILURE, ACUTE: Patient tolerating being off CVVH although
   grossly with anasarca. BUN elevated [**2-10**] GI bleed as well.
   - Appreciate renal recs
   - Begin to diurese w/lasix; check lytes this afternoon 20mg IV; goal
   -1L/24hr
   - Follow urine output
   .
   #. ALTERED MENTAL STATUS: Per prior notes, appears improved. Patient
   appropiately answering yes /no questions and following commands
   -- continue to monitor
   .
   # WEAKNESS: Multifactorial in setting of prolonged ICU stay (ICU
   neuropathy / myopathy) etc
   -- PT once trach in place
   .
   # CORONARY ARTERY DISEASE: holding ASA, due to GI bleed
   -- transfuse goal Hct > 27
   --
   .
   # BIVENTRICULAR SYSTOLIC HEART FAILURE-  Likely ischemic
   cardiomyopathy, last documented EF of 25 to 30%
   -- Holding ACEI given ARF
   -- Would benefit from beta blocker, even if low dose.
   .
   # DIABETES MELLITUS (DM), TYPE II
 cont SSI
   ..
   # FEN: TF on hold for procedure
   .
   PPX:
   -DVT ppx: Argatroban
   - Pantoprazole
   - Bowel regimen
   -Pain management
 no pain at the moment
   .
   ACCESS: right PICC
   .
   CODE STATUS:  DNR
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 453**] [**Last Name (LF) 5628**], [**First Name3 (LF) **], [**Telephone/Fax (1) 12629**]
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2139-2-11**] 08:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2139-02-12 11:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 year old man with systolic heart failure (30-40% EF), chronic renal
   insufficiency, type II diabetes, admitted to [**Hospital1 19**] on [**1-21**] for
   respiratory failure after undergoing bronch for evaluation of ground
   glass opacities. ICU course notable for persistent hypoxemic
   respiratory failure, prolonged intubation, possible HIT, DVT, GI bleed,
   pancytopenia, recurrent VAP, critical illness neuromyopathy.
   24 Hour Events:
   trach placed yesterday without complications
   Allergies:
   Heparin Agents
   positive hepar
   Last dose of Antibiotics:
   Cefipime - [**2139-2-9**] 12:17 PM
   Ciprofloxacin - [**2139-2-11**] 01:51 AM
   Metronidazole - [**2139-2-11**] 05:27 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Peridex, RISS, Klonopin, Protonix, Argatroban gtt
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-12**] 11:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 93 (79 - 93) bpm
   BP: 122/107(111) {98/48(66) - 151/107(111)} mmHg
   RR: 26 (9 - 26) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 91.7 kg (admission): 105.5 kg
             Total In:
                                                                    787 mL
                                                                    415 mL
   PO:
             TF:
                                                                     40 mL
                                                                    300 mL
   IVF:
                                                                    480 mL
                                                                    115 mL
   Blood products:
                                                                    188 mL
   Total out:
                                                                  1,435 mL
                                                                    710 mL
   Urine:
                                                                  1,435 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -648 mL
                                                                   -295 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 587 (587 - 5,649) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 76
   PIP: 16 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   Ve: 12.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, 2+ anasarca
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   124 K/uL
   124 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.4 mEq/L
   71 mg/dL
   116 mEq/L
   145 mEq/L
   30.5 %
   5.9 K/uL
        [image002.jpg]
                             [**2139-2-9**]  05:31 PM
                             [**2139-2-10**]  05:16 AM
                             [**2139-2-10**]  09:53 AM
                             [**2139-2-10**]  01:43 PM
                             [**2139-2-10**]  09:54 PM
                             [**2139-2-11**]  12:50 AM
                             [**2139-2-11**]  03:32 AM
                             [**2139-2-11**]  11:40 AM
                             [**2139-2-11**]  08:29 PM
                             [**2139-2-12**]  03:52 AM
   WBC
   4.7
   4.1
   6.2
   5.9
   Hct
   28.0
   27.9
   29.6
   25.8
   27.5
   28.3
   33.7
   32.7
   31.8
   30.5
   Plt
   61
   61
   132
   124
   Cr
   1.6
   1.6
   1.5
   1.4
   Glucose
   187
   105
   127
   124
   Other labs: PT / PTT / INR:16.3/31.7/1.4, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:201/53, Alk Phos / T Bili:135/1.0,
   Differential-Neuts:84.0 %, Band:0.0 %, Lymph:7.0 %, Mono:7.0 %, Eos:0.0
   %, D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:409 IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.9
   mg/dL
   Imaging: CXR- bibasilar infiltrates resolving compared to several d
   ago.
   Microbiology: sputum ([**2-9**])- Klebsiella pna (pan [**Last Name (un) 270**])
   Bld cx- neg
   Assessment and Plan
   83 year old man with systolic heart failure (30-40% EF), chronic renal
   insufficiency, type II diabetes, admitted to [**Hospital1 19**] on [**1-21**] for
   respiratory failure after undergoing bronch for evaluation of ground
   glass opacities. ICU course notable for persistent hypoxemic
   respiratory failure, prolonged intubation, possible HIT, DVT, GI bleed,
   pancytopenia, recurrent VAP, critical illness neuromyopathy
   (1) Acute respiratory failure - recurrent VAP now resolved, fluid
   overload, possible BOOP?, hx COPD. POD 1 s/p trach
   -PSV wean, now tolerated PS 10, peep 5
   -off abx since [**2-11**]. Pan [**Last Name (un) 270**] Klebs on most recent sputum, same
   organism/[**Last Name (un) 270**] as [**2-1**] sputum. Defer tx for now until signs/ symptoms of
   new infxn
   -would rec diuresis for goal neg TBB -[**Telephone/Fax (1) 179**]/day
   -no wheeze today; monitor
   (2) CHF- poor EF and fluid overload
   - may benefit from low-dose BB; defer for now
   (3) GI BLEED- follow serial Hct today, still oozing BRBPR
   -will need to touch base w/ GI re: plans for colonoscopy vs EGD (doubt
   bleeding is from UGI)
   -PPI [**Hospital1 **], will likely need PEG
   (4) PROBABLE HIT- c/b pelvic/ LE DVT
   -resume argatroban gtt if rectal bleeding stabilizes
   -will plan for IVC filter as he has not tolerated anticoagulation
   (5) CKD - had been on CVVH previously
   -Renal following
   (6) CRITICAL ILLNESS [**Name (NI) 13013**] PT consult
   ICU Care
   Nutrition: Boost Glucose Control (Full) - [**2139-2-11**] 08:00 PM 30
   mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines: PICC Line - [**2139-1-21**] 06:24 PM
   Prophylaxis: DVT: (Systemic anticoagulation: Other, argatroban gtt
   given HIT), PPI
         VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication:  communicated with daughter
   [**Name (NI) 36**] status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes

2139-02-12 21:12:00 Physician Resident Progress Note
TITLE:  Resident Event Note
   Called to patients bedside for BRBPR; pt was hemodynamically stable
   initially; with small pool of blood oozing from rectum. Sent for stat
   Hct which was 31.3 (stable) and type & crossmatch. Called GI and
   initially ordered GI Bleeding scan per their recommendations over the
   phone as well as called IR to discuss possible embolization pending
   scan.  Within approximately 20 minutes of initiating these plans, the
   patients blood pressure began to slowly drift down; and thus the
   patient was ordered for 2u Prbcs and the massive transfusion protocol
   was initiated. General surgery was called to evaluate the patient
   urgently.  The attending and gastroenterology came to the bedside; a
   rigid sigmoidoscopy was performed which showed evidence of ischemic
   colitis.  There was no evidence of a bleeding hemorrhoid. Per surgery
   and GI this is a grave prognosis and the patient is not a surgical
   candidate. Cipro/Flagyl was recommended as well as supportive care;
   however given the patients DNR status, his family was called as well as
   the MICU attending and the decision was made to do supportive care for
   now given the grave prognosis and no further active blood
   transfusions/antibiotics will be given.
   ------ Protected Section ------
   At patient bedside with housestaff. Gross blood in bed coming from
   rectum. Seen by GI and Surgery ([**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 518**]). Rigid sigmoidoscopy
   confirmed ischemic colitis with involvement of sigmoid with diffuse
   bleeding. Surgery did not feel that resection would be possible. Family
   informed and aware. Presently not hemodynamically unstable. BP being
   maintained with fluids. Will not transfuse blood as this will not
   change outcome. Will use pressors to temporize until entire family can
   arrive.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 206**], MD
   on:[**2139-2-12**] 21:43 ------

2139-02-13 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -IVC [** 5373**] placed
   -Pt large amount of BRBPR/mild hypotension- started blood transfusion,
   called GI and surgery ;initiated massive transfusion protocal; surgery
   did rigid scope and saw ischemic colitis; grave prognosis w/o surgery
   but felt patient not a surgical candidate; talked with family; no
   active intervetnion at this point; will give supportive care (talked to
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **]; he spoke with daughter) ;hoping to support patient through
   the morning with pressors/fluids, limited blood and no antibiotics,
   d/c's Lantus and gave morphine prn
   -Not requiring fluids but continues to ooze
   -Daughter [**Name (NI) 4097**] will be in with the son around 9am
 COLONOSCOPY - At [**2139-2-12**] 08:30 PM
   Allergies:
   Heparin Agents
   positive hepar
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-2-11**] 01:51 AM
   Metronidazole - [**2139-2-11**] 05:27 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-2-12**] 08:30 PM
   Fentanyl - [**2139-2-12**] 08:30 PM
   Midazolam (Versed) - [**2139-2-12**] 08:30 PM
   Morphine Sulfate - [**2139-2-13**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-13**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96.1
   HR: 89 (77 - 99) bpm
   BP: 124/65(70) {116/45(64) - 158/107(111)} mmHg
   RR: 22 (2 - 28) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 91.7 kg (admission): 105.5 kg
             Total In:
                                                                  2,428 mL
                                                                    138 mL
   PO:
             TF:
                                                                    488 mL
   IVF:
                                                                  1,301 mL
                                                                    138 mL
   Blood products:
                                                                    639 mL
   Total out:
                                                                  1,360 mL
                                                                      0 mL
   Urine:
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,068 mL
                                                                    138 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 513 (397 - 718) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 66
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 10.2 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Trach tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm, diffuse skin breakdown
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   124 K/uL
   10.2 g/dL
   143 mg/dL
   1.4 mg/dL
   19 mEq/L
   3.7 mEq/L
   71 mg/dL
   118 mEq/L
   146 mEq/L
   31.3 %
   5.9 K/uL
        [image002.jpg]
                             [**2139-2-10**]  09:53 AM
                             [**2139-2-10**]  01:43 PM
                             [**2139-2-10**]  09:54 PM
                             [**2139-2-11**]  12:50 AM
                             [**2139-2-11**]  03:32 AM
                             [**2139-2-11**]  11:40 AM
                             [**2139-2-11**]  08:29 PM
                             [**2139-2-12**]  03:52 AM
                             [**2139-2-12**]  12:58 PM
                             [**2139-2-12**]  06:29 PM
   WBC
   6.2
   5.9
   Hct
   29.6
   25.8
   27.5
   28.3
   33.7
   32.7
   31.8
   30.5
   32.1
   31.3
   Plt
   132
   124
   Cr
   1.5
   1.4
   1.4
   Glucose
   127
   124
   143
   Other labs: PT / PTT / INR:16.1/31.3/1.4, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:201/53, Alk Phos / T Bili:135/1.0,
   Differential-Neuts:84.0 %, Band:0.0 %, Lymph:7.0 %, Mono:7.0 %, Eos:0.0
   %, D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:409 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   83M with systolic heart failure, presenting from OSH with acute
   hypoexmic respiratory failure with evidence of BOOP and acute on CKI,
   altered mental status.  Course complicated by hypotension, GI,
   bleeding, ongoing respiratory failure, transferred overnight for PEG /
   EGD / Post pyloric tube in AM.
   #. GI BLEED
 Patient with ischemic colitis discovered on rigid scope
   overnight; continues to actively ooze and is a poor surgical
   candidate.  Surgery and GI following. Family made aware of grave
   prognosis.  Bleeding has slowed and now.  Will discuss with family
   regarding goals of care this AM.
   #. RESPIRATORY FAILURE: Working diagnosis of BOOP, pt s/p HAP treatment
   x 2 (cultures grew pansensetive klebsiella), currently afebrile and
   without evidence of ongoing infection. [**Doctor First Name **], ANCA, anti-GBM negative.
   Currently though to be multifactorial from pulmonary hematoma, CHF, VAP
   (treated) and underlying COPD with ground glass opacities of unknown
   etiology. Current barriers to extubation are CHF, muscular weakness,
   and underlying poor reserves. Needs long term option for vent support.
   New new signs of infection at this point (despite sputum cultures from
   [**2-9**] growing klebsiella)
   - Trach in place, tolerating well
   - s/p VAP course x 2 (lastly with vanco/cipro/cefepime/flagyl x 14 days
   finished [**2-10**])
   .
   # Pancytopenia
 Unclear etiology, hematology service following.
   - Thrombocytopenia thought to be [**2-10**] HIT
   - appreciate heme/onc recs
   - Holding further transfusions given goals of care
   .
   # DEEP VENOUS THROMBOSIS: now s/p IVC [**Month/Day (2) 5373**] [**2-12**]
   .
   # RENAL FAILURE, ACUTE: Patient tolerating being off CVVH although
   grossly with anasarca. BUN elevated [**2-10**] GI bleed as well.
   - Appreciate renal recs
   - Begin to diurese w/lasix; check lytes this afternoon 20mg IV; goal
   -1L/24hr
   - Follow urine output
   .
   #. ALTERED MENTAL STATUS: Per prior notes, appears improved. Patient
   appropiately answering yes /no questions and following commands
   -- continue to monitor
   .
   # WEAKNESS: Multifactorial in setting of prolonged ICU stay (ICU
   neuropathy / myopathy) etc
   -- PT once trach in place
   .
   # CORONARY ARTERY DISEASE: holding ASA, due to GI bleed
   -- transfuse goal Hct > 27
   --
   .
   # BIVENTRICULAR SYSTOLIC HEART FAILURE-  Likely ischemic
   cardiomyopathy, last documented EF of 25 to 30%
   -- Holding ACEI given ARF
   -- Would benefit from beta blocker, even if low dose.
   .
   # DIABETES MELLITUS (DM), TYPE II
 cont SSI
   ..
   # FEN: NPO given GI bleed
   .
   PPX:
   -DVT IVC [**Last Name (LF) 5373**], [**First Name3 (LF) **] discuss goals of care
   - H2 blocker
   - Bowel regimen
   -Pain management
 no pain at the moment
   .
   ACCESS: right PICC
   .
   CODE STATUS:  DNR
 IMPAIRED SKIN INTEGRITY
 IMPAIRED PHYSICAL MOBILITY
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 URINARY TRACT INFECTION (UTI)
 ATRIOVENTRICULAR (AV) BLOCK
 BACTEREMIA
 THROMBOCYTOPENIA, ACUTE
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERNATREMIA (HIGH SODIUM)
 DIABETES MELLITUS (DM), TYPE II
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   16 Gauge - [**2139-2-12**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2139-02-13 09:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 year old man with systolic heart failure (30-40% EF), chronic renal
   insufficiency, type II diabetes, admitted to [**Hospital1 19**] on [**1-21**] for
   respiratory failure after undergoing bronch for evaluation of ground
   glass opacities. ICU course notable for persistent hypoxemic
   respiratory failure, prolonged intubation, possible HIT, DVT, GI bleed,
   pancytopenia, recurrent VAP, critical illness neuromyopathy
   24 Hour Events:
   Went for IVC filter yesterday. In the later afternoon developed
   progressively worsening BRBPR w/ assoc SBP drop. Transfused 1uPRBC as
   well as . Following this, GI, [**Doctor First Name **] amd IR services were all involved.
   Rigid colonoscopy was performed and clinical suspicion was that of
   ischemic colitis.
   Housestaff met w/ Dr. [**Last Name (STitle) 775**] who spoke with daughter- at the time plan
   was for [**Name (NI) 580**] and patient remained clinically stable.
   Allergies:
   Heparin Agents
   positive hepar
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-2-11**] 01:51 AM
   Metronidazole - [**2139-2-11**] 05:27 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-2-12**] 08:30 PM
   Fentanyl - [**2139-2-12**] 08:30 PM
   Midazolam (Versed) - [**2139-2-12**] 08:30 PM
   Morphine Sulfate - [**2139-2-13**] 07:46 AM
   Other medications:
   Klonopin, Peridex
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-13**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96.1
   HR: 91 (77 - 99) bpm
   BP: 145/58(79) {116/45(64) - 158/107(111)} mmHg
   RR: 22 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 91.7 kg (admission): 105.5 kg
             Total In:
                                                                  2,428 mL
                                                                    183 mL
   PO:
             TF:
                                                                    488 mL
   IVF:
                                                                  1,301 mL
                                                                    183 mL
   Blood products:
                                                                    639 mL
   Total out:
                                                                  1,360 mL
                                                                      0 mL
   Urine:
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,068 mL
                                                                    183 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 420 (397 - 718) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 66
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 17.7 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   124 K/uL
   143 mg/dL
   1.4 mg/dL
   19 mEq/L
   3.7 mEq/L
   71 mg/dL
   118 mEq/L
   146 mEq/L
   31.3 %
   5.9 K/uL
        [image002.jpg]
                             [**2139-2-10**]  09:53 AM
                             [**2139-2-10**]  01:43 PM
                             [**2139-2-10**]  09:54 PM
                             [**2139-2-11**]  12:50 AM
                             [**2139-2-11**]  03:32 AM
                             [**2139-2-11**]  11:40 AM
                             [**2139-2-11**]  08:29 PM
                             [**2139-2-12**]  03:52 AM
                             [**2139-2-12**]  12:58 PM
                             [**2139-2-12**]  06:29 PM
   WBC
   6.2
   5.9
   Hct
   29.6
   25.8
   27.5
   28.3
   33.7
   32.7
   31.8
   30.5
   32.1
   31.3
   Plt
   132
   124
   Cr
   1.5
   1.4
   1.4
   Glucose
   127
   124
   143
   Other labs: PT / PTT / INR:16.1/31.3/1.4, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:201/53, Alk Phos / T Bili:135/1.0,
   Differential-Neuts:84.0 %, Band:0.0 %, Lymph:7.0 %, Mono:7.0 %, Eos:0.0
   %, D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:409 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   83 year old man with systolic heart failure (30-40% EF), chronic renal
   insufficiency, type II diabetes, admitted to [**Hospital1 19**] on [**1-21**] for
   respiratory failure after undergoing bronch for evaluation of ground
   glass opacities. ICU course notable for persistent hypoxemic
   respiratory failure, prolonged intubation, possible HIT, DVT, GI bleed,
   pancytopenia, recurrent VAP, critical illness neuromyopathy.
   POD 2 s/p trach, POD 1 s/p IVC filter. New BRBPR due to ischemic
   colitis. Following family meeting today, plan is to continue supportive
   care.
   (1) LGIB- presuming ischemic colitis, was actively bleeding yesterday
   -follow serial Hct
   -start cipro + Flagyl IV
   -IVF and supportive care
   -[**Doctor First Name **] and GI following- not surgical candidate
    (2) Acute respiratory failure - recurrent VAP now resolved, fluid
   overload, possible BOOP?, hx COPD. POD 2 s/p trach
   -PSV wean, now tolerated PS 10, peep 5
   -off abx since [**2-11**]. Pan [**Last Name (un) 270**] Klebs on most recent sputum, same
   organism/[**Last Name (un) 270**] as [**2-1**] sputum. Defer tx for now until signs/ symptoms of
   new infxn
   -hold on diuresis given GIB and hypotension yest
   -no wheeze today; monitor
   (3) CHF- poor EF and fluid overload
   - may benefit from low-dose BB; defer for now
   (4) PROBABLE HIT- c/b pelvic/ LE DVT
   -POD 1  s/p IVC filter. Off anticoag given persistent and brisk LGIB
   (5) CKD - had been on CVVH previously
   -Renal following
   (6) CRITICAL ILLNESS [**Name (NI) 13013**] PT consult
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   16 Gauge - [**2139-2-12**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:  family meeting with Dr. [**Last Name (STitle) **] running the
   meeting took place this morning w/ supportive mgmt agreed upon as a
   plan
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2139-02-14 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family meeting held, goals of care clarified:
   -- No agressive therapy including no more than 2U PRBC, no massive
   resusitation, no frequent labs. Hoping for discharge to his own home
   with Vent and 24 hr care.
   - Hct Stable
   - 3am noted to be have desat, cuff leak requiring >30mm pressure. STAT
   CXR with stable tracheomalacia however some interval increase in
   peri-ET tube diameter (26 to 28mm)
   - Able to wean vent down again
   Allergies:
   Heparin Agents
   positive hepar
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-2-14**] 12:21 AM
   Metronidazole - [**2139-2-14**] 04:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2139-2-14**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-14**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 96 (82 - 101) bpm
   BP: 136/58(78) {107/48(68) - 148/105(108)} mmHg
   RR: 23 (0 - 34) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 91.7 kg (admission): 105.5 kg
             Total In:
                                                                  2,043 mL
                                                                    520 mL
   PO:
             TF:
   IVF:
                                                                  2,043 mL
                                                                    520 mL
   Blood products:
   Total out:
                                                                    505 mL
                                                                    250 mL
   Urine:
                                                                    505 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,538 mL
                                                                    270 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 507 (420 - 571) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 68
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 13.1 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Trach tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Periphral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm, diffuse skin breakdown
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   186 K/uL
   9.7 g/dL
   174 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.7 mEq/L
   58 mg/dL
   116 mEq/L
   145 mEq/L
   30.6 %
   8.4 K/uL
        [image002.jpg]
                             [**2139-2-11**]  03:32 AM
                             [**2139-2-11**]  11:40 AM
                             [**2139-2-11**]  08:29 PM
                             [**2139-2-12**]  03:52 AM
                             [**2139-2-12**]  12:58 PM
                             [**2139-2-12**]  06:29 PM
                             [**2139-2-13**]  10:52 AM
                             [**2139-2-13**]  06:22 PM
                             [**2139-2-13**]  10:32 PM
                             [**2139-2-14**]  04:15 AM
   WBC
   6.2
   5.9
   7.7
   8.6
   8.4
   Hct
   33.7
   32.7
   31.8
   30.5
   32.1
   31.3
   31.6
   30.3
   29.8
   30.6
   Plt
   132
   124
   168
   176
   186
   Cr
   1.5
   1.4
   1.4
   1.2
   1.2
   1.2
   Glucose
   127
   124
   143
   111
   147
   174
   Other labs: PT / PTT / INR:16.0/32.6/1.4, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:201/53, Alk Phos / T Bili:135/1.0,
   Differential-Neuts:80.0 %, Band:2.0 %, Lymph:5.0 %, Mono:7.0 %, Eos:0.0
   %, D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:409 IU/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   83M with systolic heart failure, presenting from OSH with acute
   hypoexmic respiratory failure with evidence of BOOP and acute on CKI,
   altered mental status.  Course complicated by hypotension, GI,
   bleeding, ongoing respiratory failure, transferred overnight for PEG /
   EGD / Post pyloric tube in AM.
   #. GI BLEED
 Patient with ischemic colitis discovered on rigid scope
   overnight; continues to actively ooze and is a poor surgical
   candidate.  Surgery and GI following.  Hct has remained stable and no
   evidence of continued bleed.
   -- cont cipro/flagyl
   -- if rebleeds will transfuse 2U pRBC max
   -- no pressors per family
   -- will keep NPO
   -- recheck PM Hct
   .
   #. RESPIRATORY FAILURE: Working diagnosis of BOOP, pt s/p HAP treatment
   x 2 (cultures grew pansensetive klebsiella), currently afebrile and
   without evidence of ongoing infection. [**Doctor First Name **], ANCA, anti-GBM negative.
   Currently though to be multifactorial from pulmonary hematoma, CHF, VAP
   (treated) and underlying COPD with ground glass opacities of unknown
   etiology. Current barriers to extubation are CHF, muscular weakness,
   and underlying poor reserves. Needs long term option for vent support.
   New new signs of infection at this point (despite sputum cultures from
   [**2-9**] growing klebsiella)
   - Trach in place, tolerating well
   - s/p VAP course x 2 (lastly with vanco/cipro/cefepime/flagyl x 14 days
   finished [**2-10**])
   - ask thoracics to eval trach
   .
   # Pancytopenia
 Unclear etiology, hematology service following.
   - Thrombocytopenia thought to be [**2-10**] HIT
   - appreciate heme/onc recs
   - Holding further transfusions given goals of care
   .
   # DEEP VENOUS THROMBOSIS: now s/p IVC [**Month/Day (2) 5373**] [**2-12**]
   .
   # RENAL FAILURE, ACUTE: Patient tolerating being off CVVH although
   grossly with anasarca. BUN elevated [**2-10**] GI bleed as well.
   - Appreciate renal recs
   - Begin to diurese w/lasix; check lytes this afternoon 20mg IV; goal
   -1L/24hr
   - Follow urine output
   .
   #. ALTERED MENTAL STATUS: Per prior notes, appears improved. Patient
   appropiately answering yes /no questions and following commands
   -- continue to monitor
   .
   # WEAKNESS: Multifactorial in setting of prolonged ICU stay (ICU
   neuropathy / myopathy) etc
   -- PT once trach in place
   .
   # CORONARY ARTERY DISEASE: holding ASA, due to GI bleed
   -- transfuse goal Hct > 27
   --
   .
   # BIVENTRICULAR SYSTOLIC HEART FAILURE-  Likely ischemic
   cardiomyopathy, last documented EF of 25 to 30%
   -- Holding ACEI given ARF
   -- Would benefit from beta blocker, even if low dose.
   .
   # DIABETES MELLITUS (DM), TYPE II
 cont SSI
   ..
   # FEN: NPO given GI bleed
   .
   PPX:
   -DVT IVC [**Last Name (LF) 5373**], [**First Name3 (LF) **] discuss goals of care
   - H2 blocker
   - Bowel regimen
   -Pain management
 no pain at the moment
   .
   ACCESS: right PICC
   .
   CODE STATUS:  DNR
 IMPAIRED SKIN INTEGRITY
 IMPAIRED PHYSICAL MOBILITY
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 URINARY TRACT INFECTION (UTI)
 ATRIOVENTRICULAR (AV) BLOCK
 BACTEREMIA
 THROMBOCYTOPENIA, ACUTE
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERNATREMIA (HIGH SODIUM)
 DIABETES MELLITUS (DM), TYPE II
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Prophylaxis:
   DVT: Boots, IVC [**Year (4 digits) 5373**](Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2139-02-14 08:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 83 year old man with systolic heart failure (30-40% EF), chronic
   renal insufficiency, type II diabetes, admitted to [**Hospital1 19**] on [**1-21**] for
   respiratory failure after undergoing bronch for evaluation of ground
   glass opacities. ICU course notable for persistent hypoxemic
   respiratory failure, prolonged intubation, possible HIT, DVT, GI bleed,
   pancytopenia, recurrent VAP, critical illness neuromyopathy
   24 Hour Events:  on trach collar for one hour yesterday. Some cuff leak
   overnight, resolved with increasing trach pressure to 40
   Allergies:
   Heparin Agents
   positive hepar
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-2-14**] 12:21 AM
   Metronidazole - [**2139-2-14**] 04:00 AM
   RISS
   Other ICU medications:
   Morphine Sulfate - [**2139-2-14**] 03:00 AM
   PPI IV q12
   Clonazepam
   Fentanyl prn
   Versed prn
   Atrovent/Albuterol
   Tylenol
   Other medications:
   Changes to medical and family history:  none
   Review of systems is unchanged from admission except as noted below
   Review of systems: no changes
   Flowsheet Data as of  [**2139-2-14**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 96 (82 - 101) bpm
   BP: 136/58(78) {107/48(68) - 148/105(108)} mmHg
   RR: 23 (0 - 34) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 91.7 kg (admission): 105.5 kg
             Total In:
                                                                  2,043 mL
                                                                    522 mL
   PO:
             TF:
   IVF:
                                                                  2,043 mL
                                                                    522 mL
   Blood products:
   Total out:
                                                                    505 mL
                                                                    250 mL
   Urine:
                                                                    505 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,538 mL
                                                                    272 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 507 (420 - 571) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 68
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 13.1 L/min
   Physical Examination
   Gen: trached, alert, nods yes/no appropriately
   HEENT: perrl, anicteric, no oral thrush
   Neck: trach site clean, no erythema
   CV: frequent premature beats/bigeminy, no murmurs
   Lungs: CTA bilat
   Abd: soft, NTND
   Extrem: no edema
   Neuro: alert as above. No focal deficit noted
   Skin: no rash
   Labs / Radiology
   9.7 g/dL
   186 K/uL
   174 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.7 mEq/L
   58 mg/dL
   116 mEq/L
   145 mEq/L
   30.6 %
   8.4 K/uL
                             [**2139-2-11**]  03:32 AM
                             [**2139-2-11**]  11:40 AM
                             [**2139-2-11**]  08:29 PM
                             [**2139-2-12**]  03:52 AM
                             [**2139-2-12**]  12:58 PM
                             [**2139-2-12**]  06:29 PM
                             [**2139-2-13**]  10:52 AM
                             [**2139-2-13**]  06:22 PM
                             [**2139-2-13**]  10:32 PM
                             [**2139-2-14**]  04:15 AM
   WBC
   6.2
   5.9
   7.7
   8.6
   8.4
   Hct
   33.7
   32.7
   31.8
   30.5
   32.1
   31.3
   31.6
   30.3
   29.8
   30.6
   Plt
   132
   124
   168
   176
   186
   Cr
   1.5
   1.4
   1.4
   1.2
   1.2
   1.2
   Glucose
   127
   124
   143
   111
   147
   174
   Other labs: PT / PTT / INR:16.0/32.6/1.4, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:201/53, Alk Phos / T Bili:135/1.0,
   Differential-Neuts:80.0 %, Band:2.0 %, Lymph:5.0 %, Mono:7.0 %, Eos:0.0
   %, D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:409 IU/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   83 year old man with systolic heart failure (30-40% EF), chronic renal
   insufficiency, type II diabetes, admitted to [**Hospital1 19**] on [**1-21**] for
   respiratory failure after undergoing bronch for evaluation of ground
   glass opacities. ICU course notable for persistent hypoxemic
   respiratory failure, prolonged intubation, possible HIT, DVT, GI bleed,
   pancytopenia, recurrent VAP, critical illness neuromyopathy.
   POD 3 s/p trach, POD 2 s/p IVC filter. New BRBPR due to ischemic
   colitis, but now stabilized again. Following family meeting today, plan
   is to continue supportive care.
   (1) LGIB- presuming ischemic colitis, was actively bleeding 2 days ago
   but now stabilized
   -follow serial Hct
   -start cipro + Flagyl IV
   -IVF and supportive care
   -[**Doctor First Name **] and GI following- not surgical candidate
   -bowel rest for now
   -if bleeds again will give up to 2 units, but no more due to pt and
   family wishes
    (2) Acute respiratory failure - recurrent VAP now resolved, fluid
   overload, possible BOOP?, hx COPD. POD 2 s/p trach
   -PSV wean, now tolerated PS 10, peep 5. Trach collar x 1 hr yesterday,
   will try again today
   -off abx since [**2-11**]. Pan [**Last Name (un) 270**] Klebs on most recent sputum, same
   organism/[**Last Name (un) 270**] as [**2-1**] sputum. Defer tx for now until signs/ symptoms of
   new infxn
   -no wheeze today; monitor
   (3) CHF- poor EF and fluid overload
   - may benefit from low-dose BB; defer for now
   -no diuresis needed for now
   (4) PROBABLE HIT- c/b pelvic/ LE DVT
   -POD 1  s/p IVC filter. Off anticoag given persistent and brisk LGIB
   (5) CKD - had been on CVVH previously
   -Renal following
   (6) CRITICAL ILLNESS [**Name (NI) 13013**] PT consult
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Prophylaxis:
   DVT: IVC filter, boots
   Stress ulcer: PPI
   VAP: chlorhex, head of bed elev
   Comments:
   Communication:  met with family today
   Code status: DNR (do not resuscitate)
   Disposition : ICU. Wants to go home with hospice but on ventilator.
   Palliative care consulted to assist with plan for getting home.  Case
   management involved.  Family
s goal is to get him home.  No pressors,
   no escalation of care
   Total time spent: 40 minutes

2139-02-15 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - spoke with thoracics resident and did have new recs regarding his
   increase in trach pressure
   - low UOP and started maintenence IVF d5 1/2NS
   - trach mask trial this AM
   Allergies:
   Heparin Agents
   positive hepar
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-2-14**] 11:52 PM
   Metronidazole - [**2139-2-15**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-15**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 93 (90 - 99) bpm
   BP: 132/53(75) {105/48(65) - 132/73(82)} mmHg
   RR: 20 (9 - 41) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 91.7 kg (admission): 105.5 kg
             Total In:
                                                                  1,555 mL
                                                                    635 mL
   PO:
             TF:
   IVF:
                                                                  1,375 mL
                                                                    635 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                    180 mL
   Urine:
                                                                    690 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
                                                                    110 mL
   Balance:
                                                                    755 mL
                                                                    455 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 487 (382 - 558) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 7.3 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Trach tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Periphral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm, diffuse skin breakdown
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   231 K/uL
   9.5 g/dL
   133 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.9 mEq/L
   50 mg/dL
   117 mEq/L
   145 mEq/L
   28.3 %
   8.7 K/uL
        [image002.jpg]
                             [**2139-2-11**]  11:40 AM
                             [**2139-2-11**]  08:29 PM
                             [**2139-2-12**]  03:52 AM
                             [**2139-2-12**]  12:58 PM
                             [**2139-2-12**]  06:29 PM
                             [**2139-2-13**]  10:52 AM
                             [**2139-2-13**]  06:22 PM
                             [**2139-2-13**]  10:32 PM
                             [**2139-2-14**]  04:15 AM
                             [**2139-2-15**]  03:48 AM
   WBC
   5.9
   7.7
   8.6
   8.4
   8.7
   Hct
   32.7
   31.8
   30.5
   32.1
   31.3
   31.6
   30.3
   29.8
   30.6
   28.3
   Plt
   124
   168
   176
   186
   231
   Cr
   1.4
   1.4
   1.2
   1.2
   1.2
   1.2
   Glucose
   124
   143
   111
   147
   174
   133
   Other labs: PT / PTT / INR:16.9/34.8/1.5, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:201/53, Alk Phos / T Bili:135/1.0,
   Differential-Neuts:73.0 %, Band:1.0 %, Lymph:1.0 %, Mono:11.0 %,
   Eos:0.0 %, D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5
   mmol/L, Albumin:2.2 g/dL, LDH:409 IU/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 IMPAIRED PHYSICAL MOBILITY
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 URINARY TRACT INFECTION (UTI)
 ATRIOVENTRICULAR (AV) BLOCK
 BACTEREMIA
 THROMBOCYTOPENIA, ACUTE
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERNATREMIA (HIGH SODIUM)
 DIABETES MELLITUS (DM), TYPE II
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   83M with systolic heart failure, presenting from OSH with acute
   hypoexmic respiratory failure with evidence of BOOP and acute on CKI,
   altered mental status.  Course complicated by hypotension, GI,
   bleeding, ongoing respiratory failure, transferred overnight for PEG /
   EGD / Post pyloric tube in AM.
   #. GI BLEED
 Patient with ischemic colitis discovered on rigid scope
   overnight; continues to actively ooze and is a poor surgical
   candidate.  Surgery and GI following.  Hct has remained stable and no
   evidence of continued bleed.
   -- cont cipro/flagyl
   -- if rebleeds will transfuse 2U pRBC max
   -- no pressors per family
   -- will keep NPO
   -- recheck PM Hct
   .
   #. RESPIRATORY FAILURE: Working diagnosis of BOOP, pt s/p HAP treatment
   x 2 (cultures grew pansensetive klebsiella), currently afebrile and
   without evidence of ongoing infection. [**Doctor First Name **], ANCA, anti-GBM negative.
   Currently though to be multifactorial from pulmonary hematoma, CHF, VAP
   (treated) and underlying COPD with ground glass opacities of unknown
   etiology. Current barriers to extubation are CHF, muscular weakness,
   and underlying poor reserves. Needs long term option for vent support.
   New new signs of infection at this point (despite sputum cultures from
   [**2-9**] growing klebsiella)
   - Trach in place, tolerating well
   - s/p VAP course x 2 (lastly with vanco/cipro/cefepime/flagyl x 14 days
   finished [**2-10**])
   - ask thoracics to eval trach
   .
   # Pancytopenia
 Unclear etiology, hematology service following.
   - Thrombocytopenia thought to be [**2-10**] HIT
   - appreciate heme/onc recs
   - Holding further transfusions given goals of care
   .
   # DEEP VENOUS THROMBOSIS: now s/p IVC [**Month/Day (2) 5373**] [**2-12**]
   .
   # RENAL FAILURE, ACUTE: Patient tolerating being off CVVH although
   grossly with anasarca. BUN elevated [**2-10**] GI bleed as well.
   - Appreciate renal recs
   - Begin to diurese w/lasix; check lytes this afternoon 20mg IV; goal
   -1L/24hr
   - Follow urine output
   .
   #. ALTERED MENTAL STATUS: Per prior notes, appears improved. Patient
   appropiately answering yes /no questions and following commands
   -- continue to monitor
   .
   # WEAKNESS: Multifactorial in setting of prolonged ICU stay (ICU
   neuropathy / myopathy) etc
   -- PT once trach in place
   .
   # CORONARY ARTERY DISEASE: holding ASA, due to GI bleed
   -- transfuse goal Hct > 27
   .
   # BIVENTRICULAR SYSTOLIC HEART FAILURE-  Likely ischemic
   cardiomyopathy, last documented EF of 25 to 30%
   -- Holding ACEI given ARF
   -- Would benefit from beta blocker, even if low dose.
   .
   # DIABETES MELLITUS (DM), TYPE II
 cont SSI
   ..
   # FEN: NPO given GI bleed
   .
   PPX:
   -DVT IVC [**Last Name (LF) 5373**], [**First Name3 (LF) **] discuss goals of care
   - H2 blocker
   - Bowel regimen
   -Pain management
 no pain at the moment
   .
   ACCESS: right PICC
   .
   CODE STATUS:  DNR
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2139-02-15 07:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 year old man with systolic heart failure (30-40% EF), chronic renal
   insufficiency, type II diabetes, admitted to [**Hospital1 19**] on [**1-21**] for
   respiratory failure after undergoing bronch for evaluation of ground
   glass opacities. ICU course notable for persistent hypoxemic
   respiratory failure, prolonged intubation, possible HIT, DVT, GI bleed,
   pancytopenia, recurrent VAP, critical illness neuromyopathy
   24 Hour Events:
   Thoracics came to eval trach cuff leak.  Asked us to try decreasing
   cuff pressure to 30 again to see if leak still present.  Pt on trach
   mask x 1 hr today, didn
t tolerate due to high RR and anxiety
   Allergies:
   Heparin Agents
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-2-14**] 11:52 PM
   Metronidazole - [**2139-2-15**] 04:00 AM
   Infusions:
   Clonazepam
   Protonix [**Hospital1 7**]
   Chlorhexidine
   RISS
   Versed prn anxiety
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-15**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 93 (90 - 99) bpm
   BP: 132/53(75) {105/48(65) - 132/73(82)} mmHg
   RR: 20 (9 - 41) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 91.7 kg (admission): 105.5 kg
             Total In:
                                                                  1,555 mL
                                                                    684 mL
   PO:
             TF:
   IVF:
                                                                  1,375 mL
                                                                    684 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                    180 mL
   Urine:
                                                                    690 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
                                                                    110 mL
   Balance:
                                                                    755 mL
                                                                    504 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 487 (382 - 558) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 7.3 L/min
   Physical Examination
   Gen: trached, alert, NAD
   HEENT: PERRL, anicteric
   CV: RRR, no m/r/g
   Lungs: CTA bilat
   Abd: soft, NTND
   Extrem: no edema
   Neuro: alert, no focal deficits noted
   Skin: no rashes
   Labs / Radiology
   9.5 g/dL
   231 K/uL
   133 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.9 mEq/L
   50 mg/dL
   117 mEq/L
   145 mEq/L
   28.3 %
   8.7 K/uL
        [image002.jpg]
                             [**2139-2-11**]  11:40 AM
                             [**2139-2-11**]  08:29 PM
                             [**2139-2-12**]  03:52 AM
                             [**2139-2-12**]  12:58 PM
                             [**2139-2-12**]  06:29 PM
                             [**2139-2-13**]  10:52 AM
                             [**2139-2-13**]  06:22 PM
                             [**2139-2-13**]  10:32 PM
                             [**2139-2-14**]  04:15 AM
                             [**2139-2-15**]  03:48 AM
   WBC
   5.9
   7.7
   8.6
   8.4
   8.7
   Hct
   32.7
   31.8
   30.5
   32.1
   31.3
   31.6
   30.3
   29.8
   30.6
   28.3
   Plt
   124
   168
   176
   186
   231
   Cr
   1.4
   1.4
   1.2
   1.2
   1.2
   1.2
   Glucose
   124
   143
   111
   147
   174
   133
   Other labs: PT / PTT / INR:16.9/34.8/1.5, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:201/53, Alk Phos / T Bili:135/1.0,
   Differential-Neuts:73.0 %, Band:1.0 %, Lymph:1.0 %, Mono:11.0 %,
   Eos:0.0 %, D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5
   mmol/L, Albumin:2.2 g/dL, LDH:409 IU/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   83 year old man with systolic heart failure (30-40% EF), chronic renal
   insufficiency, type II diabetes, admitted to [**Hospital1 19**] on [**1-21**] for
   respiratory failure after undergoing bronch for evaluation of ground
   glass opacities. ICU course notable for persistent hypoxemic
   respiratory failure, prolonged intubation, possible HIT, DVT, GI bleed,
   pancytopenia, recurrent VAP, critical illness neuromyopathy.
   POD 3 s/p trach, POD 2 s/p IVC filter. New BRBPR due to ischemic
   colitis, but now stabilized again. Following family meeting today, plan
   is to continue supportive care.
   (1) LGIB- presuming ischemic colitis, was actively bleeding 2 days ago
   but now stabilized
   -follow serial Hct
   -started cipro + Flagyl IV. Plan for 5 days then d/c
   -IVF and supportive care
   -[**Doctor First Name **] and GI following- not surgical candidate
   -bowel rest for now
   -if bleeds again will give up to 2 units, but no more due to pt and
   family wishes
   -start tube feeds today
    (2) Acute respiratory failure
 remains vent dependent overall but
   tolerating 1-2 hrs off vent with TM. Recurrent VAP now resolved, fluid
   overload, possible BOOP?, hx COPD. POD 3 s/p trach
   -PSV wean, now tolerated PS 10, peep 5. Trach mask tried today.
   Tolerated for about an hour
   -off abx since [**2-11**]. Pan [**Last Name (un) 270**] Klebs on most recent sputum, same
   organism/[**Last Name (un) 270**] as [**2-1**] sputum. Defer tx for now until signs/ symptoms of
   new infxn
   -no wheeze today; monitor
   -decrease cuff pressure to 30 and reassess for cuff leak. Call
   thoracics again if he still has a leak
   (3) CHF- poor EF and fluid overload
   - may benefit from low-dose BB; defer for now
   -lasix for goal negative 1L today
   (4) PROBABLE HIT- c/b pelvic/ LE DVT
   -POD 1  s/p IVC filter. Off anticoag given persistent and brisk LGIB
   (5) CKD - had been on CVVH previously, now stable
   -Renal following
   (6) CRITICAL ILLNESS NEUROMYOPATHY- ask PT to see again.
   ICU Care
   Nutrition: restarting tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: [**Hospital1 7**] PPI
   VAP: chlorhex, HOB 30 degrees
   Comments:
   Communication:  spoke with family today
   Code status: DNR (do not resuscitate)
   Disposition : ICU. ?rehab vs home with hospice depending on pt and
   family wishes
   Critically ill, Total time spent:  30 min

2139-02-16 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Started tube feeds
   -Family to make decision by monday whether they want a PEG placed
   -Lasix 20mg IV given 11AM didn't respond, gave add'l 40mg at 2pm
   History obtained from Family / Friend
   Allergies:
   History obtained from Family / FriendHeparin Agents
   positive hepar
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-2-16**] 12:22 AM
   Metronidazole - [**2139-2-16**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-2-15**] 08:38 AM
   Furosemide (Lasix) - [**2139-2-15**] 01:02 PM
   Morphine Sulfate - [**2139-2-15**] 08:00 PM
   Midazolam (Versed) - [**2139-2-16**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-16**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 101 (87 - 104) bpm
   BP: 112/61(74) {99/47(61) - 115/63(75)} mmHg
   RR: 26 (19 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.7 kg (admission): 105.5 kg
             Total In:
                                                                  1,966 mL
                                                                    598 mL
   PO:
             TF:
                                                                    248 mL
                                                                    227 mL
   IVF:
                                                                  1,378 mL
                                                                    371 mL
   Blood products:
   Total out:
                                                                  1,185 mL
                                                                    345 mL
   Urine:
                                                                  1,045 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
                                                                    140 mL
                                                                    170 mL
   Balance:
                                                                    781 mL
                                                                    253 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 404 (404 - 588) mL
   PS : 10 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 14.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   252 K/uL
   9.2 g/dL
   117 mg/dL
   1.3 mg/dL
   21 mEq/L
   4.2 mEq/L
   48 mg/dL
   115 mEq/L
   144 mEq/L
   29.1 %
   12.8 K/uL
        [image002.jpg]
                             [**2139-2-11**]  08:29 PM
                             [**2139-2-12**]  03:52 AM
                             [**2139-2-12**]  12:58 PM
                             [**2139-2-12**]  06:29 PM
                             [**2139-2-13**]  10:52 AM
                             [**2139-2-13**]  06:22 PM
                             [**2139-2-13**]  10:32 PM
                             [**2139-2-14**]  04:15 AM
                             [**2139-2-15**]  03:48 AM
                             [**2139-2-16**]  03:15 AM
   WBC
   5.9
   7.7
   8.6
   8.4
   8.7
   12.8
   Hct
   31.8
   30.5
   32.1
   31.3
   31.6
   30.3
   29.8
   30.6
   28.3
   29.1
   Plt
   124
   168
   176
   186
   231
   252
   Cr
   1.4
   1.4
   1.2
   1.2
   1.2
   1.2
   1.3
   Glucose
   124
   143
   111
   147
   174
   133
   117
   Other labs: PT / PTT / INR:16.9/34.6/1.5, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:201/53, Alk Phos / T Bili:135/1.0,
   Differential-Neuts:73.0 %, Band:1.0 %, Lymph:7.0 %, Mono:5.0 %, Eos:1.0
   %, D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:409 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   83M with systolic heart failure, presenting from OSH with acute
   hypoexmic respiratory failure with evidence of BOOP and acute on CKI,
   altered mental status.  Course complicated by hypotension, GI,
   bleeding, ongoing respiratory failure, transferred overnight for Trach
   # GOALS OF CARE: Ongoing discussion with patient and family, currently
   goal is to get patient home as he is refusing rehab. He is tolerating
   trach mask now however only with NG tube for feeding. Appreciated case
   management and palliative care follow up.
   -- Daily family meeting
   #. GI BLEED
 Patient with ischemic colitis discovered on rigid scope
   overnight; continues to mildly ooze and is a poor surgical candidate.
   Surgery and GI following.  Hct has remained stable and no evidence of
   continued bleed. Hct 29 this AM
   -- cont cipro/flagyl day [**4-13**]
   -- if rebleeds will transfuse 2U pRBC max
   -- no pressors per family
   -- will keep NPO
   .
   #. RESPIRATORY FAILURE: Working diagnosis of BOOP, pt s/p HAP treatment
   x 2 (cultures grew pansensetive klebsiella), currently afebrile and
   without evidence of ongoing infection. [**Doctor First Name **], ANCA, anti-GBM negative.
   Currently though to be multifactorial from pulmonary hematoma, CHF, VAP
   (treated) and underlying COPD with ground glass opacities of unknown
   etiology. Current barriers to extubation are CHF, muscular weakness,
   and underlying poor reserves. Needs long term option for vent support.
   New new signs of infection at this point (despite sputum cultures from
   [**2-9**] growing klebsiella)
   - Trach in place, had high cuff pressure, no issues overnight
   - Tolerating trach mask with some mild discomfort
   - s/p VAP course x 2 (lastly with vanco/cipro/cefepime/flagyl x 14 days
   finished [**2-10**])
   .
   # Pancytopenia
 Resolving
   - Thrombocytopenia thought to be [**2-10**] HIT
   .
   # DEEP VENOUS THROMBOSIS: now s/p IVC [**Month/Day (2) 5373**] [**2-12**]
   #critial illness myopathy- refusing PT
   .
   # RENAL FAILURE, ACUTE: Patient tolerating being off CVVH although
   grossly with anasarca. BUN elevated [**2-10**] GI bleed as well.   Currently
   stable 1.2
   ...
   # CORONARY ARTERY DISEASE: holding ASA, due to GI bleed
   -- transfuse goal Hct > 27
   .
   # BIVENTRICULAR SYSTOLIC HEART FAILURE-  Likely ischemic
   cardiomyopathy, last documented EF of 25 to 30%
   -- Holding ACEI given ARF
   -- Would benefit from beta blocker, even if low dose.
   .
   # DIABETES MELLITUS (DM), TYPE II
 cont SSI
   ..
   # FEN: tolerating tube feeds, need to clarify goal
   .
   PPX:
   -DVT IVC [**Last Name (LF) 5373**], [**First Name3 (LF) **] discuss goals of care
   - H2 blocker
   - Bowel regimen
   -Pain management
 no pain at the moment
   .
   ACCESS: right PICC
   .
   CODE STATUS:  DNR
 IMPAIRED SKIN INTEGRITY
 IMPAIRED PHYSICAL MOBILITY
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 URINARY TRACT INFECTION (UTI)
 ATRIOVENTRICULAR (AV) BLOCK
 BACTEREMIA
 THROMBOCYTOPENIA, ACUTE
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERNATREMIA (HIGH SODIUM)
 DIABETES MELLITUS (DM), TYPE II
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition: TF, family to decide whethery they want peg placed
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2139-02-16 11:35:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Stable night.
   Allergies:
   Heparin Agents
   positive hepar
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-2-16**] 12:22 AM
   Metronidazole - [**2139-2-16**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2139-2-15**] 01:02 PM
   Morphine Sulfate - [**2139-2-15**] 08:00 PM
   Midazolam (Versed) - [**2139-2-16**] 03:00 AM
   Pantoprazole (Protonix) - [**2139-2-16**] 08:09 AM
   Other medications:
   clonopin, pantoprazole, chlorhexidine, flagyl, cipro, fentanyl prn,
   maalox prn, morphine prn, albuterol prn, versed prn.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-16**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.4
C (97.5
   HR: 116 (90 - 116) bpm
   BP: 98/59(79) {98/47(61) - 115/63(79)} mmHg
   RR: 38 (19 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.7 kg (admission): 105.5 kg
             Total In:
                                                                  1,966 mL
                                                                    976 mL
   PO:
             TF:
                                                                    248 mL
                                                                    437 mL
   IVF:
                                                                  1,378 mL
                                                                    419 mL
   Blood products:
   Total out:
                                                                  1,185 mL
                                                                    490 mL
   Urine:
                                                                  1,045 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
                                                                    140 mL
                                                                    170 mL
   Balance:
                                                                    781 mL
                                                                    486 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 520 (404 - 588) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 15 L/min
   Physical Examination
   General Appearance: No acute distress, Thin, Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Rhonchorous:
   anteriorly)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, mildly
   diffusely tender.
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   9.2 g/dL
   252 K/uL
   117 mg/dL
   1.3 mg/dL
   21 mEq/L
   4.2 mEq/L
   48 mg/dL
   115 mEq/L
   144 mEq/L
   29.1 %
   12.8 K/uL
        [image002.jpg]
                             [**2139-2-11**]  08:29 PM
                             [**2139-2-12**]  03:52 AM
                             [**2139-2-12**]  12:58 PM
                             [**2139-2-12**]  06:29 PM
                             [**2139-2-13**]  10:52 AM
                             [**2139-2-13**]  06:22 PM
                             [**2139-2-13**]  10:32 PM
                             [**2139-2-14**]  04:15 AM
                             [**2139-2-15**]  03:48 AM
                             [**2139-2-16**]  03:15 AM
   WBC
   5.9
   7.7
   8.6
   8.4
   8.7
   12.8
   Hct
   31.8
   30.5
   32.1
   31.3
   31.6
   30.3
   29.8
   30.6
   28.3
   29.1
   Plt
   124
   168
   176
   186
   231
   252
   Cr
   1.4
   1.4
   1.2
   1.2
   1.2
   1.2
   1.3
   Glucose
   124
   143
   111
   147
   174
   133
   117
   Other labs: PT / PTT / INR:16.9/34.6/1.5, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:201/53, Alk Phos / T Bili:135/1.0,
   Differential-Neuts:73.0 %, Band:1.0 %, Lymph:7.0 %, Mono:5.0 %, Eos:1.0
   %, D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:409 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.5
   mg/dL
   Imaging: CXR stable.
   Assessment and Plan
   Respiratory failure: resolving BOOP/VAP and superimposed volume
   overload. Will diurese lasix 80 iv x1, monitor lytes q12hours. TM
   trials, pulmonary toilet with suctioning throught the trach. Will
   consult SLP for trial of speech today with caveat that patient may not
   tolerated it from a respiratory standpoint given large size of trach
   and ongoing respiratory status.
   Elevated cuff pressures: likely related to tracheomalacia, now at 35cm
   of water, will monitor would not change trach at this point, if
   pressures increase would consider placement of larger or longer trach
   to bypass malacic area.
   Anemia: prior [**Last Name (LF) 10640**], [**First Name3 (LF) **] monitor hct once a day, currently stable.
   Ischemic colitis: will continue cipro/flagyl, abdomen still midly
   diffusely tender
   elevated wbc count: will monitor.
   CRI: low GFR given age and creatinine. will attempt to diurese
   Goals of care: will clarify goals with family and paliative care.
   patient is clear about wanting to go home and not wanting to pursue
   further care. Would not recommend PEG at this point given patient
   wishes.
   ICU Care
   Nutrition:
   Comments: tube feeds.
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes

2139-02-17 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - New meeting re: goals of care, moving towards d/c home on trach mask
   - Had new bleeding episode, per discussion with pt and proxy, no [**Name2 (NI) 573**]
   or fluids, increased pain control
   Allergies:
   Heparin Agents
   positive hepar
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-2-17**] 12:00 AM
   Metronidazole - [**2139-2-17**] 04:45 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2139-2-16**] 01:00 PM
   Furosemide (Lasix) - [**2139-2-16**] 01:00 PM
   Pantoprazole (Protonix) - [**2139-2-16**] 09:00 PM
   Fentanyl - [**2139-2-16**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-17**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.7
   HR: 106 (97 - 116) bpm
   BP: 97/58(67) {92/47(58) - 119/67(79)} mmHg
   RR: 31 (23 - 42) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.7 kg (admission): 105.5 kg
             Total In:
                                                                  2,457 mL
                                                                    896 mL
   PO:
             TF:
                                                                  1,377 mL
                                                                    519 mL
   IVF:
                                                                    960 mL
                                                                    377 mL
   [**Year (2 digits) **] products:
   Total out:
                                                                  1,070 mL
                                                                    180 mL
   Urine:
                                                                    900 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
                                                                    170 mL
   Balance:
                                                                  1,387 mL
                                                                    716 mL
   Respiratory support
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 520 (520 - 520) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 15 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Trach tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Periphral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm, diffuse skin breakdown
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   265 K/uL
   8.1 g/dL
   265 mg/dL
   1.4 mg/dL
   21 mEq/L
   4.5 mEq/L
   53 mg/dL
   116 mEq/L
   143 mEq/L
   24.6 %
   14.8 K/uL
        [image002.jpg]
                             [**2139-2-12**]  12:58 PM
                             [**2139-2-12**]  06:29 PM
                             [**2139-2-13**]  10:52 AM
                             [**2139-2-13**]  06:22 PM
                             [**2139-2-13**]  10:32 PM
                             [**2139-2-14**]  04:15 AM
                             [**2139-2-15**]  03:48 AM
                             [**2139-2-16**]  03:15 AM
                             [**2139-2-16**]  05:11 PM
                             [**2139-2-17**]  06:26 AM
   WBC
   7.7
   8.6
   8.4
   8.7
   12.8
   14.8
   Hct
   32.1
   31.3
   31.6
   30.3
   29.8
   30.6
   28.3
   29.1
   24.6
   Plt
   168
   176
   186
   [**Telephone/Fax (3) 13153**]
   Cr
   1.4
   1.2
   1.2
   1.2
   1.2
   1.3
   1.4
   Glucose
   143
   111
   147
   174
   133
   117
   265
   Other labs: PT / PTT / INR:18.1/34.6/1.6, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:201/53, Alk Phos / T Bili:135/1.0,
   Differential-Neuts:73.0 %, Band:1.0 %, Lymph:7.0 %, Mono:5.0 %, Eos:1.0
   %, D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:409 IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 IMPAIRED PHYSICAL MOBILITY
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 URINARY TRACT INFECTION (UTI)
 ATRIOVENTRICULAR (AV) BLOCK
 BACTEREMIA
 THROMBOCYTOPENIA, ACUTE
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERNATREMIA (HIGH SODIUM)
 DIABETES MELLITUS (DM), TYPE II
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   83M with systolic heart failure, presenting from OSH with acute
   hypoexmic respiratory failure with evidence of BOOP and acute on CKI,
   altered mental status.  Course complicated by hypotension, GI,
   bleeding, ongoing respiratory failure, transferred overnight for Trach
   # GOALS OF CARE: Ongoing discussion with patient and family, currently
   goal is to get patient home as he is refusing rehab. He is tolerating
   trach mask now however only with NG tube for feeding. Appreciated case
   management and palliative care follow up.
   -- Daily family meeting
   #. GI BLEED
 Patient with ischemic colitis discovered on rigid scope
   overnight; continues to mildly ooze and is a poor surgical candidate.
   Surgery and GI following.  Hct has remained stable and no evidence of
   continued bleed. Hct 29 this AM
   -- cont cipro/flagyl day [**4-13**]
   -- if rebleeds will transfuse 2U pRBC max
   -- no pressors per family
   -- will keep NPO
   .
   #. RESPIRATORY FAILURE: Working diagnosis of BOOP, pt s/p HAP treatment
   x 2 (cultures grew pansensetive klebsiella), currently afebrile and
   without evidence of ongoing infection. [**Doctor First Name **], ANCA, anti-GBM negative.
   Currently though to be multifactorial from pulmonary hematoma, CHF, VAP
   (treated) and underlying COPD with ground glass opacities of unknown
   etiology. Current barriers to extubation are CHF, muscular weakness,
   and underlying poor reserves. Needs long term option for vent support.
   New new signs of infection at this point (despite sputum cultures from
   [**2-9**] growing klebsiella)
   - Trach in place, had high cuff pressure, no issues overnigh
   - Tolerating trach mask with some mild discomfort
   - s/p VAP course x 2 (lastly with vanco/cipro/cefepime/flagyl x 14 days
   finished [**2-10**])
   .
   # Pancytopenia
 Resolving
   - Thrombocytopenia thought to be [**2-10**] HIT
   .
   # DEEP VENOUS THROMBOSIS: now s/p IVC [**Month/Day (2) 5373**] [**2-12**]
   #critial illness myopathy- refusing PT
   .
   # RENAL FAILURE, ACUTE: Patient tolerating being off CVVH although
   grossly with anasarca. BUN elevated [**2-10**] GI bleed as well.   Currently
   stable 1.2
   ...
   # CORONARY ARTERY DISEASE: holding ASA, due to GI bleed
   -- transfuse goal Hct > 27
   .
   # BIVENTRICULAR SYSTOLIC HEART FAILURE-  Likely ischemic
   cardiomyopathy, last documented EF of 25 to 30%
   -- Holding ACEI given ARF
   -- Would benefit from beta blocker, even if low dose.
   .
   # DIABETES MELLITUS (DM), TYPE II
 cont SSI
   ..
   # FEN: tolerating tube feeds, need to clarify goal
   .
   PPX:
   -DVT IVC [**Last Name (LF) 5373**], [**First Name3 (LF) **] discuss goals of care
   - H2 blocker
   - Bowel regimen
   -Pain management
 no pain at the moment
   .
   ACCESS: right PICC
   .
   CODE STATUS:  DNR
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2139-2-17**] 07:30 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Prophylaxis:
   DVT: Boots, IVC [**Year (4 digits) 5373**]
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2139-02-17 11:52:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Had more bleeding overnight, stopped yesterday. Per patient didnot want
   blood transfusions. This am more anxious and dypneic. Doesnot want to
   travel to [**State 395**], would prefer to stay here with the likely possibility
   that he will pass here.
   Allergies:
   Heparin Agents
   positive hepar
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-2-17**] 12:00 AM
   Metronidazole - [**2139-2-17**] 04:45 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2139-2-16**] 01:00 PM
   Furosemide (Lasix) - [**2139-2-16**] 01:00 PM
   Fentanyl - [**2139-2-16**] 11:00 PM
   Pantoprazole (Protonix) - [**2139-2-17**] 08:16 AM
   Other medications:
   clonazepam, pantoprazole, chlorhexidine, flagyl, cipro, fentanyl 100mc
   iv overnight, morphine prn, versed prn.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-17**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 112 (99 - 116) bpm
   BP: 96/58(67) {57/26(34) - 113/61(72)} mmHg
   RR: 36 (30 - 42) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.7 kg (admission): 105.5 kg
             Total In:
                                                                  2,457 mL
                                                                  1,255 mL
   PO:
             TF:
                                                                  1,377 mL
                                                                    744 mL
   IVF:
                                                                    960 mL
                                                                    421 mL
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                    240 mL
   Urine:
                                                                    900 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
                                                                    170 mL
   Balance:
                                                                  1,387 mL
                                                                  1,015 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Appears anxious and tachypneic.
   Labs / Radiology
   8.1 g/dL
   265 K/uL
   188 mg/dL
   1.6 mg/dL
   22 mEq/L
   4.2 mEq/L
   59 mg/dL
   117 mEq/L
   146 mEq/L
   24.6 %
   14.8 K/uL
        [image002.jpg]
                             [**2139-2-12**]  12:58 PM
                             [**2139-2-12**]  06:29 PM
                             [**2139-2-13**]  10:52 AM
                             [**2139-2-13**]  06:22 PM
                             [**2139-2-13**]  10:32 PM
                             [**2139-2-14**]  04:15 AM
                             [**2139-2-15**]  03:48 AM
                             [**2139-2-16**]  03:15 AM
                             [**2139-2-16**]  05:11 PM
                             [**2139-2-17**]  06:26 AM
   WBC
   7.7
   8.6
   8.4
   8.7
   12.8
   14.8
   Hct
   32.1
   31.3
   31.6
   30.3
   29.8
   30.6
   28.3
   29.1
   24.6
   Plt
   168
   176
   186
   [**Telephone/Fax (3) 13153**]
   Cr
   1.4
   1.2
   1.2
   1.2
   1.2
   1.3
   1.4
   1.6
   Glucose
   143
   111
   147
   174
   133
   117
   265
   188
   Other labs: PT / PTT / INR:18.1/34.6/1.6, CK / CKMB /
   Troponin-T:159/10/0.69, ALT / AST:201/53, Alk Phos / T Bili:135/1.0,
   Differential-Neuts:73.0 %, Band:1.0 %, Lymph:7.0 %, Mono:5.0 %, Eos:1.0
   %, D-dimer:[**Numeric Identifier 12853**] ng/mL, Fibrinogen:273 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:409 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   After discussion with daughter and family friend who is an infectious
   disease doctor [**First Name (Titles) **] [**Last Name (Titles) 19**]. Updated daughter that his hematocrit dropped
   by 5 points, creatinine is increasing, white count is increasing, BP
   remain borderline low, with stable tachycardia. Patient has expressed
   clearly that he wants to die here and he is anxious and worried about
   the trip to [**State 395**]. Currenty feels dyspneic. We will give morphine
   boluses, and write for Ativan prn. Daughter is aware that this may
   bring him closer to passing and wants to prioritize comfort. He is care
   measures as result. We will hold on plans for transfer to home with
   hospice. 45minutes spent in discussion with family and patient.
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2139-2-17**] 07:30 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-1-21**] 06:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition :ICU
   Total time spent: 45 minutes